2196-07-09 07:51:00 Physician Resident Progress Note
Chief Complaint: PCP [**Name Initial (PRE) 2443**]
   24 Hour Events:
 NASAL SWAB - At [**2196-7-8**] 07:01 PM
 FEVER - 102.3
F - [**2196-7-8**] 05:00 PM
   No overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-8**] 08:46 PM
   Cefipime - [**2196-7-9**] 12:52 AM
   Bactrim (SMX/TMP) - [**2196-7-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-7-8**] 08:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-9**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 36.8
C (98.3
   HR: 100 (84 - 125) bpm
   BP: 120/74(85) {95/57(66) - 147/89(100)} mmHg
   RR: 24 (20 - 41) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    700 mL
                                                                    750 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                    700 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                  1,300 mL
   Urine:
                                                                  1,950 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,250 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 5L
   SpO2: 89%
   ABG: 7.46/34/65/22/0
   Physical Examination
   GEN: NAD, slightly anxious
   HR: r/r/r, no m/r/g
   Resp: slightly decreased lung sound at bases, otherwise clear no w/r/r
   Abd: Soft, NT, ND, + BS
   Ext: No edema
   Neuro: AAOX3
   Labs / Radiology
   381 K/uL
   11.1 g/dL
   138 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   15 mg/dL
   103 mEq/L
   137 mEq/L
   33.2 %
   3.5 K/uL
        [image002.jpg]
                             [**2196-7-9**]  05:00 AM
                             [**2196-7-9**]  05:24 AM
   WBC
   3.5
   Hct
   33.2
   Plt
   381
   Cr
   0.9
   TCO2
   25
   Glucose
   138
   Other labs: PT / PTT / INR:12.7/29.6/1.1, ALT / AST:71/94, Alk Phos / T
   Bili:205/0.2, Lactic Acid:1.5 mmol/L, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Imaging: [**7-5**] CXR: IMPRESSION: Patchy ill-defined opacities within both
   lungs, most pronounced within the left mid and upper lung field, which
   could represent areas of infection. Asymmetric pulmonary edema may also
   be possible, and followup radiographs are recommended.
   [**7-8**] CHEST CT: 1. Widespread pulmonary parenchymal abnormality
   throughout both lungs with relative sparing of the bases without
   evidence of edema. Given the relative rapid changes evident on the
   radiographs from this admission, the differential diagnosis favors an
   infectious process and much less likely vasculitis or hypersensitivity
   pneumonitis. Infectious considerations include atypical pneumonias,
   including viral as well as pneumocystis jiroveci.
   2. Minimal tracheal secretions.
   3. Mildly prominent mediastinal lymph nodes, likely reactive.
   Microbiology: Blood culture pending x multiple
   Legionella negative
   Urine culture negative
   [**2196-7-8**] induced Sputum culture: pending
   ECG: EKG: Sinus tachycardia, normal axis, normal intervals, no ST or TW
   changes.
   Assessment and Plan
 INEFFECTIVE COPING
 PNEUMONIA, OTHER
   pending full workup for cause determination
   Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of HIV, who presented
   with fever, myalgias, shortness of breath, and nonproductive cough and
   transferred from the floor for hypoxia and initiation of thearapy for
   PCP.
   # Pneumocystis jiroveci pneumonia: Likely PCP, [**Name10 (NameIs) **] sputum pending.
   Other considerations include non-infectious pneumonitis/vasculitis, but
   these are much less likely given presentation.  Bacterial pneumonia
   unlikely given radiographic appearance and failure to respond to
   treatment.
   - Prednisone 40 mg [**Hospital1 7**] x 5 days, give low PaO2 for PCP
   [**Name Initial (PRE) **] Bactrim 5/25 mg/kg TID for 21 days; IV for day 1 then transition to
   PO.
   - Vanc, levo, and cefepime until sputum culture negative, or PCP
   [**Name Initial (PRE) 9164**].  Vanc approval neded
   - Consider BAL if induced sputum is negative
   - f/u cultures
   # HIV infection: New diagnosis, based on viral load.  Antibodies and
   CD4 pending.  Early antiretrovirals (median 12 days) prevented
   progression and death from HIV after diagnosis in setting of
   opportunistic infection in one study (Zolopa, PLoS ONE 4(5) e5575.)
   - check G6PD
   - consult ID today for consideration of intiation of antiretrovirals
   - Prophylaxis per CD4
   .# Tachycardia: HR 140s on admission likely [**1-11**] infection, fever,
   dehydration. Improved with IVF and ibuprofen. Of note, prior EKG with
   tachycardia as well.
   - Ibuprofen/Tylenol/cooling blanket for fever.
   - IVF PRN, 1L NS already given
   # LFT elevation: Trending down since [**2193**].  Possibly viral from HIV
   infection.  Hep B c/w prior infection and Hep C negative in [**2193**].  Also
   may be [**1-11**] to excessive tylenol use prior to admission, but APAP level
   negative.  Bili normal.
   - Coags normal
   - continue to trend.
   # Iron-deficiency anemia: started on Fe supplementation.
   # Hypertension: Will hold outpaitent regimen, consider short-acting
   medications as needed, such as metoprolol if needed.
   - trend Cr carefully given initiation of bactrim
   .
   #Anxiety: Patient has never used anything for anxiety but is having
   difficulty coping with new diagnosis and sleeping.
   - Social work consult
   - Will start low dose Clonopin today to help with anxiety
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2196-7-8**] 07:34 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication:  Comments: [**Company **] proxy is partner.
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2196-07-10 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -seend by ID: no ARV for now, cont Bactrim IV, add folic acid, d/c
   other antibiotics; if CD4 low-> send CMV and consult optho to r/o CMV
   retinities; may need Neuopogen
   -sent RPR, Hepatitis serologies
   -supplemented electrolyes
   -consulted SW
   -started Klonopin for anxiety
   -I/O about even
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-7-9**] 10:00 AM
   Cefipime - [**2196-7-9**] 12:08 PM
   Vancomycin - [**2196-7-9**] 08:00 PM
   Bactrim (SMX/TMP) - [**2196-7-10**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-7-9**] 08:00 PM
   Other medications:
   Acetaminophen 4. Clonazepam 5. Clonazepam 6. Clonazepam 7. Docusate
   Sodium 8. Ferrous Sulfate
   9. FoLIC Acid 10. Heparin 11. Ibuprofen 12. Insulin 13. Magnesium
   Sulfate 14. Potassium Chloride
   15. PredniSONE 16. Senna 17. Sodium Chloride 0.9% Flush 18.
   Sulfameth/Trimethoprim
   Changes to medical and family history: no hx of asthma
   Review of systems is unchanged from admission except as noted below
   Review of systems: feels anxious this am, along with lung tightness
   making it difficult to breathe, worse with cough, no CP, ?if is panic
   attack
   Per nursing, desating to 84% with anxiety with any movement.
   Flowsheet Data as of  [**2196-7-10**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.4
C (95.7
   HR: 89 (80 - 110) bpm
   BP: 113/63(75) {98/58(67) - 139/109(113)} mmHg
   RR: 27 (18 - 40) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,870 mL
                                                                    700 mL
   PO:
                                                                  1,320 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,550 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                  1,300 mL
   Urine:
                                                                  2,660 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    210 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///20/
   Physical Examination
   Gen: alert, oriented, NAD
   CV: tachycardic RR, nl s1/s2 no murmurs
   Pulm: cta b/l, decreased BS at apices minorly
   Abd: +BS, soft, NT, ND
   Ext: no edema
   Labs / Radiology
   398 K/uL
   10.6 g/dL
   160 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   19 mg/dL
   104 mEq/L
   137 mEq/L
   31.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2196-7-9**]  05:00 AM
                             [**2196-7-9**]  05:24 AM
                             [**2196-7-9**]  04:56 PM
                             [**2196-7-10**]  04:02 AM
   WBC
   3.5
   4.6
   7.0
   Hct
   33.2
   31.6
   31.4
   Plt
   381
   372
   398
   Cr
   0.9
   1.0
   1.1
   TCO2
   25
   Glucose
   138
   160
   Other labs: PT / PTT / INR:12.7/29.6/1.1, ALT / AST:78/93, Alk Phos / T
   Bili:185/0.1, Differential-Neuts:67.8 %, Lymph:14.8 %, Mono:16.7 %,
   Eos:0.5 %, Lactic Acid:1.5 mmol/L, LDH:414 IU/L, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Imaging: CXR [**7-10**]: improving lung aeration particularly RLL per HO read
   Microbiology: RPR pending
   blood [**2118-7-6**] pending
   Hepatitis serologies pending
   HIV genotyping sent
   Assessment and Plan
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 INEFFECTIVE COPING
 PNEUMONIA, OTHER
   Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of HIV, who presented
   with fever, myalgias, shortness of breath, and nonproductive cough and
   transferred from the floor for hypoxia and initiation of thearapy for
   PCP.
   # Pneumocystis jiroveci pneumonia:
   - Prednisone 40 mg [**Hospital1 7**] x 5 days, give low PaO2 for PCP (D1 [**7-8**])
   - Bactrim 5/25 mg/kg TID for 21 days; (D1 [**7-8**]); f/u with ID today if
   can transition to PO
   # HIV infection: New diagnosis, based on viral load.  Genotype and CD4
   pending.  Per ID should not start ARV now because would increase
   inflamatory process.
   -appreciate ID following
   -f/u HIV genotype, CD4 count (if low, need CMV and optho)
   .# Tachycardia: resolved currently; HR 140s on admission likely [**1-11**]
   infection, fever, dehydration. Improved with IVF and ibuprofen. Of
   note, prior EKG with tachycardia as well.
   - IVF PRN, 1L NS already given
   - cont to keep I/O even
   # LFT elevation: Trending down since [**2193**]; stable this am.  Possibly
   viral from HIV infection.  Hep B c/w prior infection and Hep C negative
   in [**2193**].  Also may be [**1-11**] to excessive tylenol use prior to admission,
   but APAP level negative.  Bili normal.
   - Coags normal
   - continue to trend.
   -f/u hepatitis serologies
   # Iron-deficiency anemia: started on Fe supplementation.
   # Hypertension: Will hold outpaitent regimen, consider short-acting
   medications as needed, such as metoprolol if needed.
   - trend Cr carefully given initiation of bactrim; stable this am
   .
   #Anxiety: Patient has never used anything for anxiety but is having
   difficulty coping with new diagnosis and sleeping.
   - Social work consult
   - increased Klonopin to 1mg am, 2 mg pm
   - chest tightness resolved with Klonopin this am
   - is getting a dose now
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-7-8**] 07:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with patient
   Code status: Full code
   Disposition: icu pending oxygen saturation stability.

2196-07-11 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Acutely hypoxic overnight, with RR into 50's and HR to 120s.  ABG was
   7.47/27/48/20 on 70% high flow and NC.  Repositioned, given Ativan 1mg
   IV, and changed to 100% high flow with NC.  Given NS 500cc bolus.
   Redrew ABG, now 7.46/28/55.  Intubated first thing this AM.
   Other overnight: Required prn dose of clonazepam through the day.
   Steroids increased to Prednisone 40 PO BID from 60mg PO Qam per ID
   request on account of por respiratory status.  Also, changed to PO
   bactrim.  Liver U/S ordered. Hep serolgies show past exposure and
   current immunity to HBV and HAV.  CD4 still pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-7-9**] 10:00 AM
   Cefipime - [**2196-7-9**] 12:08 PM
   Vancomycin - [**2196-7-9**] 08:00 PM
   Bactrim (SMX/TMP) - [**2196-7-11**] 02:10 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-7-10**] 04:58 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-10**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-11**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 120 (82 - 125) bpm
   BP: 99/62(70) {99/58(70) - 144/85(97)} mmHg
   RR: 44 (21 - 49) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,055 mL
                                                                  1,147 mL
   PO:
                                                                    400 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,655 mL
                                                                  1,047 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    850 mL
   Urine:
                                                                  3,050 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -995 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 89%
   ABG: 7.46/28/55/19/-1
   PaO2 / FiO2: 110
   Physical Examination
   Gen-alert oriented, obvious distress from WOB
   HEENT- NCAT, supple, no JVD
   Pulm- nasal flaring, supraclavicular retractions, tachypneic. Fine
   rales diffusely anteriorly.  No wheeze.
   CV- S1/S2 no MGR.
   Abd- Soft, NTND. +BS.
   Ext- no LE edema
   Labs / Radiology
   516 K/uL
   12.4 g/dL
   91 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.6 mEq/L
   19 mg/dL
   103 mEq/L
   135 mEq/L
   37.2 %
   16.7 K/uL
        [image002.jpg]
                             [**2196-7-9**]  05:00 AM
                             [**2196-7-9**]  05:24 AM
                             [**2196-7-9**]  04:56 PM
                             [**2196-7-10**]  04:02 AM
                             [**2196-7-11**]  04:02 AM
                             [**2196-7-11**]  05:08 AM
                             [**2196-7-11**]  06:50 AM
   WBC
   3.5
   4.6
   7.0
   16.7
   Hct
   33.2
   31.6
   31.4
   37.2
   Plt
   381
   372
   398
   516
   Cr
   0.9
   1.0
   1.1
   1.2
   TCO2
   25
   20
   21
   Glucose
   138
   160
   91
   Other labs: PT / PTT / INR:12.7/29.6/1.1, ALT / AST:78/93, Alk Phos / T
   Bili:185/0.1, Differential-Neuts:83.0 %, Band:0.0 %, Lymph:14.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L, LDH:414 IU/L, Mg++:2.2
   mg/dL, PO4:4.1 mg/dL
   Imaging:
   CXR: B/L infiltrates unchanged from yesterday
   Microbiology:
   Assessment and Plan
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 INEFFECTIVE COPING
 PNEUMONIA, OTHER
   PJP
   Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of HIV, who presented
   with fever, myalgias, shortness of breath, and nonproductive cough and
   transferred from the floor for hypoxia and initiation of therapy for
   PCP.
   #hypoxemia, persistent despite increase in High flow O2 and
   repositioning. Repeat ABG with improvement in PaO2, but same PCO2.  Pt
   reaffirmed his desire to have whatever necessary done to help him,
   including intubation.  Intubated this AM.  NG tube placed.
   -Sedate with versed/fentanyl
   -ABG now, check q6 hrs
   -change vent settings to VA/C with ARDS Vt, and adjust based on ABGs
   -Change meds from PO to NG
   # Pneumocystis jiroveci pneumonia:
   - Prednisone 40 mg [**Hospital1 7**], day 4/5 days, give low PaO2 for PCP (D1 [**7-8**])
   - Bactrim 5/25 mg/kg TID, day [**3-29**]; (D1 [**7-8**]);
   # HIV infection: New diagnosis, based on viral load.  Genotype and CD4
   pending.  Per ID should not start ARV now because would increase
   inflamatory process.
   -appreciate ID following
   -f/u HIV genotype, CD4 count (if low, need CMV and optho)
   .# Tachycardia: resolved currently; HR 140s on admission likely [**1-11**]
   infection, fever, dehydration. Improved with IVF and ibuprofen. Of
   note, prior EKG with tachycardia as well.  [**Month (only) 51**] be related to anxiety,
   but likely due to difficulty in oxygenation
   -already receiving NS 500cc bolus
   -receiving clonazepam for anxiety
   # LFT elevation: Trending down since [**2193**]; stable this am.  Possibly
   viral from HIV infection.  Hep B c/w prior infection and Hep C negative
   in [**2193**].  Also may be [**1-11**] to excessive tylenol use prior to admission,
   but APAP level negative.  Bili normal.
   - Coags normal
   - continue to trend.
   # Iron-deficiency anemia: started on Fe supplementation.
   # Hypertension: Will hold outpatient regimen, consider short-acting
   medications as needed, such as metoprolol if needed.
   - trend Cr carefully given initiation of bactrim; stable this am
   #Anxiety: Patient has never used anything for anxiety but is having
   difficulty coping with new diagnosis and sleeping.
   - Social work consult, f/u recs today
   ICU Care
   Nutrition: Nutrition C/S, and start TF
   Glycemic Control:  track BGs, if elevated, start HISS
   Lines:
   20 Gauge - [**2196-7-8**] 07:34 PM
   20 Gauge
   R
arterial line
   Prophylaxis:
   DVT:  SQ heparin, pneumoboots
   Stress ulcer: famotidine
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:  with partner, who is HCP, and has also
   contact[**Name (NI) **] family. Also email to update PCP.
   [**Name10 (NameIs) 36**] status: Full code
   Disposition: ICU

2196-07-12 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -intubated [**7-11**], R IJ triple lumen placed, increased Versed, FiO2
   increased to 70% for desat and low PaO2, increased PEEP, esophogeal
   balloon - failed insertion
   -decreased UOP, tachy to 120, gave 1L NS, febrile, blood cultures
 INVASIVE VENTILATION - START [**2196-7-11**] 08:00 AM
 ULTRASOUND - At [**2196-7-11**] 09:30 AM
 EKG - At [**2196-7-11**] 09:53 AM
 ARTERIAL LINE - START [**2196-7-11**] 12:32 PM
 MULTI LUMEN - START [**2196-7-11**] 06:00 PM
 BLOOD CULTURED - At [**2196-7-12**] 05:00 AM
 BLOOD CULTURED - At [**2196-7-12**] 05:25 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-7-9**] 10:00 AM
   Cefipime - [**2196-7-9**] 12:08 PM
   Vancomycin - [**2196-7-9**] 08:00 PM
   Bactrim (SMX/TMP) - [**2196-7-12**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-7-11**] 08:00 PM
   Famotidine (Pepcid) - [**2196-7-11**] 08:00 PM
   Propofol - [**2196-7-11**] 11:00 PM
   Midazolam (Versed) - [**2196-7-12**] 02:30 AM
   Fentanyl - [**2196-7-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-12**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 102 (85 - 148) bpm
   BP: 95/53(63) {88/43(55) - 207/127(145)} mmHg
   RR: 28 (13 - 46) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 3 (3 - 7)mmHg
   Total In:
                                                                  5,375 mL
                                                                  1,180 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  5,085 mL
                                                                  1,140 mL
   Blood products:
   Total out:
                                                                  2,055 mL
                                                                    250 mL
   Urine:
                                                                  2,055 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,320 mL
                                                                    930 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 8
   PEEP: 18 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.32/41/86/19/-4
   Ve: 11.7 L/min
   PaO2 / FiO2: 123
   Physical Examination
   Neuro: Sedated, responsive to sound
   CV: tachycardic, nl S1S2, no m/r/g
   Pulm: anterior exam coarse breath sounds bilaterally, crackles in lung
   bases
   Abd: soft, nontender, nondistended, +BS
   Ext: warm, 2+ pulses, <2 sec cap refill
   Labs / Radiology
   418 K/uL
   10.2 g/dL
   117 mg/dL
   1.1 mg/dL
   19 mEq/L
   5.1 mEq/L
   20 mg/dL
   106 mEq/L
   132 mEq/L
   30.8 %
   13.6 K/uL
        [image002.jpg]
                             [**2196-7-11**]  01:05 PM
                             [**2196-7-11**]  03:10 PM
                             [**2196-7-11**]  03:21 PM
                             [**2196-7-11**]  05:57 PM
                             [**2196-7-11**]  07:40 PM
                             [**2196-7-11**]  07:55 PM
                             [**2196-7-11**]  09:10 PM
                             [**2196-7-12**]  12:17 AM
                             [**2196-7-12**]  04:24 AM
                             [**2196-7-12**]  04:25 AM
   WBC
   21.2
   13.6
   Hct
   29.2
   29.6
   30.8
   Plt
   434
   418
   Cr
   1.2
   1.1
   TCO2
   20
   20
   21
   21
   20
   22
   22
   Glucose
   123
   117
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:69/79, Alk Phos / T
   Bili:160/0.3, Differential-Neuts:83.0 %, Band:0.0 %, Lymph:14.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, LDH:625 IU/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of HIV, who presented
   with fever, myalgias, shortness of breath, and nonproductive cough and
   transferred from the floor for hypoxia and initiation of therapy for
   PCP, [**Name10 (NameIs) **] intubated [**2196-7-11**].
   # hypoxemia: patient requiring increase FiO2 and increased PEEP,
   following ABG, currently PaO2 adequate on suboptimal vent settings.
   - intubated, vent settings PRVC-AC
   - currently sedated with versed, fentanyl and Propofol, once adequate
   sedation will consider paralytic
   - ABG q6hours
   - CXR
   - [**Month (only) 51**] require esophageal balloon to better evaluate pressures
   - Continue NG meds
   - Check amylase, lipase, TG because on propofol
   # UOP: not adequate over last 6 hours. Will give IVF D5 with 3 amps of
   bicarb. Patient likely fluid down vs kidney dysfunction. Currently
   Creatinine normal.
   - UA
   - Urine lytes
   - Fluid bolus to UOP of goal of > 30cc/hour, on levophed
   # Pneumocystis jiroveci pneumonia:
   - Prednisone 40mg [**Hospital1 7**] day [**4-12**], then 40mg daily for 5 days, then 20mg
   daily for 11 days
   - Bactrim 5/25 mg/kg TID, day [**4-28**]
   # HIV infection: New diagnosis, based on viral load, CD4 64
   - Genotype pending
   - No ARV due to risk of immune reconstitution syndrome, will follow up
   with ID regarding recent changes
   - appreciate ID following
   # Tachycardia: HR 140's on admission
   - overnight to 120's while febrile, given 1L NS due to poor UOP
   # Fevers: febrile overnight
   - blood cultures drawn
   - Tylenol PRN
   # LFT elevation: Trending down since [**2193**]; stable this am.  Possibly
   viral from HIV infection.  Hep B c/w prior infection and Hep C negative
   in [**2193**].  Also may be [**1-11**] to excessive tylenol use prior to admission,
   but APAP level negative.  Bili normal. Hepatitis A positive IgG.
   - Consider checking IgM
 may not alter management
   - Coags normal
   # Iron-deficiency anemia: started on Fe supplementation.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2196-7-11**] 06:30 AM
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2196-07-13 06:02:00 Physician Resident Progress Note
Chief Complaint: 45 y/o male with hx MSM, new diagnosis HIV, presented
   in respiratory failure likely due to PCP.
   24 Hour Events:
   In setting of oliguria, Vigelo placed, revealing SVC  approx 6
   indicating adequate fluid status however given clinical picture with
   poor UO continued to receive fluids, to total 5L.
   Renal US ordered in setting of oliguria despite repeat fluid
   challenges, showed no pathology, Urine lytes, UA ordered but after
   flushing foley, put out 500cc urine, and continued to put out ~50ml/hr.
   Paralyzed with initial improvement of oxygenation, worsening of
   hypercarbia. Esophageal Balloon placed for transpulmonary pressure.
   PEEP decreased to 12 from 15, (also decreased FI02). Many ABG's but
   worsening respiratory status, becoming increasingly acidemic,
   hypercarbic and hypoxemic, with rising lactate.
   Repeat CXR ordered to eval for pulmonary edema in setting of IVF showed
   Pt appeared underparalyzed to nursing staff, redosed on Cisatracurium.
   Spiked fever to 102, extended abx coverage to include:
   I.D recommended continued course bactrim, prednisone, addition folate,
   with monitoring CBC for BMS.
   Dropped pressures to        , started on norepinephrine, had episodes
   bigemeny with hypotension on tele, possibly secondary to
   norepinephrine, switched to phenylephrine, no further ectopy.
   Given worsening septic picture, vasopressin drip started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2196-7-12**] 05:46 PM
   Vancomycin - [**2196-7-12**] 11:00 PM
   Cefipime - [**2196-7-13**] 04:00 AM
   Bactrim (SMX/TMP) - [**2196-7-13**] 04:46 AM
   Infusions:
   Cisatracurium - 0.12 mg/Kg/hour
   Insulin - Regular - 12 units/hour
   Midazolam (Versed) - 12 mg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Fentanyl - [**2196-7-12**] 11:26 AM
   Propofol - [**2196-7-12**] 10:39 PM
   Midazolam (Versed) - [**2196-7-12**] 10:40 PM
   Cisatracurium - [**2196-7-13**] 04:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-13**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.4
C (99.4
   HR: 107 (96 - 130) bpm
   BP: 140/67(83) {98/45(56) - 140/67(83)} mmHg
   RR: 32 (19 - 32) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 8 (8 - 16)mmHg
   Bladder pressure: 18 (15 - 18) mmHg
   Mixed Venous O2% Sat: 80 - 90
   Total In:
                                                                 10,600 mL
                                                                  1,800 mL
   PO:
   TF:
   IVF:
                                                                 10,530 mL
                                                                  1,800 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                    470 mL
   Urine:
                                                                  1,910 mL
                                                                    360 mL
   NG:
                                                                    250 mL
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  8,440 mL
                                                                  1,330 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 91%
   ABG: 7.32/37/81.[**Numeric Identifier 218**]/19/-6
   Ve: 15.1 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   379 K/uL
   9.0 g/dL
   275 mg/dL
   1.3 mg/dL
   19 mEq/L
   4.3 mEq/L
   20 mg/dL
   100 mEq/L
   132 mEq/L
   27.1 %
   12.3 K/uL
        [image002.jpg]
                             [**2196-7-12**]  02:51 PM
                             [**2196-7-12**]  03:32 PM
                             [**2196-7-12**]  03:49 PM
                             [**2196-7-12**]  05:15 PM
                             [**2196-7-12**]  06:16 PM
                             [**2196-7-12**]  06:42 PM
                             [**2196-7-12**]  09:59 PM
                             [**2196-7-13**]  12:19 AM
                             [**2196-7-13**]  03:07 AM
                             [**2196-7-13**]  05:03 AM
   WBC
   12.3
   Hct
   28.0
   27.1
   Plt
   379
   Cr
   1.3
   TCO2
   27
   25
   23
   21
   20
   20
   19
   20
   Glucose
   275
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:69/79, Alk Phos / T
   Bili:160/0.3, Amylase / Lipase:56/19, Differential-Neuts:78.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:10.0 %, Eos:0.0 %, Lactic Acid:5.8
   mmol/L, LDH:625 IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of HIV, who presented
   with fever, myalgias, shortness of breath, and nonproductive cough and
   transferred from the floor for hypoxia and initiation of therapy for
   PCP, [**Name10 (NameIs) **] intubated [**2196-7-11**].
   # hypoxemia: patient requiring increase FiO2 and increased PEEP,
   following ABG, currently PaO2 adequate on suboptimal vent settings.
   Got paralytic, had been tachycardic prior to it in setting of being
   febrile. Continued to be febrile post paralytic, possible
   underparalyzed thus redosed. TACHYCARDIC NOW?
   PEEP decreased from 15 to 12, FI02 50% from.
   What is permissive hypercapnia?
   - intubated, vent settings PRVC-AC.
   - currently sedated with versed, fentanyl and Propofol, cisconce
   adequate sedation will consider paralytic
   - ABG q6hours
   - CXR
   - [**Month (only) 51**] require esophageal balloon to better evaluate pressures
   - Continue NG meds
   - Check amylase, lipase, TG because on propofol
   # UOP: not adequate over last 6 hours. Will give IVF D5 with 3 amps of
   bicarb. Patient likely fluid down vs kidney dysfunction. Currently
   Creatinine normal.
   - UA
   - Urine lytes
   - Fluid bolus to UOP of goal of > 30cc/hour, on levophed
   # Pneumocystis jiroveci pneumonia:
   - Prednisone 40mg [**Hospital1 7**] day [**4-12**], then 40mg daily for 5 days, then 20mg
   daily for 11 days
   - Bactrim 5/25 mg/kg TID, day [**4-28**]
   RESTARTED VANC/CEFEPIME/CIPRO no source.
   # HIV infection: New diagnosis, based on viral load, CD4 64
   - Genotype pending
   - No ARV due to risk of immune reconstitution syndrome, will follow up
   with ID regarding recent changes
   - appreciate ID following
   # Tachycardia: HR 140's on admission
   - overnight to 120's while febrile, given 1L NS due to poor UOP
   # Fevers: febrile overnight
   - blood cultures drawn
pending.
   Restarted vanc/
   - Tylenol PRN
   # LFT elevation: Trending down since [**2193**]; stable this am.  Possibly
   viral from HIV infection.  Hep B c/w prior infection and Hep C negative
   in [**2193**].  Also may be [**1-11**] to excessive tylenol use prior to admission,
   but APAP level negative.  Bili normal. Hepatitis A positive IgG.
   - Consider checking IgM
 may not alter management
   - Coags normal
   # Iron-deficiency anemia: started on Fe supplementation.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 INEFFECTIVE COPING
 PNEUMONIA, OTHER
   PJP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-7-11**] 06:30 AM
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-07-14 07:00:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of
   HIV, who presented with fever, myalgias, shortness of breath, and
   nonproductive cough and transferred from the floor for hypoxia and
   initiation of thearapy for PCP, [**Name10 (NameIs) 1442**] has been intubated.
   24 Hour Events:
   - Paralytics and propofol stopped,while sedation with fentanyl/versed
   increased. No vent dysynchrony.
   - Vt decreased to ARDSnet ~6cc/kg IBW, FiO2 bumped up to 70%, and Peep
   up to 16.
   - [**1-11**] anuria, given 500cc NS and 1u PRBC. The foley was flushed and
   600cc were produced.
   - ID requested no ART, and to continue steroids and empiric abx w/
   cefepime,cipro, vanco.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-13**] 08:37 PM
   Cefipime - [**2196-7-14**] 03:30 AM
   Ciprofloxacin - [**2196-7-14**] 05:10 AM
   Bactrim (SMX/TMP) - [**2196-7-14**] 06:15 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-13**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-14**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 89 (89 - 104) bpm
   BP: 116/62(74) {107/52(66) - 130/68(80)} mmHg
   RR: 27 (26 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 6 (5 - 9)mmHg
   Total In:
                                                                  8,736 mL
                                                                  1,577 mL
   PO:
   TF:
   IVF:
                                                                  8,386 mL
                                                                  1,577 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,870 mL
                                                                    840 mL
   Urine:
                                                                  1,300 mL
                                                                    840 mL
   NG:
                                                                    570 mL
   Stool:
   Drains:
   Balance:
                                                                  6,866 mL
                                                                    737 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.35/45/85.[**Numeric Identifier 126**]/22/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 121
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   449 K/uL
   9.1 g/dL
   79 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.6 mEq/L
   29 mg/dL
   97 mEq/L
   129 mEq/L
   27.3 %
   14.0 K/uL
        [image002.jpg]
                             [**2196-7-13**]  08:57 AM
                             [**2196-7-13**]  10:50 AM
                             [**2196-7-13**]  01:03 PM
                             [**2196-7-13**]  04:15 PM
                             [**2196-7-13**]  04:25 PM
                             [**2196-7-13**]  06:33 PM
                             [**2196-7-13**]  07:44 PM
                             [**2196-7-13**]  09:29 PM
                             [**2196-7-14**]  03:20 AM
                             [**2196-7-14**]  03:22 AM
   WBC
   14.0
   Hct
   25.7
   27.3
   Plt
   449
   Cr
   1.2
   1.4
   TCO2
   27
   22
   24
   25
   26
   25
   25
   26
   Glucose
   105
   79
   Other labs: PT / PTT / INR:11.6/23.3/1.0, ALT / AST:43/46, Alk Phos / T
   Bili:114/0.2, Amylase / Lipase:122/14, Differential-Neuts:69.1 %,
   Band:0.0 %, Lymph:7.5 %, Mono:23.0 %, Eos:0.0 %, Lactic Acid:1.8
   mmol/L, Albumin:2.2 g/dL, LDH:489 IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of HIV, who presented
   with fever, myalgias, shortness of breath, and nonproductive cough and
   transferred from the floor for hypoxia and initiation of therapy for
   PCP, [**Name10 (NameIs) **] intubated [**2196-7-11**].
   PCP [**Name Initial (PRE) 2443**]. Bactrim. Now 500mg QID in
 NS.  Folate. Monitor CBC for
   marrow suppression.
   - Continue bactrim day [**6-28**]
   - Changed 40mg methylprednisolone [**Hospital1 7**] per ID, no defined course,
   pending clinical improvement
   - Continue folate
   - No HAART at this time
   Hypoxemic Respiratory Failure. Intubated. Esophageal balloon in place
   for transpulmonary pressures.
   - Vt decreased to ARDSnet goal (6cc/kg IBW)
   - FiO2 increased to 70%
   - PEEP increased to 16
   - Paralytics held since 11AM [**7-14**]
   - Increased fentanyl/versed
   - Synchronous with vent
   - Q6h ABG, change vent settings as needed
   SIRS: Evaluating for another source. Sputum culture grew yeast, likely
   colonizing
   - follow blood and urine cx
   - blood cultures negative for [**7-7**], [**7-6**]
   - D/C Vanc, Cefepime, Cipro, ID agreeable
   - Surveillance cultures
   Hypotension: Sepsis physiology, IVF, monitoring UOP and perfusion
   - Norepinephrine
   - D/C vasopressin and phenylephrine
   Sedation:
   - Propofol d/c
   - fentanyl and versed
   - Daily wake
   Oliguria: improved
   - Continue to follow, goal of >30 cc/hr
   HIV infection:
   - Genotype pending
   - No HAART
   - ID following
   Tachycardia: may be worsened by levophed
   - Tachy worse with fever
   - Currently afebrile
   - Continue to monitor
   Fever:
   - Tylenol PRN with limits
   - Follow LFT
   Iron deficiency anemia: on Fe.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 INEFFECTIVE COPING
 PNEUMONIA, OTHER
   PJP
 HYPERGLYCEMIA
 ANEMIA, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2196-7-11**] 06:30 AM
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: boots, heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2196-07-15 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Good UOP, weaned FiO2 to 50%, ABG stable.  Added duenebs.
   vanc, cefepime and cipro d/c'ed
   Levophed weaned with stable pressures, in PM, pt asynchronous with
   vent, increased sedations which required restart of levophed.
   Overnight, increase HR, MAPs around 60, no pulse [**Name6 (MD) 9278**] variation, RN
   concerned, gave 500ml NS fluid challenge, total of 1LNS given
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-14**] 03:30 AM
   Ciprofloxacin - [**2196-7-14**] 05:10 AM
   Vancomycin - [**2196-7-14**] 08:52 AM
   Bactrim (SMX/TMP) - [**2196-7-15**] 01:14 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Fentanyl (Concentrate) - 700 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-14**] 08:52 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-15**] 04:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-15**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.3
   HR: 97 (85 - 103) bpm
   BP: 103/50(62) {103/43(60) - 124/63(76)} mmHg
   RR: 25 (17 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 10 (5 - 324)mmHg
   Total In:
                                                                  3,646 mL
                                                                  1,705 mL
   PO:
   TF:
                                                                     63 mL
   IVF:
                                                                  3,423 mL
                                                                  1,705 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                    830 mL
   Urine:
                                                                  3,650 mL
                                                                    680 mL
   NG:
                                                                    350 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -354 mL
                                                                    875 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 1
   PEEP: 16 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.31/44/82.[**Numeric Identifier 143**]/21/-4
   Ve: 10.2 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Exam unchanged
   Responds to painful stimuli
   CV rrr, no r/g/m
   Pulm course breath sounds bilaterally
   Abd soft, mild distension, nontender, delayed bowel sounds
   Ext warm
   Labs / Radiology
   414 K/uL
   8.6 g/dL
   128 mg/dL
   1.8 mg/dL
   21 mEq/L
   5.1 mEq/L
   51 mg/dL
   104 mEq/L
   134 mEq/L
   26.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2196-7-13**]  09:29 PM
                             [**2196-7-14**]  03:20 AM
                             [**2196-7-14**]  03:22 AM
                             [**2196-7-14**]  10:24 AM
                             [**2196-7-14**]  04:14 PM
                             [**2196-7-14**]  05:51 PM
                             [**2196-7-14**]  06:11 PM
                             [**2196-7-15**]  02:30 AM
                             [**2196-7-15**]  04:25 AM
                             [**2196-7-15**]  04:39 AM
   WBC
   14.0
   10.8
   Hct
   27.3
   27.8
   26.5
   Plt
   449
   414
   Cr
   1.4
   1.7
   1.8
   TCO2
   25
   26
   23
   25
   25
   24
   23
   Glucose
   79
   125
   128
   Other labs: PT / PTT / INR:12.7/23.1/1.1, ALT / AST:39/46, Alk Phos / T
   Bili:110/0.2, Amylase / Lipase:84/54, Differential-Neuts:93.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L,
   Albumin:2.2 g/dL, LDH:479 IU/L, Ca++:7.7 mg/dL, Mg++:3.0 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of HIV, who presented
   with fever, myalgias, shortness of breath, and nonproductive cough and
   transferred from the floor for hypoxia and initiation of therapy for
   PCP, [**Name10 (NameIs) **] intubated [**2196-7-11**].
   PCP [**Name Initial (PRE) 2443**]. Bactrim. Now 500mg QID in
 NS.  Folate. Monitor CBC for
   marrow suppression.
   - Continue bactrim day [**7-29**]
   - Changed 40mg methylprednisolone daily (day 1 of 5)
   - No HAART at this time
   Hypoxemic Respiratory Failure. Intubated. Esophageal balloon in place
   for transpulmonary pressures. Asynchronous with vent. Increased
   sedation, required levophed.
   - Asynchronous with vent
   - Increased fentanyl/versed - required levophed - willing to tolerate
   some level of asynchrony as long as ABG and vent levels adequate
   - Vt decreased to ARDSnet goal (6cc/kg IBW)
   - FiO2 decreased to 50%
   - PEEP increased to 16
   - Q6h ABG, change vent settings as needed
   - duonebs
   Hypotension. Relative. Sepsis physiology. In setting of increased
   sedation. Not in setting of fever. Monitoring UOP and perfusion,
   lactate rising to 2.4.
   - Levophed - wean as tolerated
   - 1L NS bolus fluid challenge, if positive increase fluids today
   SIRS: Evaluating for another source. Sputum culture grew yeast, likely
   colonizing
   - follow blood and urine cx
   - blood cultures negative for [**7-7**], [**7-6**]
   - D/C Vanc, Cefepime, Cipro, ID agreeable
   - Surveillance cultures
   Renal Function: BUN/Cr ratio increasing, may be pre-renal vs ATN.
   Patient has good UOP. Could be secondary to steroids and bactrim.
   - Continue to monitor UOP goal of >30cc/hr
   - Urine lytes, eos
   HIV infection:
   - Genotype pending
   - No HAART
   - ID following
    Residuals: likely constipated from fentanyl
   - aggressive bowel regimen including lactulose enema
   Tachycardia: may be worsened by levophed
   - Tachy worse with fever
   - Currently afebrile
   - Continue to monitor
   Fever:
   - Tylenol PRN with limits
   - Follow LFT
   Iron deficiency anemia: on Fe.
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-07-16 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2196-7-15**] 01:48 PM
 EKG - At [**2196-7-15**] 08:21 PM
 SPUTUM CULTURE - At [**2196-7-15**] 09:00 PM
 FEVER - 101.4
F - [**2196-7-15**] 12:00 PM
   GPC cultured from blood on [**7-12**], started vanco. PEEP weaned from 16 to
   14. Became tachycardic, hypertensive around 11pm, with drop in 02 sats
   in mid 90's, remained synchronous on vent, went back up on seds,
   stabilized. Off pressors 24hrs.  PM lytes showed k+5.7. EKG showed NSR,
   no ST changes, persistently prominent T waves from old EKGs but no
   peaked T waves. Got lactulose PR and lasix 20IV x 1 to lower K+, repeat
   K at midnight was 5.5.  BM overnight.
   ID recs: continue bactrim. For pred taper, q of starting HAART based on
   clinical status. We decided to taper, prednisone decreased to 40 qd
   from 40BID. Also renally dosed bactrim (500IV Q6 to 400IV q8).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-14**] 03:30 AM
   Ciprofloxacin - [**2196-7-14**] 05:10 AM
   Vancomycin - [**2196-7-14**] 08:52 AM
   Bactrim (SMX/TMP) - [**2196-7-16**] 02:46 AM
   Infusions:
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-15**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-15**] 08:07 PM
   Furosemide (Lasix) - [**2196-7-15**] 09:08 PM
   Midazolam (Versed) - [**2196-7-15**] 10:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-16**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.8
C (98.3
   HR: 81 (75 - 100) bpm
   BP: 102/50(65) {98/48(61) - 130/68(87)} mmHg
   RR: 26 (0 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 12 (10 - 14)mmHg
   Total In:
                                                                  5,112 mL
                                                                    742 mL
   PO:
   TF:
   IVF:
                                                                  5,112 mL
                                                                    742 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                  2,725 mL
   Urine:
                                                                  3,100 mL
                                                                  2,650 mL
   NG:
                                                                    450 mL
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  1,562 mL
                                                                 -1,983 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/44/81.[**Numeric Identifier 508**]/24/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   411 K/uL
   8.5 g/dL
   134 mg/dL
   1.7 mg/dL
   24 mEq/L
   5.5 mEq/L
   57 mg/dL
   108 mEq/L
   142 mEq/L
   25.0 %
   10.0 K/uL
        [image002.jpg]
                             [**2196-7-15**]  02:30 AM
                             [**2196-7-15**]  04:25 AM
                             [**2196-7-15**]  04:39 AM
                             [**2196-7-15**]  10:17 AM
                             [**2196-7-15**]  01:27 PM
                             [**2196-7-15**]  05:51 PM
                             [**2196-7-15**]  06:02 PM
                             [**2196-7-16**]  12:09 AM
                             [**2196-7-16**]  04:09 AM
                             [**2196-7-16**]  04:25 AM
   WBC
   10.8
   10.0
   Hct
   26.5
   25.0
   Plt
   414
   411
   Cr
   1.8
   1.6
   1.7
   TCO2
   24
   23
   23
   26
   29
   27
   28
   Glucose
   128
   121
   134
   Other labs: PT / PTT / INR:13.0/23.0/1.1, ALT / AST:39/46, Alk Phos / T
   Bili:110/0.2, Amylase / Lipase:84/54, Differential-Neuts:80.0 %,
   Band:1.0 %, Lymph:8.0 %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:479 IU/L, Ca++:7.6 mg/dL, Mg++:2.9 mg/dL, PO4:4.6
   mg/dL
   Imaging: CXR: ETT appropriately placed, R IJ in SVC, no ptx, B/L
   infiltrate stable if not improved.
   Microbiology: Bcx [**7-12**] GPC in clusters
   Ucx [**7-12**] neg.
   Bcx [**7-15**] pending
   Sputum Cx [**7-15**] pending
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of HIV, who presented
   with fever, myalgias, shortness of breath, and nonproductive cough and
   transferred from the floor for hypoxia and initiation of therapy for
   PCP, [**Name10 (NameIs) **] intubated [**2196-7-11**].
   # PCP [**Name Initial (PRE) 2443**]. Bactrim. Now 500mg QID in
 NS.  Folate. Monitor CBC
   for marrow suppression.
   - Continue bactrim day [**8-29**]
   - Changed 40mg methylprednisolone daily (day 2 of 5)
   - ID does not want to taper until clinical picture improves
   - add Methylprednisolone 40mg iv to this AM.
   # Hypoxemic Respiratory Failure. Intubated. Esophageal balloon in place
   for transpulmonary pressures. No vent desynchrony with adequate
   sedation
   - Synchrony with fent/versed
   - PSV trial today with decreaed sedation
   - Vt decreased to ARDSnet goal (6cc/kg IBW)
   - FiO2 decreased to 50%
   - Q6h ABG, change vent settings as needed
   - duonebs
   # GPC bacteremia: Blood cultures 8/4 w/ GPC in clusters.  New fever
   yesterday, pancx. Off pressors since [**7-15**] AM.
   - Vanco started [**2196-7-16**]
   - F/U cxs.
   - tylenol for fever
   # Hypotension. In setting of increased sedation with adequate UOP,
   lactate normal. Now maintaining MAPs 60s-70's.
   - Levophed off
   # Hyperkalemia. K 5.7 yeterday, w/o EKG changes.  Given lactulose and
   lasix, had liquid stool, no change in K this AM.
   - EKG this AM
   - PM K
   - kayexelate, lasix, lactulose
   # GPC bacteremia: Blood cultures 8/4 w/ GPC in clusters.  New fever
   yesterday, pancx. Off pressors since [**7-15**] AM.
   - Vanco started [**2196-7-16**]
   - F/U cxs.
   - tylenol for fever
   # Renal Function: BUN/Cr ratio increasing, may be pre-renal vs ATN.
   Patient has good UOP. Could be secondary to steroids and bactrim.
   - Continue to monitor UOP goal of >30cc/hr
   - Urine lytes, eos
   # HIV infection:
   - Genotype pending
   - No HAART
   - ID following
   # Constipation: likely constipated from fentanyl.  Liquid stools this
   AM.
   - aggressive bowel regimen including lactulose enema
   # Tachycardia: chronic, worse with fever/anxiety
   - Currently afebrile
   - Continue to monitor
   # Fever: likely inflammatory not infectious, pan cx without abx started
   - Tylenol PRN
   - Follow LFT
   - f/u cx
   # Iron deficiency anemia: on Fe.
   ICU Care
   Nutrition:
   Comments: restart TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2196-07-17 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2196-7-16**] 10:53 AM
 EKG - At [**2196-7-16**] 10:53 AM
 URINE CULTURE - At [**2196-7-16**] 02:36 PM
 EKG - At [**2196-7-17**] 02:53 AM
 FEVER - 102.0
F - [**2196-7-16**] 06:00 PM
   Persitant fever through the day.  given tylenol, cultured in AM.
   A-line resighted.  Sputum gram stain w/ 2+GNRs.  PEEP weaned to 12 from
   14. ABG stable.  K+ trending up despite lactulose PO and PR and lasix.
   Large BM o/n, will recheck K+ and EKG in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-16**] 08:52 PM
   Bactrim (SMX/TMP) - [**2196-7-17**] 02:15 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-16**] 08:37 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-17**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-17**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37
C (98.6
   HR: 72 (70 - 107) bpm
   BP: 131/74(93) {96/54(68) - 141/74(93)} mmHg
   RR: 26 (19 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 5 (4 - 5)mmHg
   Total In:
                                                                  2,959 mL
                                                                    797 mL
   PO:
   TF:
                                                                     22 mL
   IVF:
                                                                  2,779 mL
                                                                    775 mL
   Blood products:
   Total out:
                                                                  6,900 mL
                                                                  2,580 mL
   Urine:
                                                                  6,435 mL
                                                                  1,480 mL
   NG:
                                                                    465 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,941 mL
                                                                 -1,783 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 94%
   ABG: 7.43/42/69/27/2
   Ve: 10.8 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Gen-sedated, NAD.
   HEENT- NCAT, intubated, no jvd
   Pulm- b/l coarse BS anteriorly, no wheeze
   CV- S1/S2 w/o MGR
   Abd- soft, ND, +BS
   Ext- 1+ b/l LE edema
   Labs / Radiology
   376 K/uL
   8.6 g/dL
   141 mg/dL
   1.4 mg/dL
   27 mEq/L
   5.7 mEq/L
   47 mg/dL
   111 mEq/L
   145 mEq/L
   26.6 %
   12.8 K/uL
        [image002.jpg]
                             [**2196-7-16**]  12:09 AM
                             [**2196-7-16**]  04:09 AM
                             [**2196-7-16**]  04:25 AM
                             [**2196-7-16**]  11:54 AM
                             [**2196-7-16**]  01:45 PM
                             [**2196-7-16**]  03:14 PM
                             [**2196-7-16**]  06:30 PM
                             [**2196-7-16**]  07:50 PM
                             [**2196-7-17**]  03:00 AM
                             [**2196-7-17**]  03:11 AM
   WBC
   10.0
   12.8
   Hct
   25.0
   28.6
   26.5
   26.6
   Plt
   411
   376
   Cr
   1.7
   1.4
   TCO2
   27
   28
   28
   29
   29
   29
   Glucose
   134
   141
   Other labs: PT / PTT / INR:13.4/25.4/1.1, ALT / AST:39/46, Alk Phos / T
   Bili:110/0.2, Amylase / Lipase:84/54, Differential-Neuts:82.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:2.2 g/dL, LDH:479 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.9
   mg/dL
   Imaging: CXR: ETT appropriately place, R IJ beside R atrium, decreased
   lung space filling on R
   Microbiology: Sputum gram stain 2+ GNRs, cx pending. Blood, urine [**7-16**].
   Ucx negative [**7-15**]
   ECG: NSR
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of HIV, who presented
   with fever, myalgias, shortness of breath, and nonproductive cough and
   transferred from the floor for hypoxia and initiation of therapy for
   PCP, [**Name10 (NameIs) **] intubated [**2196-7-11**].
   # Hypoxemic Respiratory Failure. Intubated. Esophageal balloon in place
   for transpulmonary pressures. No vent desynchrony with adequate
   sedation
   - Synchrony with fent/versed
   - Continue to wean vent requirements, PEEP to 10 today, check ABG after
   1hr.
   - Vt decreased to ARDSnet goal (6cc/kg IBW)
   - duonebs
   # PCP [**Name Initial (PRE) 2443**]. Bactrim. Now 500mg QID in
 NS.  Folate. Monitor CBC
   for marrow suppression.
   - Continue bactrim day [**9-28**]
   - methylprednisolone [**Hospital1 7**] 40mg until clinical picture improves, per ID
   # GPC bacteremia: Blood cultures 8/4 w/ GPC in clusters.  New fever
   yesterday, pancx. Off pressors since [**7-15**] AM.
   - Vanco started [**2196-7-16**], check trough in AM prior to 3rd dose
   - F/U cxs.
   - tylenol for fever
   - if culture grows staph spp consider TEE while pt is intubated to eval
   for endocarditis
   #GNRs in sputum.  In context of persistent ventilator requirement.
   Awaiting cx results.
   -f/u cx
   -if pseudomonas broaden abx to include cefepime and cipro.
   # Hypotension. In setting of increased sedation with adequate UOP,
   lactate normal. Now maintaining MAPs 60s-70's.
   - Levophed off
   # Hyperkalemia. Likely [**1-11**] bactrim.  K 5.9 o/n, w/o EKG changes.  Had
   one large BM, AM K \5.7
   - standing lactulose
   -kayexelate for K>5.5
   - q12hr  K+
   -daily EKG if K>6
   # Fever: inflammatory vs infectious. pan cx without abx started.  2+
   GNRs in sputum gram stain, cx pending.
   - Tylenol PRN
   - f/u cx
   -f/u spp of sputum cx.
   -broaden abx coverage as indicated by cx results.
   # Renal Function: BUN/Cr improving from yesterday. Likely pre-renal.
   Patient has good UOP.
   - Continue to monitor UOP goal of >30cc/hr
   -continue daily BUN/cr
   -renally dose meds as appropriate
   # HIV infection:
   - Genotype pending
   - No HAART
   - ID following
   # Constipation: likely constipated from fentanyl.  Large BM this AM
   with lactulose enema.
   - aggressive bowel regimen including lactulose enema, w/ goal
   # Tachycardia: chronic, worse with fever/anxiety
   - tylenol for fever
   - Continue to monitor
   - sedation
   # Iron deficiency anemia: on Fe.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-7-17**] 05:07 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Partner and Chip (brother in law)
   Code status: Full code
   Disposition:ICU

2196-07-18 11:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2196-7-17**] 05:56 PM
   Kayexelate given for K 5.6, no growth in sputum cultures. Reglan for
   hiccups with decrease in sedation. Recheck in K was 5.4.
   PEEP 12 adequate ABG, wasn't able to tolerate PEEP 10 (O2 sat down to
   90)
   Febrile to 100.4, blood cx from lines, gave tylenol
   After move desat to 88, sent gas, inceased FiO2 to 60 percent. Improved
   sats. CXR ET tube above carina.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-18**] 08:11 AM
   Bactrim (SMX/TMP) - [**2196-7-18**] 09:39 AM
   Infusions:
   Fentanyl (Concentrate) - 600 mcg/hour
   Midazolam (Versed) - 13 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-18**] 08:11 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-18**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-18**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.5
C (99.5
   HR: 76 (68 - 115) bpm
   BP: 117/65(81) {111/61(79) - 130/71(90)} mmHg
   RR: 26 (22 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,031 mL
                                                                  1,620 mL
   PO:
             TF:
                                                                     64 mL
   IVF:
                                                                  2,788 mL
                                                                  1,620 mL
   Blood products:
   Total out:
                                                                  6,260 mL
                                                                  2,725 mL
   Urine:
                                                                  4,070 mL
                                                                  1,725 mL
   NG:
                                                                    490 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,229 mL
                                                                 -1,105 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 94%
   ABG: 7.44/43/86.[**Numeric Identifier 143**]/27/4
   Ve: 9.7 L/min
   PaO2 / FiO2: 145
   Physical Examination
   Sedated, responds to pain
   RRR, without rubs, gallops or murmurs
   Course breath sounds bilat
   Soft, nontender, nondistended, positive bowel sounds
   Extremities warm
   Labs / Radiology
   335 K/uL
   8.4 g/dL
   115 mg/dL
   1.3 mg/dL
   27 mEq/L
   5.0 mEq/L
   42 mg/dL
   113 mEq/L
   147 mEq/L
   26.4 %
   9.9 K/uL
        [image002.jpg]
                             [**2196-7-17**]  03:00 AM
                             [**2196-7-17**]  03:11 AM
                             [**2196-7-17**]  11:27 AM
                             [**2196-7-17**]  01:48 PM
                             [**2196-7-17**]  04:25 PM
                             [**2196-7-17**]  04:29 PM
                             [**2196-7-17**]  09:11 PM
                             [**2196-7-17**]  10:18 PM
                             [**2196-7-18**]  03:10 AM
                             [**2196-7-18**]  03:11 AM
   WBC
   12.8
   9.9
   Hct
   26.6
   27.7
   26.4
   Plt
   376
   335
   Cr
   1.4
   1.3
   TCO2
   29
   29
   30
   31
   29
   29
   30
   Glucose
   141
   115
   Other labs: PT / PTT / INR:13.2/22.9/1.1, ALT / AST:50/65, Alk Phos / T
   Bili:128/0.2, Amylase / Lipase:84/54, Differential-Neuts:78.0 %,
   Band:1.0 %, Lymph:10.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Albumin:2.3 g/dL, LDH:450 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   Mr. [**Known lastname 9162**] is a 45 year old male with new diagnosis of HIV, who presented
   with fever, myalgias, shortness of breath, and nonproductive cough and
   transferred from the floor for hypoxia and initiation of therapy for
   PCP, [**Name10 (NameIs) **] intubated [**2196-7-11**].
   # Hypoxemic Respiratory Failure. Intubated. Esophageal balloon in place
   for transpulmonary pressures. No vent desynchrony with adequate
   sedation
   - Sedated with fentanyl and versed
   - Continue PEEP 12, if desats consider increasing PEEP to 14, if
   tolerates consider wean
   - Wean FiO2 as tolerated
   -Vt at goal
   - Duonebs
   -reglan for hiccups
   - if decompensates consider gram negative coverage
   # PCP [**Name Initial (PRE) 2443**]. Bactrim. Now 500mg QID in
 NS.  Folate. Monitor CBC
   for marrow suppression.
   - Continue bactrim day [**10-29**]
   - methylprednisolone [**Hospital1 7**] 40mg until clinical picture improves, per ID
   # GPC bacteremia: Blood cultures 8/4 w/ GPC in clusters.  New fever
   yesterday, pancx. Off pressors since [**7-15**] AM.
   - Vanco started [**2196-7-16**], d/c vanco
   - tylenol for fever
   # Hypotension. In setting of increased sedation with adequate UOP,
   lactate normal. Now maintaining MAPs 60s-70's.
   - Levophed off
   # Hyperkalemia. Likely [**1-11**] bactrim.  K 5.9 o/n, w/o EKG changes.  Had
   one large BM, AM K \5.7
   - lactulose
   -kayexelate for K>5.5
   - q12hr  K+
   -daily EKG if K>6
   # Fever: inflammatory vs infectious. pan cx without abx started.  2+
   GNRs in sputum gram stain, cx pending.
   - Tylenol PRN
   - f/u cx
   -f/u spp of sputum cx.
   -broaden abx coverage as indicated by cx results.
   # Renal Function: BUN/Cr improving from yesterday. Likely pre-renal.
   Patient has good UOP.
   - Continue to monitor UOP goal of >30cc/hr
   -continue daily BUN/cr
   -renally dose meds as appropriate
   # HIV infection:
   - Genotype pending
   - No HAART
   - ID following
   # Constipation: likely constipated from fentanyl.  Large BM this AM
   with lactulose enema.
   - aggressive bowel regimen including lactulose enema, w/ goal
   # Tachycardia: chronic, worse with fever/anxiety
   - tylenol for fever
   - Continue to monitor
   - sedation
   # Iron deficiency anemia: on Fe.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2196-07-19 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2196-7-18**] 09:37 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-18**] 08:11 AM
   Bactrim (SMX/TMP) - [**2196-7-19**] 04:11 AM
   Infusions:
   Fentanyl (Concentrate) - 650 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Fentanyl - [**2196-7-18**] 06:18 PM
   Midazolam (Versed) - [**2196-7-18**] 06:19 PM
   Pantoprazole (Protonix) - [**2196-7-18**] 07:56 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-19**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 73 (67 - 135) bpm
   BP: 144/79(101) {123/66(85) - 154/85(109)} mmHg
   RR: 25 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,808 mL
                                                                  1,079 mL
   PO:
             TF:
   IVF:
                                                                  3,778 mL
                                                                  1,079 mL
   Blood products:
   Total out:
                                                                  4,870 mL
                                                                  1,130 mL
   Urine:
                                                                  3,470 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,062 mL
                                                                    -51 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.49/37/113/26/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   291 K/uL
   8.4 g/dL
   109 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.7 mEq/L
   35 mg/dL
   107 mEq/L
   143 mEq/L
   26.0 %
   10.0 K/uL
        [image002.jpg]
                             [**2196-7-17**]  10:18 PM
                             [**2196-7-18**]  03:10 AM
                             [**2196-7-18**]  03:11 AM
                             [**2196-7-18**]  12:42 PM
                             [**2196-7-18**]  03:26 PM
                             [**2196-7-18**]  05:17 PM
                             [**2196-7-18**]  05:25 PM
                             [**2196-7-19**]  03:00 AM
                             [**2196-7-19**]  03:15 AM
                             [**2196-7-19**]  05:21 AM
   WBC
   9.9
   10.0
   Hct
   26.4
   26.0
   Plt
   335
   291
   Cr
   1.3
   1.2
   1.2
   TCO2
   29
   30
   28
   29
   28
   29
   29
   Glucose
   115
   159
   109
   Other labs: PT / PTT / INR:13.1/24.8/1.1, ALT / AST:50/65, Alk Phos / T
   Bili:128/0.2, Amylase / Lipase:84/54, Differential-Neuts:55.0 %,
   Band:1.0 %, Lymph:11.3 %, Mono:32.7 %, Eos:0.1 %, Lactic Acid:2.4
   mmol/L, Albumin:2.3 g/dL, LDH:450 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   20 Gauge - [**2196-7-18**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-07-19 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2196-7-18**] 09:37 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-18**] 08:11 AM
   Bactrim (SMX/TMP) - [**2196-7-19**] 04:11 AM
   Infusions:
   Fentanyl (Concentrate) - 650 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Fentanyl - [**2196-7-18**] 06:18 PM
   Midazolam (Versed) - [**2196-7-18**] 06:19 PM
   Pantoprazole (Protonix) - [**2196-7-18**] 07:56 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-19**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 73 (67 - 135) bpm
   BP: 144/79(101) {123/66(85) - 154/85(109)} mmHg
   RR: 25 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,808 mL
                                                                  1,079 mL
   PO:
             TF:
   IVF:
                                                                  3,778 mL
                                                                  1,079 mL
   Blood products:
   Total out:
                                                                  4,870 mL
                                                                  1,430 mL
   Urine:
                                                                  3,470 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,062 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.49/37/113/26/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   291 K/uL
   8.4 g/dL
   109 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.7 mEq/L
   35 mg/dL
   107 mEq/L
   143 mEq/L
   26.0 %
   10.0 K/uL
        [image002.jpg]
                             [**2196-7-17**]  10:18 PM
                             [**2196-7-18**]  03:10 AM
                             [**2196-7-18**]  03:11 AM
                             [**2196-7-18**]  12:42 PM
                             [**2196-7-18**]  03:26 PM
                             [**2196-7-18**]  05:17 PM
                             [**2196-7-18**]  05:25 PM
                             [**2196-7-19**]  03:00 AM
                             [**2196-7-19**]  03:15 AM
                             [**2196-7-19**]  05:21 AM
   WBC
   9.9
   10.0
   Hct
   26.4
   26.0
   Plt
   335
   291
   Cr
   1.3
   1.2
   1.2
   TCO2
   29
   30
   28
   29
   28
   29
   29
   Glucose
   115
   159
   109
   Other labs: PT / PTT / INR:13.1/24.8/1.1, ALT / AST:50/65, Alk Phos / T
   Bili:128/0.2, Amylase / Lipase:84/54, Differential-Neuts:55.0 %,
   Band:1.0 %, Lymph:11.3 %, Mono:32.7 %, Eos:0.1 %, Lactic Acid:2.4
   mmol/L, Albumin:2.3 g/dL, LDH:450 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   20 Gauge - [**2196-7-18**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-07-19 12:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2196-7-18**] 09:37 PM
   Changed vent settings RR 26 to 24
    PEEP 10 to 12
   Continued to have constant hiccupping, per partner has had in past when
   bedbound x 2 months, reglan no effect.
   Continued high residuals, tube feeds held, attempted dopof placement,
   met resistance, plan for IR guided post pyloric today.
   Continues to be intermittently febrile, t of 100.4 /d, fever, pan
   cultured.
   CT torso to eval fevers, hiccoughs, worsening clinical picture. Showed
   worse GG opacities, LLL infection
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-18**] 08:11 AM
   Bactrim (SMX/TMP) - [**2196-7-19**] 10:18 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Fentanyl (Concentrate) - 650 mcg/hour
   Other ICU medications:
   Fentanyl - [**2196-7-18**] 06:18 PM
   Midazolam (Versed) - [**2196-7-18**] 06:19 PM
   Pantoprazole (Protonix) - [**2196-7-18**] 07:56 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-19**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 84 (67 - 135) bpm
   BP: 128/71(90) {123/66(85) - 154/85(109)} mmHg
   RR: 24 (20 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,808 mL
                                                                  1,730 mL
   PO:
             TF:
   IVF:
                                                                  3,778 mL
                                                                  1,730 mL
   Blood products:
   Total out:
                                                                  4,870 mL
                                                                  1,870 mL
   Urine:
                                                                  3,470 mL
                                                                  1,870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,062 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 93%
   ABG: 7.49/37/113/26/4
   Ve: 8.8 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Cardiovascular: intubated, sedated
   RRR, no M/R/G, S1,S2 clear
   ronchorous throughout lung fields.
   Abd: +bs, soft, nt, nd, no masses
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   291 K/uL
   8.4 g/dL
   109 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.7 mEq/L
   35 mg/dL
   107 mEq/L
   143 mEq/L
   26.0 %
   10.0 K/uL
        [image002.jpg]
                             [**2196-7-17**]  10:18 PM
                             [**2196-7-18**]  03:10 AM
                             [**2196-7-18**]  03:11 AM
                             [**2196-7-18**]  12:42 PM
                             [**2196-7-18**]  03:26 PM
                             [**2196-7-18**]  05:17 PM
                             [**2196-7-18**]  05:25 PM
                             [**2196-7-19**]  03:00 AM
                             [**2196-7-19**]  03:15 AM
                             [**2196-7-19**]  05:21 AM
   WBC
   9.9
   10.0
   Hct
   26.4
   26.0
   Plt
   335
   291
   Cr
   1.3
   1.2
   1.2
   TCO2
   29
   30
   28
   29
   28
   29
   29
   Glucose
   115
   159
   109
   Other labs: PT / PTT / INR:13.1/24.8/1.1, ALT / AST:50/65, Alk Phos / T
   Bili:128/0.2, Amylase / Lipase:84/54, Differential-Neuts:55.0 %,
   Band:1.0 %, Lymph:11.3 %, Mono:32.7 %, Eos:0.1 %, Lactic Acid:2.4
   mmol/L, Albumin:2.3 g/dL, LDH:450 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.8 mg/dL
   Imaging: slightly improved patchy opacities
   Microbiology: Sputum: gram stain: budding yeast, gram +ve rods
   preliminary
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   Hypoxemic Respiratory Failure: intubated, cont sedation for
   ventilation.
   Optimized however underlying process not improved .
   Sepsis: worse bactrim resistant PCP vs PCP + vent associated PNA
   Talk to id, consider atovaquone vs pentamidine.
   Cont to culture if spikes, fu cultures, consider drug fever.
   Consider bronchoscopy.
   Hypotension: in setting increased sedation: off levophed x 48 hour.
   Cont to monitor .
   Fever: inflamm vs infection
   tylenol prn, abx as indicated (vanc dc'd y/d), f/u cx.
   HIV: no HAART, genotype pending, ID following.
   Constipation: fentanly related. Continue lactulose.
   Tachycardia: chronic, worse with fever, anxiety. Tylenol, sedation,
   monitoring.
   Iron deficiency anemia. Iron
   ICU Care
   Nutrition:
   Comments: pentamen full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   20 Gauge - [**2196-7-18**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2196-07-20 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2196-7-19**] 12:58 PM
   placement of dobhoff
 BRONCHOSCOPY - At [**2196-7-19**] 02:47 PM
   Dobhoff placed and TFs restarted.  Bronch: cleaned and repositioned ETT
   + BAL for culture. ID continues to advocate single [**Doctor Last Name **] abx therapy
   and not starting ART.  Thiorazine add prn for hiccupping with improved
   vent synchrony.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-18**] 08:11 AM
   Bactrim (SMX/TMP) - [**2196-7-20**] 04:25 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Fentanyl (Concentrate) - 650 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-20**] 12:09 AM
   Midazolam (Versed) - [**2196-7-20**] 02:11 AM
   Fentanyl - [**2196-7-20**] 02:11 AM
   Propofol - [**2196-7-20**] 03:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-20**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 72 (62 - 90) bpm
   BP: 108/60(74) {105/59(73) - 155/85(110)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 9 (6 - 9)mmHg
   Total In:
                                                                  3,337 mL
                                                                  1,005 mL
   PO:
   TF:
                                                                    137 mL
                                                                    192 mL
   IVF:
                                                                  3,200 mL
                                                                    814 mL
   Blood products:
   Total out:
                                                                  3,770 mL
                                                                  1,100 mL
   Urine:
                                                                  3,670 mL
                                                                  1,100 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -433 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.38/44/94.[**Numeric Identifier 126**]/25/0
   Ve: 9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Gen-Sedated, NAD
   HEENT-NCAT, no JVD
   Pulm- Coarse B/L anterior BS, b/l symmetric chest wall expansion
   CV- S1/S2 w/o MGR
   Abd- Soft, NTND, +BS.  Stooling well.
   Ext- 1+ B/L LE Edema
   Labs / Radiology
   236 K/uL
   8.2 g/dL
   131 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.8 mEq/L
   26 mg/dL
   102 mEq/L
   135 mEq/L
   25.6 %
   10.9 K/uL
        [image002.jpg]
                             [**2196-7-18**]  03:26 PM
                             [**2196-7-18**]  05:17 PM
                             [**2196-7-18**]  05:25 PM
                             [**2196-7-19**]  03:00 AM
                             [**2196-7-19**]  03:15 AM
                             [**2196-7-19**]  05:21 AM
                             [**2196-7-19**]  05:39 PM
                             [**2196-7-19**]  05:50 PM
                             [**2196-7-20**]  04:00 AM
                             [**2196-7-20**]  04:04 AM
   WBC
   10.0
   10.9
   Hct
   26.0
   25.6
   Plt
   291
   236
   Cr
   1.2
   1.2
   1.1
   1.1
   TCO2
   29
   28
   29
   29
   27
   27
   Glucose
   159
   109
   86
   131
   Other labs: PT / PTT / INR:12.8/28.5/1.1, ALT / AST:79/105, Alk Phos /
   T Bili:164/0.3, Amylase / Lipase:84/54, Differential-Neuts:73.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.4 g/dL, LDH:481 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.8
   mg/dL
   Imaging: CXR- no change from [**7-18**]
   Microbiology: mini-BAL gram stain neg, cx pending
   Sputum [**7-18**] pending
   Assessment and Plan
 HYPOXIC RESPIRATORY FAILURE: PCP PNA vs other possible PNA.  CT shows
   LLL consolidation not present on admission.  BAL w/ cx performed
   yesterday.  Continues on bactrim and prednisone.  Presuming ARDS
   physiology.
   - continue current AC settings at ARDSnet Vt
   -continue to wean vent settings in small increments as tolerated with
   ABGs to follow changes
   - f/u cx of sputum/mini BAL for possible cause of PNA.
   - cont. Bactrim for PCP PNA
   [**Name Initial (PRE) **] Prednisone 40mg QD
 PNA: Known PCP vs PCP +new PNA. ID does not want to start HAART at
   this time
   -continue bactrim per ID
   -hold off switching to other [**Doctor Last Name **]
   -F/U ID recs
   -F/U BAL/sputum cx for other PNA source
 ANEMIA, OTHER, Hct Stable o/n.
   -HCt q12
 RENAL FAILURE BUN Cr currently  normal. UOP adequate.
   -continue to trend Bun/cr and UOP
 ALTERATION IN NUTRITION
   -TF restarted yesterday following prior nutrition recs
 HYPOTENSION (NOT SHOCK)
   - levophed for MAPs >60
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   -holding off on ART per ID now
   -consider restarting once stable off the vent
   -F/U HIV genotyping
CONSTIPATION: possibly related to opiates, now having adequate stools
   with lactulose standing dose and senna/docusate.
   -cont. bowel regimen
   -change lactulose to prn, titrate to >1 BM per day.
SEDATION. Currently requires large doses of fent/versed for adequate
   sedation.
   -change sedation to Methadone protocol per nursing
ACCESS.  R IJ is 10d old
   -change to PICC
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-7-20**] 04:30 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   20 Gauge - [**2196-7-18**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Comm w/ partner and Chip
   Code status: Full code
   Disposition:ICU

2196-07-21 05:51:00 Physician Resident Progress Note
Chief Complaint: 45M with PCP pneumonia, remains intubated in
   respiratory failure
   24 Hour Events:
   Pt started on methadone protocol, fentanyl being weaned off, per
   pharmacy note
   Emesis of tube feeds coming out of mouth, tube feeds stopped, NG to
   suction with residual of 450cc, no suction from ET tube, CXR showed no
   change
   Febrile to 101.5, urine and blood cultured
   Hypotension, MAP low 60
s, good UOP, warm ext, not tachycardic, no
   fluids or pressors given
 URINE CULTURE - At [**2196-7-21**] 03:09 AM
 BLOOD CULTURED - At [**2196-7-21**] 03:09 AM
 FEVER - 101.5
F - [**2196-7-21**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-18**] 08:11 AM
   Bactrim (SMX/TMP) - [**2196-7-21**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-20**] 08:21 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-21**] 12:20 AM
   Methadone Hydrochloride - [**2196-7-21**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-21**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.3
C (99.2
   HR: 73 (60 - 102) bpm
   BP: 88/49(62) {88/49(62) - 147/80(103)} mmHg
   RR: 24 (15 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 5 (4 - 9)mmHg
   Total In:
                                                                  3,112 mL
                                                                    690 mL
   PO:
   TF:
                                                                    628 mL
   IVF:
                                                                  2,443 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                  3,705 mL
                                                                  1,380 mL
   Urine:
                                                                  3,255 mL
                                                                  1,380 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                   -593 mL
                                                                   -690 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   SpO2: 92%
   ABG: 7.45/37/92
   Ve: 9.1 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Sedated, minimally responsive, no spont movement of ext
   Coarse breath sounds bilateral, intubated
   RRR without murmurs rubs or gallops
   Soft, nondistended, nontender, pos bowel sounds
   Ext warm
   Lines clear dry and intact
   Labs / Radiology
   202 K/uL
   8.4 g/dL
   125 mg/dL
   1.1 mg/dL
   26 mEq/L
   5.0 mEq/L
   18 mg/dL
   101 mEq/L
   131 mEq/L
   25.4 %
   14.1 K/uL
        [image002.jpg]
                             [**2196-7-19**]  05:21 AM
                             [**2196-7-19**]  05:39 PM
                             [**2196-7-19**]  05:50 PM
                             [**2196-7-20**]  04:00 AM
                             [**2196-7-20**]  04:04 AM
                             [**2196-7-20**]  01:04 PM
                             [**2196-7-20**]  05:59 PM
                             [**2196-7-20**]  06:12 PM
                             [**2196-7-21**]  02:17 AM
                             [**2196-7-21**]  03:11 AM
   WBC
   10.9
   14.1
   Hct
   25.6
   25.1
   25.4
   Plt
   236
   202
   Cr
   1.1
   1.1
   1.1
   TCO2
   29
   27
   27
   26
   25
   29
   Glucose
   86
   131
   125
   Other labs: PT / PTT / INR:13.1/36.5/1.1, ALT / AST:83/91, Alk Phos / T
   Bili:174/0.3, Amylase / Lipase:84/54, Differential-Neuts:86.0 %,
   Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L,
   Albumin:2.4 g/dL, LDH:395 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.7
   mg/dL
   Fluid analysis / Other labs: UA - large blood, negative nitrite and
   leukocytes
   Microbiology: Urine cx [**7-16**] pending
   Urine cx [**7-21**] pending
   Blood cx [**7-15**] pending
   Mini BAL - prelim no growth, fungal cx shows budding yeast with
   pseudohyphae
   Assessment and Plan
   45M with recent diagnosis of HIV presents with PCP pneumonia, intubated
 HYPOXIC RESPIRATORY FAILURE: PCP [**Name Initial (PRE) 2443**]. ?other pulm infection
   cannot be ruled out. CT shows LLL consolidation not present on
   admission. BAL performed, results pending. Continuing ARDS physiology.
   Unable to wean vent settings significantly.
   - Bactrim - continue current dose
   - Prednisone - day [**2-11**] of 40mg daily, then 20mg daily
   - Continue AC settings
   - ARDSnet Vt
   - Wean as tolerated - follow with ABG, alter settings as needed
   - F/u BAL cx
   - Sedation- transitioning to methadone regimen, weaning of fentanyl.
   Per pharmacy's note.
   Fevers: may be due to known PCP pneumonia vs other etiology, Pt got UA
   which was clean, urine cx and blood cx
   - F/u blood cx, urine cx
   - F/u BAL cx
   - Add antibiotics as appropriate
   - Tylenol under 2g daily
   - ID following
 address HAART issue
   - Cx for disseminated [**Doctor First Name **]
   - Sputum cultures
   - Heme consult
 consider bone marrow biopsy, abnormal periph smears
   Hypotension: patient off pressors, MAPs in 60's over night. No signs of
   poor perfusion. Good UOP, not tachycardic, warm ext.
   - Follow vitals
   - UOP > 30
   - IVF/levophed as needed
   Tube Feeds: Pt had emesis of tube feeds. NG tube placed with residuals
   of 450cc.
   - Aggressive bowel regimen - lactulose to [**12-11**] stools per day
   - Restart tube feeds slowly
   - Check residuals often
   Transaminitis: medications not likely cause, may be biliary sludging
   from critical illness. Serologies sent.
   - Trend LFT's
   - Minimize tylenol - under 2g daily
 RENAL FAILURE BUN Cr currently normal. UOP adequate.
   - continue to trend Bun/cr and UOP
   Hyponatremia: possible SIADH vs infusions vs other
   - check urine osm and urine lytes
   - PM lytes
   ACCESS: R IJ is 11 d old
   - place picc, d/c R IJ
 ANEMIA, OTHER, Hct Stable
   - HCt q24h
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - No HAART at this time, per ID
   - F/u genotyping
   - ID following
ACCESS.  R IJ is 11d old
   -change to PICC
   ICU Care
   Nutrition:  Peptamen 1.5 Full strength, goal rate 35ml/hr
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   20 Gauge - [**2196-7-18**] 08:00 PM
   Prophylaxis:
   DVT: Heparin SC 5000Units
   Stress ulcer: Pantoprazole
   VAP:
   Comments: ICU consent completed, no restraints needed
   Communication:  Comments: update PCP
   [**Name9 (PRE) 36**] status: Full code
   Disposition: ICU

2196-07-22 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2196-7-21**] 08:09 AM
 STOOL CULTURE - At [**2196-7-21**] 10:16 AM
 BLOOD CULTURED - At [**2196-7-21**] 10:50 AM
   Heme onc consulted. Smear poor quality and will repeat but
   preliminarily metamyelocytes typical of HIV, no need for biopsy. For
   anemia checking B12, folate, iron studies. Stool sent for c.diff, blood
   for [**Doctor First Name **], sputum sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-7-21**] 10:00 PM
   Infusions:
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Fentanyl - [**2196-7-21**] 05:02 PM
   Pantoprazole (Protonix) - [**2196-7-21**] 08:37 PM
   Methadone Hydrochloride - [**2196-7-22**] 12:10 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-22**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-22**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.4
   HR: 90 (58 - 129) bpm
   BP: 106/57(73) {83/47(58) - 148/81(106)} mmHg
   RR: 28 (16 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 8 (8 - 9)mmHg
   Total In:
                                                                  7,338 mL
                                                                  1,370 mL
   PO:
   TF:
                                                                    282 mL
                                                                    118 mL
   IVF:
                                                                  7,001 mL
                                                                  1,252 mL
   Blood products:
   Total out:
                                                                  6,365 mL
                                                                    885 mL
   Urine:
                                                                  6,190 mL
                                                                    885 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                    552 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.37/43/99.[**Numeric Identifier 508**]/22/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 167
   Physical Examination
   Gen- sedated, not responsive to voice
   HEENT- NCAT, ETT in place, no JVD
   Pulm- B/L rhonchorous BS anteriorly
   CV- S1/S@ w/o MGR
   Abd- Soft, ND, +BS
   Ext- 1+ LE edema
   Labs / Radiology
   163 K/uL
   7.7 g/dL
   155 mg/dL
   1.0 mg/dL
   22 mEq/L
   5.1 mEq/L
   15 mg/dL
   106 mEq/L
   136 mEq/L
   24.0 %
   13.6 K/uL
        [image002.jpg]
                             [**2196-7-20**]  05:59 PM
                             [**2196-7-20**]  06:12 PM
                             [**2196-7-21**]  02:17 AM
                             [**2196-7-21**]  03:11 AM
                             [**2196-7-21**]  06:04 AM
                             [**2196-7-21**]  04:13 PM
                             [**2196-7-21**]  04:46 PM
                             [**2196-7-21**]  09:06 PM
                             [**2196-7-22**]  03:39 AM
                             [**2196-7-22**]  04:05 AM
   WBC
   14.1
   13.6
   Hct
   25.1
   25.4
   24.0
   Plt
   202
   163
   Cr
   1.1
   0.9
   1.0
   TCO2
   25
   29
   27
   24
   26
   26
   Glucose
   125
   108
   155
   Other labs: PT / PTT / INR:12.5/28.7/1.1, ALT / AST:75/69, Alk Phos / T
   Bili:164/0.2, Amylase / Lipase:84/379, Differential-Neuts:93.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L,
   Albumin:2.4 g/dL, LDH:395 IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.9
   mg/dL
   Fluid analysis / Other labs: Retic 2.7
   Imaging: CXR- unchanged
   Microbiology: Mini BAL [**7-19**]-p
   Bcx-p
   Myco Bcx-p
   Ucx-p
   Assessment and Plan
   Assessment and Plan
   45M with recent diagnosis of HIV presents with PCP pneumonia, intubated
 HYPOXIC RESPIRATORY FAILURE: PCP [**Name Initial (PRE) 2443**]. ?other pulm infection
   cannot be ruled out. CT shows LLL consolidation not present on
   admission. BAL performed, results pending. Persistent ARDS physiology.
   Unable to wean vent settings significantly.
   - Bactrim - continue current dose
   - Prednisone - day [**3-13**] of 40mg daily, then 20mg daily
   - Continue AC settings, ARDSnet Vt
   - Wean as tolerated - follow with ABG, alter settings as needed
   - F/u BAL cx
   - Sedation- transitioning to methadone regimen, weaning of fentanyl.
   Per pharmacy's note.
Fevers: may be due to known PCP pneumonia vs other etiology, Pt got UA
   which was clean, urine cx and blood cx
   - F/u blood cx, urine cx
   - F/u BAL cx
   - Add antibiotics as appropriate
   - Tylenol under 2g daily
   - ID following
 address HAART issue
   - Cx for disseminated [**Doctor First Name **]
   - Sputum cultures
   - Heme consult
 consider bone marrow biopsy, abnormal periph smears
 ANEMIA, OTHER, Hct to 24 today from 25.  retic count 2.7.
   - check PM HCt, and transufse if still <25.
   -per Heme/Onc repeat smear today, add hapto, b12, thiamine, no need for
   BMbx today
   -cont. to follow H/O recs
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - No HAART at this time, per ID
   - F/u genotyping
   - ID following
Hypotension: patient off pressors, MAPs in 60's over night. No signs
   of poor perfusion. Good UOP, not tachycardic, warm ext.
   - Follow vitals
   - UOP > 30
   - IVF/levophed as needed
Tube Feeds: Pt had emesis of tube feeds. NG tube placed with residuals
   of 450cc. Increased Lipase today.
   - restart TF at trophic levels w/ nutrition recs
   - Restart tube feeds slowly
   - Aggressive bowel regimen - lactulose to [**12-11**] stools per day
   - Check residuals often
   -if persistently high residuals, consider TPN
Elevated Lipase: new bump in lipase o/n.  no propofol last 24 hrs.  ?
   gallstone vs medication.
   - RUQ u/s
   - review medlist
   - TF at trophic levels
Transaminitis: medications not likely cause, may be biliary sludging
   from critical illness. Serologies sent. LFTs today trending down.
   - Trend LFT's
   - Minimize tylenol - under 2g daily
 RENAL FAILURE BUN Cr currently normal. UOP adequate.
   - continue to trend Bun/cr and UOP
Hyponatremia: possible SIADH vs infusions vs other.  Currently normal.
   - follow daily lytes
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-7-22**] 04:40 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   20 Gauge - [**2196-7-18**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Comm with partner [**Name (NI) 1948**] and [**Name2 (NI) **] rin law Chip
   Code status: Full code
   Disposition:ICU

2196-07-23 07:07:00 Physician Resident Progress Note
Chief Complaint: 45M with recent diagnosis of HIV presents with PCP
   pneumonia, intubated
   24 Hour Events:
   ID interested in starting ART - concerned about fast GI transit time
   due to aggressive bowel regimen
   Dobhoff is no longer post-pyloric - IR suggested pulling back slack
   from tube and advancing ourselves on floor
   RUQ u/s - limited study without focal abnormality aside from mild
   gallbladder wall irregularity, which may represent HIV cholangiopathy.
   No son[**Name (NI) 351**] evidence for cholelithiasis
   Due to hct persistently below 25, he received 1U PRBC, w/ appropriate
   bump in HCT.
 ULTRASOUND - At [**2196-7-22**] 04:11 PM
   abdominal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-7-22**] 11:03 PM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-22**] 08:39 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-23**] 12:02 AM
   Methadone Hydrochloride - [**2196-7-23**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-23**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 114 (65 - 114) bpm
   BP: 147/84(105) {92/52(67) - 161/102(114)} mmHg
   RR: 26 (19 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 9 (3 - 9)mmHg
   Total In:
                                                                  4,053 mL
                                                                    263 mL
   PO:
   TF:
                                                                    228 mL
                                                                     67 mL
   IVF:
                                                                  3,415 mL
                                                                    196 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,370 mL
                                                                  1,550 mL
   Urine:
                                                                  3,365 mL
                                                                  1,510 mL
   NG:
                                                                      5 mL
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                    683 mL
                                                                 -1,287 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 92%
   ABG: 7.43/33/69/21/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   184 K/uL
   8.5 g/dL
   120 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.7 mEq/L
   15 mg/dL
   105 mEq/L
   134 mEq/L
   26.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2196-7-21**]  04:46 PM
                             [**2196-7-21**]  09:06 PM
                             [**2196-7-22**]  03:39 AM
                             [**2196-7-22**]  04:05 AM
                             [**2196-7-22**]  04:13 PM
                             [**2196-7-22**]  04:24 PM
                             [**2196-7-22**]  10:43 PM
                             [**2196-7-22**]  10:51 PM
                             [**2196-7-23**]  03:24 AM
                             [**2196-7-23**]  04:02 AM
   WBC
   13.6
   13.0
   Hct
   24.0
   23.5
   25.9
   26.1
   Plt
   163
   184
   Cr
   1.0
   0.9
   1.0
   TCO2
   24
   26
   26
   25
   25
   23
   Glucose
   155
   120
   Other labs: PT / PTT / INR:12.2/28.7/1.0, ALT / AST:84/78, Alk Phos / T
   Bili:164/0.2, Amylase / Lipase:84/379, Differential-Neuts:93.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L,
   Albumin:2.4 g/dL, LDH:353 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.3
   mg/dL
   Imaging: RUQ U/S - Limited study without focal abnormality aside from
   mild gallbladder wall irregularity, which may represent HIV
   cholangiopathy.
   No son[**Name (NI) 351**] evidence for cholelithiasis.
   Microbiology: Sputum - mod yeast, no growth on culture
   C. Diff - negative
   Blood culture - pending
   Myco bottle - pending
   Urine culture - no growth
   Mini BAL - yeast, pseudohyphae
   Assessment and Plan
   45M with recent diagnosis of HIV presents with PCP pneumonia, intubated
 HYPOXIC RESPIRATORY FAILURE: PCP [**Name Initial (PRE) 2443**]. ?other pulm infection
   cannot be ruled out. CT shows LLL consolidation not present on
   admission. BAL performed, results pending. Persistent ARDS physiology.
   Unable to wean vent settings significantly.
   - Bactrim - continue current dose
   - Prednisone - day [**4-12**] of 40mg daily, will start 20mg daily tomorrow
   - Continue AC settings, rate to 26, ARDSnet Vt
   - Wean as tolerated - follow with ABG, alter settings as needed
   - F/u BAL cx
   - Sedation- transitioning to methadone regimen, weaning of fentanyl.
   Per pharmacy's note.
   - Intubated day 12 , consider trach in future
Fevers: may be due to known PCP pneumonia vs other etiology, Pt got UA
   which was clean, urine cx and blood cx
   - F/u blood cx, urine cx, BAL cx, disseminated [**Doctor First Name **], Sputum cultures
   - Add antibiotics as appropriate
   - Tylenol under 2g daily due to transaminitis
   - ID following - slow down bowel motility - talk to ID about HAART
 ANEMIA, OTHER, Hct to 24 today from 25.  retic count 2.7.
   - check PM HCt, and transfuse if still <21
   - per Heme/Onc - no need for BMbx - peripherals consistent with HIV
   - f/u heme onc recs
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   - Considering HAART when we slow GI motility
   - Decrease bowel regimen
   - F/u genotyping
   - ID following
   - Stool crypto
Hypotension: patient off pressors, MAPs in 60's over night. No signs
   of poor perfusion. Good UOP, not tachycardic, warm ext.
   - Follow vitals
   - UOP > 30
   - IVF/levophed as needed
Tube Feeds: Pt had emesis of tube feeds. NG tube placed with residuals
   of 450cc. Increased Lipase today.
   - restart TF at trophic levels w/ nutrition recs
   - Restart tube feeds slowly
   - Check residuals often
   - if persistently high residuals, replace post pyloric tube in IR on
   Monday
Elevated Lipase: new bump in lipase o/n.  no propofol last 24 hrs.
   Likely secondary to medication
   - review medlist
   - TF at trophic levels
   - Trend lipase
Transaminitis: medications not likely cause, may be biliary sludging
   from critical illness. Serologies sent. LFTs today trending down.
   - Trend LFT's
   - Minimize tylenol - under 2g daily
   - Ask ID about HIV cholangiopathy
 RENAL FAILURE BUN Cr currently normal. UOP adequate.
   - continue to trend Bun/cr and UOP
Hyponatremia: possible SIADH vs infusions vs other.  Currently normal.
   - follow daily lytes
 ALTERATION IN NUTRITION
   - ID to make post pyloric on Monday
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-7-22**] 09:04 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   20 Gauge - [**2196-7-18**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2196-07-23 10:40:00 Physician Attending Progress Note
Chief Complaint: resp failure PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2196-7-22**] 04:11 PM
   abdominal
   Dophoff no longer post pyloric
   RUQ US could be c/w HIV cholangiopathy - no stones
   Given 1 unit PRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-7-22**] 11:03 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-22**] 08:39 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-23**] 08:00 AM
   Methadone Hydrochloride - [**2196-7-23**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-23**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 61 (61 - 114) bpm
   BP: 114/63(80) {92/62(80) - 161/102(114)} mmHg
   RR: 28 (19 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 9 (3 - 9)mmHg
   Total In:
                                                                  4,053 mL
                                                                    409 mL
   PO:
   TF:
                                                                    228 mL
                                                                    106 mL
   IVF:
                                                                  3,415 mL
                                                                    303 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,370 mL
                                                                  2,380 mL
   Urine:
                                                                  3,365 mL
                                                                  2,340 mL
   NG:
                                                                      5 mL
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                    683 mL
                                                                 -1,971 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 93%
   ABG: 7.43/33/69/21/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Gen: eyes open
   HEENT: ETT and ogt
   CV RR no audible murmurs
   Chest: fair air movement
   ABd: soft distended
   Ext:  edema
   Neuro: eyes open, moves a bit to voice
   Labs / Radiology
   8.5 g/dL
   184 K/uL
   120 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.7 mEq/L
   15 mg/dL
   105 mEq/L
   134 mEq/L
   26.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2196-7-21**]  04:46 PM
                             [**2196-7-21**]  09:06 PM
                             [**2196-7-22**]  03:39 AM
                             [**2196-7-22**]  04:05 AM
                             [**2196-7-22**]  04:13 PM
                             [**2196-7-22**]  04:24 PM
                             [**2196-7-22**]  10:43 PM
                             [**2196-7-22**]  10:51 PM
                             [**2196-7-23**]  03:24 AM
                             [**2196-7-23**]  04:02 AM
   WBC
   13.6
   13.0
   Hct
   24.0
   23.5
   25.9
   26.1
   Plt
   163
   184
   Cr
   1.0
   0.9
   1.0
   TCO2
   24
   26
   26
   25
   25
   23
   Glucose
   155
   120
   Other labs: PT / PTT / INR:12.2/28.7/1.0, ALT / AST:84/78, Alk Phos / T
   Bili:164/0.2, Amylase / Lipase:84/271, Differential-Neuts:93.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L,
   Albumin:2.4 g/dL, LDH:353 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   1.       Hypoxemic Resp failureein seeting of PJP: able to wean FIO2 to
   50% and PEEP to 12
 stable FIO2. Try to wean rate to 24-26 today and
   watch PaCo2.
   2.       HIV/AIDS: plan to start HARRT when lipase and diarrhea re
   better and genotype is back, appreciate ID following.
   3.       PJP: continue Bactrim, weaning steroids
   4.       Abnl LFTS/Lipase: US without acute choly - ? HIV
   cholangiopathy esp with lfts, propafol, trend lipase
   5.       Nutrition: post pyloric knotted, call IR to advance, if can
   get to work start PPN TPN
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:  Peptamen 1.5 (Full) - [**2196-7-22**] 09:04 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   20 Gauge - [**2196-7-18**] 08:00 PM
   Prophylaxis:
   DVT: boots/SC hep
   Stress ulcer: PPI
   VAP: chlorhex HOB
   Communication:    partner is HCP
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2196-07-24 07:03:00 Physician Resident Progress Note
Chief Complaint: 45M with recent diagnosis of HIV presents with PCP
   pneumonia, intubated
   24 Hour Events:
   PICC placed
   Tube feeds stopped - pre-pyloric, elevated lipase - unable to make
   post-pyloric until Monday
   Started TPN until tube feeds are tolerated - per nutrition's recs
   Started zyprexa for agitation
 PICC LINE - START [**2196-7-23**] 03:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-7-24**] 03:30 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2196-7-23**] 05:00 PM
   Pantoprazole (Protonix) - [**2196-7-23**] 08:16 PM
   Fentanyl - [**2196-7-23**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-24**] 12:00 AM
   Methadone Hydrochloride - [**2196-7-24**] 04:30 AM
   Midazolam (Versed) - [**2196-7-24**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-24**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 117 (61 - 134) bpm
   BP: 145/77(98) {100/54(69) - 145/85(103)} mmHg
   RR: 29 (24 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 9 (9 - 13)mmHg
   Total In:
                                                                  3,184 mL
                                                                    996 mL
   PO:
   TF:
                                                                    180 mL
   IVF:
                                                                  2,651 mL
                                                                    641 mL
   Blood products:
   Total out:
                                                                  4,125 mL
                                                                  1,840 mL
   Urine:
                                                                  4,025 mL
                                                                  1,710 mL
   NG:
                                                                    100 mL
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                   -941 mL
                                                                   -844 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.34/40/103/21/-3
   Ve: 8.9 L/min
   PaO2 / FiO2: 206
   Physical Examination
   sedated, responds to sound, not interactive
   coarse breath sounds bilateral on anterior exam, intubated
   RRR, without rubs, gallops or murmurs
   Obese, soft, nontender, nondistended abdomen, positive bowel sounds
   Ext warm
   Labs / Radiology
   170 K/uL
   8.0 g/dL
   145 mg/dL
   1.0 mg/dL
   21 mEq/L
   5.0 mEq/L
   18 mg/dL
   105 mEq/L
   133 mEq/L
   24.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2196-7-22**]  04:13 PM
                             [**2196-7-22**]  04:24 PM
                             [**2196-7-22**]  10:43 PM
                             [**2196-7-22**]  10:51 PM
                             [**2196-7-23**]  03:24 AM
                             [**2196-7-23**]  04:02 AM
                             [**2196-7-23**]  04:30 PM
                             [**2196-7-23**]  04:52 PM
                             [**2196-7-24**]  03:15 AM
                             [**2196-7-24**]  05:48 AM
   WBC
   13.0
   9.4
   Hct
   23.5
   25.9
   26.1
   27.5
   24.0
   Plt
   184
   170
   Cr
   0.9
   1.0
   1.0
   TCO2
   25
   25
   23
   24
   24
   23
   Glucose
   120
   145
   Other labs: PT / PTT / INR:12.2/28.7/1.0, ALT / AST:101/97, Alk Phos /
   T Bili:177/0.2, Amylase / Lipase:84/373, Differential-Neuts:93.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L,
   Albumin:2.4 g/dL, LDH:332 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.7
   mg/dL
   Microbiology: MICROSPORIDIA STAIN (Pending):
   FECAL CULTURE (Pending):
   CAMPYLOBACTER CULTURE (Pending):
   Cryptosporidium/Giardia (DFA) (Pending):
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Pending):
   OVA + PARASITES (Pending):
   Mycolytic Blood pending
   Blood culture pending
   Urine - no growth
   Sputum - fungal culture negative
   Assessment and Plan
   45M with recent diagnosis of HIV presents with PCP pneumonia, intubated
   .
 HYPOXIC RESPIRATORY FAILURE: PCP [**Name Initial (PRE) 2443**]. Other pulmonary infection
   cannot be ruled out, however at this time we have no cultures
   supporting another infection. CT shows new LLL consolidation since
   admission. BAL performed with nonrevealing results. Persistent ARDS
   physiology with difficulty weaning from vent. Intubated day 13. At
   ARDSnet goal for tidal volume.
   - Bactrim - continue current dose
   - Prednisone - start 20mg daily for duration of treatment
   - Continue AC settings
   - Wean as tolerated - follow with ABG, alter settings as needed
   - Sedation- transitioning to methadone regimen, weaning of fentanyl and
   midazolam, started on zyprexa
    .
Fevers: may be due to known PCP pneumonia vs other etiology, multiple
   cultures without other source apparent
   - f/u cultures - including blood, urine, BAL, stool, sputum, urine
   - add antibiotics as appropriate
   - keep tylenol under 2g daily due to transaminitis
   - ID following
   .
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) - recent diagnosis. Awaiting genotyping.
   - Add HAART once GI motility slowed, possibly Monday
   - Decreased bowel regimen
   - f/u genotyping
   - ID following
   .
 ANEMIA, OTHER, Hct to 24 today from 25.  retic count 2.7. Currently
   stable. Heme onc following, peripheral smears consistent with HIV, no
   bone marrow biopsy at this time.
   - check hct q12h, transfuse to > 21
    .
Elevated Lipase: Patient had increase in lipase overnight. Maybe be
   secondary to medication vs obstruction vs HIV cholangiopathy. U/S
   unrevealing. Has not had propofol overnight. Bactrim may be cause.
   - Stop tube feeds, TPN
   - Trend lipase
   - If continues to increase consider further imaging
   .
Transaminitis: medications not likely cause, may be biliary sludging
   from critical illness. Serologies sent, unrevealing. LFT's trending up
   today.
   - Trend LFT's
   - Minimize tylenol - under 2g daily
   - Consider further imaging
   .
   Nutrition: Pt had emesis of tube feeds. NG tube placed with residuals
   of 450cc. Increased Lipase today. Post pyloric tube now pre pyloric.
   Need to schedule IR to replace to post pyloric position on Monday.
   Starting TPN until tube feeds tolerated.
   - Day 2 of TPN today - need to write orders
   - IR to replace post pyloric tube on Monday
   - Restart tube feeds - once tolerating d/c TPN
   - Check residuals often
   .
Hypotension: patient off pressors, pressures normotensive overnight,
   no signs of poor perfusion, good urine output, not tachycardic, warm
   ext.
   - Follow vitals
   - UOP > 30
   - IVF/levophed as needed
   .
 RENAL FAILURE BUN Cr currently normal. UOP adequate.
   - continue to trend Bun/cr and UOP
   .
Hyponatremia: possible SIADH vs infusions vs other.  Currently normal.
   - follow daily lytes
   ICU Care
   Nutrition:
   TPN without Lipids - [**2196-7-23**] 05:30 PM 42 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   PICC Line - [**2196-7-23**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2196-07-24 09:32:00 Physician Attending Progress Note
Chief Complaint: resp failure with PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2196-7-23**] 03:00 PM
   Dropped rate ob vent and tolerated well, in fact better Pa02
   TPN started as dophiff knotted
   More awake but then delirous last night Zyprexa to good effect
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-7-24**] 03:30 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2196-7-23**] 05:00 PM
   Fentanyl - [**2196-7-23**] 09:30 PM
   Midazolam (Versed) - [**2196-7-24**] 06:15 AM
   Pantoprazole (Protonix) - [**2196-7-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-24**] 08:00 AM
   Methadone Hydrochloride - [**2196-7-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-24**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 69 (61 - 134) bpm
   BP: 123/68(86) {100/54(69) - 145/85(103)} mmHg
   RR: 24 (23 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 9 (9 - 13)mmHg
   Total In:
                                                                  3,184 mL
                                                                  1,225 mL
   PO:
   TF:
                                                                    180 mL
   IVF:
                                                                  2,651 mL
                                                                    707 mL
   Blood products:
   Total out:
                                                                  4,125 mL
                                                                  3,000 mL
   Urine:
                                                                  4,025 mL
                                                                  2,870 mL
   NG:
                                                                    100 mL
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                   -941 mL
                                                                 -1,775 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.34/40/103/21/-3
   Ve: 13.5 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Gen: eyes open
   HEENT: ETT and ogt
   CV RR no audible murmurs
   Chest: fair air movement
   ABd: soft distended
   Ext:  edemaknodding to ?
   Labs / Radiology
   8.0 g/dL
   170 K/uL
   145 mg/dL
   1.0 mg/dL
   21 mEq/L
   5.0 mEq/L
   18 mg/dL
   105 mEq/L
   133 mEq/L
   24.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2196-7-22**]  04:13 PM
                             [**2196-7-22**]  04:24 PM
                             [**2196-7-22**]  10:43 PM
                             [**2196-7-22**]  10:51 PM
                             [**2196-7-23**]  03:24 AM
                             [**2196-7-23**]  04:02 AM
                             [**2196-7-23**]  04:30 PM
                             [**2196-7-23**]  04:52 PM
                             [**2196-7-24**]  03:15 AM
                             [**2196-7-24**]  05:48 AM
   WBC
   13.0
   9.4
   Hct
   23.5
   25.9
   26.1
   27.5
   24.0
   Plt
   184
   170
   Cr
   0.9
   1.0
   1.0
   TCO2
   25
   25
   23
   24
   24
   23
   Glucose
   120
   145
   Other labs: PT / PTT / INR:12.2/28.7/1.0, ALT / AST:101/97, Alk Phos /
   T Bili:177/0.2, Amylase / Lipase:84/373, Differential-Neuts:93.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L,
   Albumin:2.4 g/dL, LDH:332 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   1.       Hypxoemic Resp Failure: wean PEEP to 10 and reassess
   oxygenation, he may be able to switch to PSV soon.
   2.       PCP [**Name Initial (PRE) **]: wean steroids to 20 QD, ongoing Bactrim watch K
   3.       HIV: hope to add HAART, awaiting genotype, needs to improve GI
   motility and hope for a down trending lipase before we start
   4.       Anemia: watching, plan to Tx for less than 21 -
   5.       Lipase: trend is about stable
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: TPN without Lipids - [**2196-7-23**] 05:30 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   PICC Line - [**2196-7-23**] 03:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication: with partner
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 45

2196-07-25 07:45:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 9162**] is a 45 year old male with history of
   hypertension and [**Hospital 9163**] transferred from the floor for PCP and ARDS.
   Intubated [**7-11**].
   24 Hour Events:
 PAN CULTURE - At [**2196-7-24**] 04:29 PM
   blood cultures from PICC, urine and sputum
 PICC LINE - STOP [**2196-7-24**] 06:48 PM
 BLOOD CULTURED - At [**2196-7-24**] 08:00 PM
 SPUTUM CULTURE - At [**2196-7-24**] 10:00 PM
 SPUTUM CULTURE - At [**2196-7-25**] 03:30 AM
 FEVER - 104.0
F - [**2196-7-24**] 05:00 PM
   Became hypertensive to 250s systolic,tachycardic to 160s, transitioned
   from pressure support to AC , hydral without effect, labetalol bolus
   then labetalol drip with normalization of bp.
   Labetolol off* levophed off* Versed on. * Spiked temp to 104, became
   hypoxic, was pan cultured, tylenol, cooling blanket, ID consulted, and
   put on FI02 100%. PICC pulled.
   GotHead, chest, abdominal and pelvic CT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-24**] 09:00 PM
   Cefipime - [**2196-7-25**] 03:30 AM
   Ciprofloxacin - [**2196-7-25**] 04:15 AM
   Bactrim (SMX/TMP) - [**2196-7-25**] 04:16 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Hydralazine - [**2196-7-24**] 02:41 PM
   Labetalol - [**2196-7-24**] 03:35 PM
   Diltiazem - [**2196-7-24**] 04:37 PM
   Pantoprazole (Protonix) - [**2196-7-24**] 08:17 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-25**] 12:00 AM
   Midazolam (Versed) - [**2196-7-25**] 01:59 AM
   Methadone Hydrochloride - [**2196-7-25**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-25**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40
C (104
   Tcurrent: 37.1
C (98.7
   HR: 82 (69 - 161) bpm
   BP: 94/53(66) {90/46(60) - 236/129(163)} mmHg
   RR: 24 (20 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,710 mL
                                                                  4,156 mL
   PO:
             TF:
   IVF:
                                                                  2,733 mL
                                                                  4,096 mL
   Blood products:
   Total out:
                                                                  6,285 mL
                                                                  1,175 mL
   Urine:
                                                                  6,155 mL
                                                                  1,175 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,575 mL
                                                                  2,981 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 760) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 93%
   ABG: 7.35/37/75/20/-4
   Ve: 11.1 L/min
   PaO2 / FiO2: 94
   Physical Examination
   Cardiovascular: sedated, intubated
   RRR
   mid inspiratory crackles
   abd benign
    warm extremities
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   166 K/uL
   8.5 g/dL
   88 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   13 mg/dL
   106 mEq/L
   133 mEq/L
   25.4 %
   17.5 K/uL
        [image002.jpg]
                             [**2196-7-23**]  04:52 PM
                             [**2196-7-24**]  03:15 AM
                             [**2196-7-24**]  05:48 AM
                             [**2196-7-24**]  02:32 PM
                             [**2196-7-24**]  04:55 PM
                             [**2196-7-24**]  05:27 PM
                             [**2196-7-24**]  08:29 PM
                             [**2196-7-25**]  12:03 AM
                             [**2196-7-25**]  03:50 AM
                             [**2196-7-25**]  03:57 AM
   WBC
   9.4
   17.5
   17.5
   Hct
   24.0
   30.8
   28
   25.4
   Plt
   170
   201
   166
   Cr
   1.0
   1.0
   0.9
   TCO2
   24
   24
   23
   21
   20
   23
   22
   21
   Glucose
   145
   105
   88
   Other labs: PT / PTT / INR:13.0/34.0/1.1, ALT / AST:105/106, Alk Phos /
   T Bili:176/0.3, Amylase / Lipase:84/361, Differential-Neuts:84.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.4 g/dL, LDH:407 IU/L, Ca++:8.1 mg/dL, Mg++:1.4 mg/dL, PO4:4.3
   mg/dL
   Imaging: Liver/gall bladder US:
   note
   is made of irregularity of the wall, particularly at the level of the
   fundus
   which may represent HIV cholangiopathy
   CXR read from 16th. One ordered for 17th.
   There is a left-sided central venous catheter with the distal lead tip
   in the
   distal SVC. Right IJ catheter, endotracheal tube, nasogastric tube, and
   Dobbhoff tube are again visualized and unchanged in position. There is
   again
   noted diffuse airspace opacities bilaterally which are stable. Overall,
   there
   has been no significant change.
   Microbiology: Blood cultures pending x3, urine cx, sputum cx
   invalidated by presence oropharyngeal secretions. Per nursing sputum
   darker.
   added cefepime, clinda to abx regimen (already on vanc).
   Added olanzopine for
   cdiff -negative
   Microbiology: MICROSPORIDIA STAIN (Pending):
   FECAL CULTURE (Pending):
   CAMPYLOBACTER CULTURE (Pending):
   Cryptosporidium/Giardia (DFA) (Pending):
   OVA + PARASITES (Pending):
   Mycolytic Blood pending
   Blood culture pending
   Urine - no growth
   Sputum - fungal culture negative
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   Assessment and Plan
   Mr. [**Known lastname 9162**] is a 45 year old male with history of hypertension and [**Hospital 9163**]
   transferred from the floor for PCP and ARDS.
   .
    HYPOXIC RESPIRATORY FAILURE: Secondary to PCP [**Name Initial (PRE) 2443**] ->ARDS. Repeat
   Chest CT shows worse compared to CT of *
   Currently day 16 bactrim (dosing 500mg IV Q6H). Q? treatment failure on
   bactrim, worsening of PCP vs fibrotic stage of ARDS, vs VAP.
   No cultures supporting another infection to date although sputum
   cultures have mostly been read as invalid due to excessive oral
   secretions. Nursing, respiratory noted y/d change in
   secretions,thicker,blood tinged and given leukocytosis and fevers, and
   hypoxia,  reasonable to cover empirically for VAP. Vanc day 3 cefepime,
   cipro day 1.
   Currently has 2 sputum Cx pending.
   Bronchoscopy to obtain sample for culture, any obstruction, do they
   look at histology - stage ards, does it matter?
   wrt ? is this treatment failure if so what is appropriate second line
   regimen (primaquine and )and response to it is complicated by
   outstanding genotype, delaying at this point initiation of HAART.
   I.D has recommended darunavir (protease inhibitor: toxicities
   dyslipidemia, some hepatotoxicity, hyperglycemia).
   Also currently tapering his prednisone, Prednisone - Day 3 of 20mg
   daily for duration of treatment. No evidence to suggest utility of high
   dose steroids in severe PCP beyond acute presentation, and if he really
   has a VAP potential for harm.
   ARDS: Ventilated since 3rd, Pa02/Fi02 <200. at worst was at PEEP 20
   FI02 100%.
   Currently  tidal volume 400, RR: 24, PEEP 18, FI02 80
   wih abg 7.35/37/75/21 and normalization of lactate at 1.0 from high 2.1
   y/d.
   Also significant anxiety component to his hypoxia, currently getting
   midaz, methadone daily, and olanzapine.
   - Wean as tolerated - follow with ABG, alter settings as needed
   -Had derecruitment on psupport so to rerecruit and get participation.
   Alkalosis: Bicarb of 20, overbreathing him on vent with RR 24.
   Respiratory alkalosis compensating by dropping bicarb, PCO2 also low.
   Change vent settings? Since we are breathing for him, give Na Bicarb.
    from his few worthwhile alveoli, so back on assist, had to go back up
   on FI02 and then increase PEEP to get more lung involved in
   oxygenation, blood gas improved. now can back off.
   [**Month (only) 51**] be that he had derecruitment when we put him on pressure support,
   improved back on AC with PEEP but risk for further lung injury from 02
   radicals at high FI02, barotrauma from high PEEP, needed it acutely but
   should wean as tolerated.
   Hypertensive emergency:
   becamehypertensive to 250s.
   EKG this am.
   - Sedation- On methadone regimen, zyprexa for anxiety weaned of
   fentanyl and versed initially, became hypertensive with bp's to 240s
   systolic, MAPS to 140, HRs to 160s, got 10 of hydral with effect? *
   .
   Hypertension:
   Became hypertensive to 250s systolic,tachycardic to 160s, transitioned
   from pressure support , hydral without effect, labetalol bolus then
   labetalol drip with normalization of bp. Spiked temp to 104, became
   hypoxic, was pan cultured and put on FI02 100%.
   GotHead, chest, abdominal and pelvic CT.
   Underlying HTN, also in setting of backing off sedation, associated
   anxiety. Pt had been hypertensive in setting sepsis, home
   antihypertensives held *
   Continue to monitor bps.
   levophed for MAPs <60, Hydral/labetolol for Bps >250 systolic.
   Fevers: Afebrile currently, defervescing with tylenol .Etiologies
   discussed,
   - f/u cultures - including blood, urine, BAL, stool, sputum, urine
   - add antibiotics as appropriate
   - keep tylenol under 2g daily due to transaminitis
   &#9658; HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) - recent diagnosis. Awaiting genotyping.
   but require reliable gut absorption. Fact that tube feeds being held,
   lipase,lftS increased + no genotype yet complicates things esp since
   considering darunavir which can cause liver toxicity. Want downtrending
   LFTs before starting.
   - Add HAART once GI motility slowed, possibly Monday
   - Decreased bowel regimen
   - f/u genotyping
   - ID following
   Transamintis/pancreatitis
   AST/ALTs continuing to trend up slowly as does lipase ? drug toxicity
   Possibly secondary to bactrim vs obstruction vs ?HIV cholangiopathy on
   US, no propofol for several days. medications not likely cause, may be
   biliary sludging from critical illness. Serologies sent, unrevealing.
   LFT's trending up today.
   (Typical pattern AST, ALTL Bili inc, LDH>800). No propofol for several
   days. No findings of abd/pelvic CT revealing. CMV, HepC negative,
   Bactrim may be cause.
   - Holding tube feeds, TPN. Problem[**Name (NI) 595**] for starting HAART toxicity.
   Tentative plan to IR to advance dop off to post pyloric position.
   - Trend lipase
   - keeping tylenol to <2g/day.
   &#9658; ANEMIA, OTHER, Hct to 24 today from 25.  retic count 2.7.
   Currently stable. Heme onc following, peripheral smears consistent with
   HIV.STRESS, also phlebotomy, nutrition suboptimal. no bone marrow
   biopsy at this time.HCT 25 from 30.8 been hovering around 25.
   - check hct q12h, transfuse to > 21.
    .
   .
   Nutrition: Pt had emesis of tube feeds. NG tube placed with residuals
   of 450cc. Increased Lipase today. Post pyloric tube now pre pyloric.
   Has had emesis of tube feeds, high residuals to 450s.  Need to schedule
   IR to replace to post pyloric position on Monday. Starting TPN until
   tube feeds tolerated.
   - Day 2 of TPN today - need to write orders
   - IR to replace post pyloric tube on Monday
   - Restart tube feeds - once tolerating d/c TPN
   - Check residuals often
   .
   &#9658;Hypotension: Likely related to Sepsis/SIRS. patient off
   pressors, pressures normo to hypertensive since [**7-24**] *. , no signs of
   poor perfusion, good urine output, not tachycardic, warm ext.
   - Follow vitals
   - UOP > 30*
   - IVF/levophed as needed
   .
   &#9658; RENAL FAILURE BUN Cr currently normal. UOP adequate *.
   Autodiuresing.
   - continue to trend Bun/cr and UOP
   .
   &#9658;Hyponatremia: possible SIADH vs infusions vs other.  Currently
   normal.
   - follow daily lytes
   ICU Care
   Nutrition:
   Comments: TPN -held
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Comments: dopoff
   NGT
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now

2196-07-25 08:47:00 Physician Attending Progress Note
Chief Complaint: resp failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2196-7-24**] 04:29 PM
   blood cultures from PICC, urine and sputum
 PICC LINE - STOP [**2196-7-24**] 06:48 PM
 BLOOD CULTURED - At [**2196-7-24**] 08:00 PM
 SPUTUM CULTURE - At [**2196-7-24**] 10:00 PM
 SPUTUM CULTURE - At [**2196-7-25**] 03:30 AM
 FEVER - 104.0
F - [**2196-7-24**] 05:00 PM
   Started Vanco/Cefipime, Cipro
   Torso CT shows sig worsening of parenchymal lung disease
 esp in RUL
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-24**] 09:00 PM
   Cefipime - [**2196-7-25**] 03:30 AM
   Ciprofloxacin - [**2196-7-25**] 04:15 AM
   Bactrim (SMX/TMP) - [**2196-7-25**] 04:16 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Hydralazine - [**2196-7-24**] 02:41 PM
   Labetalol - [**2196-7-24**] 03:35 PM
   Diltiazem - [**2196-7-24**] 04:37 PM
   Pantoprazole (Protonix) - [**2196-7-24**] 08:17 PM
   Midazolam (Versed) - [**2196-7-25**] 01:59 AM
   Methadone Hydrochloride - [**2196-7-25**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2196-7-25**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40
C (104
   Tcurrent: 36.3
C (97.3
   HR: 77 (69 - 161) bpm
   BP: 115/57(76) {90/46(60) - 236/129(163)} mmHg
   RR: 23 (20 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  3,710 mL
                                                                  4,783 mL
   PO:
   TF:
   IVF:
                                                                  2,733 mL
                                                                  4,723 mL
   Blood products:
   Total out:
                                                                  6,285 mL
                                                                  1,555 mL
   Urine:
                                                                  6,155 mL
                                                                  1,555 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,575 mL
                                                                  3,228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 760) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 38 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.33/40/118/20/-4
   Ve: 10.7 L/min
   PaO2 / FiO2: 169
   Physical Examination
   Gen: eyes open
   HEENT: ETT and ogt
   CV RR no audible murmurs
   Chest: fair air movement
   ABd: soft distended
   Ext:  edema worse pver left arm and hand
   Neuro: nodding to ? even though on high sedation
   Labs / Radiology
   8.5 g/dL
   166 K/uL
   88 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   13 mg/dL
   106 mEq/L
   133 mEq/L
   25.4 %
   17.5 K/uL
        [image002.jpg]
                             [**2196-7-24**]  03:15 AM
                             [**2196-7-24**]  05:48 AM
                             [**2196-7-24**]  02:32 PM
                             [**2196-7-24**]  04:55 PM
                             [**2196-7-24**]  05:27 PM
                             [**2196-7-24**]  08:29 PM
                             [**2196-7-25**]  12:03 AM
                             [**2196-7-25**]  03:50 AM
                             [**2196-7-25**]  03:57 AM
                             [**2196-7-25**]  08:05 AM
   WBC
   9.4
   17.5
   17.5
   Hct
   24.0
   30.8
   28
   25.4
   Plt
   170
   201
   166
   Cr
   1.0
   1.0
   0.9
   TCO2
   24
   23
   21
   20
   23
   22
   21
   22
   Glucose
   145
   105
   88
   Other labs: PT / PTT / INR:13.0/34.0/1.1, ALT / AST:105/106, Alk Phos /
   T Bili:176/0.3, Amylase / Lipase:84/361, Differential-Neuts:84.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.4 g/dL, LDH:407 IU/L, Ca++:8.1 mg/dL, Mg++:1.4 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   1.       Hypxoemic Resp Failure: dramatic turn for the worse in setting
   of high fevers HTN tachy back on AC 400 x 24 0.7 and PEEP 18. we will
   try to wean PEEP and FIO2. Consider replace esophageal ballon to help
   guide settings. Add coverage for VAP- send ETT suction may bronch later
   if settings on vent stabalize. Could also be a component of pulm edema
   after HTN and tachy and trying to keep negative.
   2.       PCP [**Name Initial (PRE) **]: wean steroids to 20 QD, ongoing Bactrim watch K.
   question of whether downward spiral could be PCP treatment failure but
   acuity makes it seem less likely and VAP or bac infection more likely.
   3.       Hypotension: was HTN and then hypo transiently last night in
   setting of volume shifts high fevers and sedation
 now holding MAPS-
   but onhigh PEEP
 hope to wean PEEP and see if that imprpves BPs
   would not give more than 2-3 liters and will support with vasopressor
   as needed.
   4.       HIV: hope to add HAART, awaiting genotype, needs to improve GI
   motility and hope for a down trending lipase before we start
   5.       Fevers: VAP, pan cx, abd CT without acute changes but trend
   LFTs as he is at risk for acalc choly so will re US tomm if rising ,
   will resite IJ
   6.       Nutrition: needs Dopphoff replaced today
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: start TF via Dophoff when obtained
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   VAP: HOB chlorhex, on Rx for VAP
   Communication:  with patient as able and also partner
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2196-07-26 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2196-7-25**] 10:00 AM
 BLOOD CULTURED - At [**2196-7-25**] 09:17 PM
   BC x 2 from CVL and aline
 FEVER - 101.3
F - [**2196-7-25**] 09:00 PM
   Attempted new line placement due to fever yesterday - left IJ attempted
   without success.  Post-procedure CXR showed no evidence of
   pneumothorax.  R IJ line left in place for now.  CT read shows Dobhoff
   in place, but had episode of vomiting after attempted line placement,
   so kept NPO today.  Will revisit issue of nutrition tomorrow.
   Spiked temperature of 100.6 in PM, Tylenol given, then increased temp
   to 101.3 - blood cultures sent.
   Esophageal balloon catheter placed.
   Continued to have elevated plateau pressures, dysynchronous with vent.
   Sedation increased to improve ventilation pressures.  Unable to wean
   vent settings lower than PEEP 18, FiO2 70%.
   Overnight BP dropped slightly - MAPs in low 60's given 500 cc bolus,
   then dipping into high 50's briefly.  Low-dose Levophed started @ 2300,
   maintaining MAP in mid 60's, with good UOP.
   Sputum cx [**7-25**] (preliminary)
 budding yeast with pseudohyphae
   Blood cx [**7-24**] & [**7-25**]
 pending
   Urine cx [**7-24**]
 no growth, final
   [**7-23**]
 stool cultures negative, O&P pending still
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-25**] 08:01 PM
   Cefipime - [**2196-7-26**] 12:12 AM
   Ciprofloxacin - [**2196-7-26**] 03:28 AM
   Bactrim (SMX/TMP) - [**2196-7-26**] 04:38 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Fentanyl - [**2196-7-25**] 12:50 PM
   Midazolam (Versed) - [**2196-7-25**] 01:08 PM
   Pantoprazole (Protonix) - [**2196-7-25**] 08:02 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-26**] 12:13 AM
   Methadone Hydrochloride - [**2196-7-26**] 04:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-26**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100
   HR: 79 (71 - 99) bpm
   BP: 118/64(82) {89/48(61) - 118/64(82)} mmHg
   RR: 19 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 15 (11 - 16)mmHg
   CO/CI (Fick): (8.4 L/min) / (4.1 L/min/m2)
   Mixed Venous O2% Sat: 69 - 69
   Total In:
                                                                  8,909 mL
                                                                  1,116 mL
   PO:
   TF:
   IVF:
                                                                  8,729 mL
                                                                  1,086 mL
   Blood products:
   Total out:
                                                                  3,940 mL
                                                                  1,390 mL
   Urine:
                                                                  3,820 mL
                                                                  1,390 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                  4,969 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 32 cmH2O
   SpO2: 95%
   ABG: 7.30/40/99.[**Numeric Identifier 508**]/19/-5
   Ve: 8.5 L/min
   PaO2 / FiO2: 167
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   8.3 g/dL
   94 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.6 mEq/L
   10 mg/dL
   107 mEq/L
   135 mEq/L
   25.0 %
   26.2 K/uL
        [image002.jpg]
                             [**2196-7-24**]  08:29 PM
                             [**2196-7-25**]  12:03 AM
                             [**2196-7-25**]  03:50 AM
                             [**2196-7-25**]  03:57 AM
                             [**2196-7-25**]  08:05 AM
                             [**2196-7-25**]  09:42 AM
                             [**2196-7-25**]  03:48 PM
                             [**2196-7-25**]  04:00 PM
                             [**2196-7-25**]  06:43 PM
                             [**2196-7-26**]  03:17 AM
   WBC
   17.5
   26.2
   Hct
   28
   25.4
   26.0
   25.0
   Plt
   166
   183
   Cr
   0.9
   0.9
   TCO2
   23
   22
   21
   22
   22
   22
   22
   20
   Glucose
   88
   94
   Other labs: PT / PTT / INR:13.4/34.3/1.1, ALT / AST:96/86, Alk Phos / T
   Bili:181/0.4, Amylase / Lipase:84/336, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.2 g/dL, LDH:406 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   Mr. [**Known lastname 9162**] is a 45 year old male with history of hypertension and [**Hospital 9163**]
   transferred from the floor for PCP and ARDS.
    HYPOXIC RESPIRATORY FAILURE: Secondary to PCP [**Name Initial (PRE) 2443**] ->ARDS, now
   with likely superimposed PNA.  Repeat Chest CT on [**7-25**] showed worse
   compared to prior. Currently day 17 bactrim (dosing 500mg IV Q6H).
   Vancomycin day 4, cefepime/cipro day 2.  Had been treating empirically
   until now given fevers, leukocytosis, hypoxia, change in secrections,
   with previously invalid sputum cultures, no other positive culture
   data.  Now sputum cultures showing yeast.
   Unable to wean vent settings significantly
 FiO2 from 70 yesterday to
   60 this morning.  Have been avoiding bronch due to concerns with
   derecruitment in the setting of high PEEP requirements.  However, will
   consider bronch when possible in order to get further data for
   treatment, and to investigate possible intermittent obstruction of ET
   tube.  RT and nursing expressing concern for occasional difficulty
   passing suction catheter.
   I.D has recommended darunavir (protease inhibitor: toxicities
   dyslipidemia, some hepatotoxicity, hyperglycemia) if reliable GI
   motility/ med absorption.
   Also currently tapering his prednisone, Prednisone - Day 4 of 20mg
   daily for duration of treatment. No evidence to suggest utility of high
   dose steroids in severe PCP beyond acute presentation, and could do
   more harm in setting of VAP.
   Currently  tidal volume 400, RR: 24, PEEP 18, FI02 60
   Most recent abg 7.30/43/114/ 22
   Also significant anxiety component to his hypoxia, sedation was
   increased significantly during the day yesterday.
   - Continue to wean very carefully as tolerated - follow with ABG, alter
   settings as needed.  Will be cautious with lowering PEEP, as he is
   likely at risk for derecruitment.
   -Repeat CXR today
   Labile BP:
   Had previously been hypertensive to 250s, underlying HTN, also in
   setting of backing off sedation, associated anxiety, no CNS pathology
   noted on wet read Head CT.
    Hypotensive overnight, possibly related to sepsis/sedative meds.
   Mildly responsive to fluids, but requiring low-dose levophed overnight
 levophed discontinued this morning.
   Cautious use of fluids for low bps, continue levophed for MAPs <60.
   Also reducing sedation doses, which will likely also help with
   hypotension.
   Urine lytes checked yesterday
 FeNa 3.  Creatinine WNL, good UOP.
   Unclear etiology at this point.
   .
   Fevers: Spiked fever again last night, worsening leukocytosis on am
   labs - blood cultures sent.
   -continuing to treat with broad spectrum antibiotics
   -ID following
 recommend mini BAL today.  Will consider mini BAL later
   today if PEEP requirements reduced, feel safe that he will tolerate the
   procedure.
   - keep tylenol under 2g daily due to transaminitis
   -send C. diff today
   HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY SYNDROME,
   AIDS) - recent diagnosis. Awaiting genotyping. Darunavir/truvada
   recommended by I.D but initiation complicated by pending genotype, poor
   gut motility with ? effective med absorption + transaminitis.  ID
   following.  Recommend continuing to hold on initiating HAART therapy
   for now.
   Transamintis/pancreatitis
   AST/ALTs continuing to trend up slowly as does lipase
   ? drug toxicity (bactrim) vs obstruction vs ?HIV cholangiopathy on US,
   vs acalculus cholecystitis.
   RUQ US showed just sludging, consider perc drainage if no Improvement.
   Continue to trend LFTs, lipase, limit Tylenol to 2g.day.
   Nutrition:
   Tube feeds held for past 2 days, due initially to vomiting and concern
   for pancreatitis, yesterday for vomiting.
   Dopoff now in place, verified by CT.   Will restart tube feeds today
   slowly.
    ANEMIA,:. Heme onc following, peripheral smears consistent with HIV.
   STRESS, also phlebotomy, nutrition suboptimal. no bone marrow biopsy at
   this time. HCT 25 today  from 30.8, has  been hovering around 25.
   - check hct q12h, transfuse to > 21.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2196-07-26 08:38:00 Physician Attending Progress Note
Chief Complaint: ARDS, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2196-7-25**] 10:00 AM
 BLOOD CULTURED - At [**2196-7-25**] 09:17 PM
   BC x 2 from CVL and aline
 FEVER - 101.3
F - [**2196-7-25**] 09:00 PM
   started on low dose Levophed last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-25**] 08:01 PM
   Cefipime - [**2196-7-26**] 12:12 AM
   Ciprofloxacin - [**2196-7-26**] 03:28 AM
   Bactrim (SMX/TMP) - [**2196-7-26**] 08:14 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2196-7-25**] 12:50 PM
   Midazolam (Versed) - [**2196-7-25**] 01:08 PM
   Pantoprazole (Protonix) - [**2196-7-25**] 08:02 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-26**] 08:00 AM
   Methadone Hydrochloride - [**2196-7-26**] 08:00 AM
   Other medications:
   Solumedrol Zyprexa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2196-7-26**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.6
C (97.9
   HR: 74 (71 - 99) bpm
   BP: 98/54(69) {89/48(61) - 118/64(82)} mmHg
   RR: 26 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 15 (12 - 16)mmHg
   CO/CI (Fick): (8.4 L/min) / (4.1 L/min/m2)
   Mixed Venous O2% Sat: 69 - 69
   Total In:
                                                                  8,909 mL
                                                                  1,825 mL
   PO:
   TF:
   IVF:
                                                                  8,729 mL
                                                                  1,725 mL
   Blood products:
   Total out:
                                                                  3,940 mL
                                                                  2,340 mL
   Urine:
                                                                  3,820 mL
                                                                  2,340 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                  4,969 mL
                                                                   -515 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 32 cmH2O
   SpO2: 96%
   ABG: 7.30/43/114/19/-4
   Ve: 8.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Gen: sedated,
   HEENT: ETT and NGT
   CV RR no audible murmurs
   Chest: fair air movement -
   ABd: soft distended hypoactive BS
   Ext:  edema worse over left arm and hand
   Neuro: eyes open, tracking no consistently folllwing commands but
   respinds to voice
   Labs / Radiology
   8.3 g/dL
   183 K/uL
   94 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.6 mEq/L
   10 mg/dL
   107 mEq/L
   135 mEq/L
   25.0 %
   26.2 K/uL
        [image002.jpg]
                             [**2196-7-25**]  12:03 AM
                             [**2196-7-25**]  03:50 AM
                             [**2196-7-25**]  03:57 AM
                             [**2196-7-25**]  08:05 AM
                             [**2196-7-25**]  09:42 AM
                             [**2196-7-25**]  03:48 PM
                             [**2196-7-25**]  04:00 PM
                             [**2196-7-25**]  06:43 PM
                             [**2196-7-26**]  03:17 AM
                             [**2196-7-26**]  05:42 AM
   WBC
   17.5
   26.2
   Hct
   28
   25.4
   26.0
   25.0
   Plt
   166
   183
   Cr
   0.9
   0.9
   TCO2
   22
   21
   22
   22
   22
   22
   20
   22
   Glucose
   88
   94
   Other labs: PT / PTT / INR:13.4/34.3/1.1, ALT / AST:96/86, Alk Phos / T
   Bili:181/0.4, Amylase / Lipase:84/336, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.2 g/dL, LDH:406 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.2
   mg/dL
   CXR: diffuse bilat interstitial infiltrates
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   1.       Hypxoemic Resp Failure: dramatic turn for the worse in setting
   of high fevers HTN tachy on Sunday with some improvement overnight.  AC
   400 x 24 0.7 and PEEP 18. we will try to wean PEEP and FIO2. Replace
   esophageal ballon to help guide settings but it has been difficult to
   get him completely passive on the vent for good numbers- best est is
   PEEP 16 optimal. Added coverage for VAP- may bronch later if settings
   on vent stabalize. Could also be a component of pulm edema after HTN
   and tachy and trying to keep negative.
   2.       PCP [**Name Initial (PRE) **]: wean steroids to 20 QD, ongoing Bactrim watch K.
   question of whether downward spiral could be PCP treatment failure but
   acuity makes it seem less likely and VAP or bac infection more likely.
   3.       Hypotension: seems related to sedation and autoPEEPing. We
   will try to wean levophed as bale today.
   4.       HIV: hope to add HAART, awaiting genotype, needs to improve GI
   motility and hope for a down trending lipase before we start
   5.       Fevers: VAP, pan cx, abd CT without acute changes but trend
   LFTs as he is at risk for acalc choly so will re US tomm if rising ,
   6.       Nutrition: restart tube feeds today and advance as tolerated.
   ICU Care
   Nutrition: restart Peptamen
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with pt and proxy [**Name (NI) 1948**]
   [**Last Name (NamePattern1) 36**] status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2196-07-27 07:05:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 9162**] is a 45 year old male with history of
   hypertension and [**Hospital 9163**] transferred from the floor for hypoxia and
   initiation of therapy for PCP.
   24 Hour Events:
 STOOL CULTURE - At [**2196-7-26**] 12:45 PM
   Tolerated vent wean from PEEP 18 to 16, FiO2 60% to 50%, stable lactate
   and ABG.
   Interval increase in difficulty passing suction catheter through ET
   tube since yesterday.
   Fentanyl D/c
d, Versed increased from 5 to 10 mg/hr due to agitation.
   BP stable, off pressors .
   CXR essentially unchanged - ?improvement.
   C.diff negative.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-26**] 08:00 PM
   Cefipime - [**2196-7-27**] 12:00 AM
   Bactrim (SMX/TMP) - [**2196-7-27**] 03:54 AM
   Ciprofloxacin - [**2196-7-27**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-26**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-27**] 12:00 AM
   Methadone Hydrochloride - [**2196-7-27**] 03:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-27**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 84 (70 - 100) bpm
   BP: 110/59(78) {93/53(67) - 152/78(101)} mmHg
   RR: 17 (17 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  4,498 mL
                                                                  1,098 mL
   PO:
   TF:
                                                                    150 mL
                                                                    134 mL
   IVF:
                                                                  4,108 mL
                                                                    944 mL
   Blood products:
   Total out:
                                                                  5,090 mL
                                                                  2,140 mL
   Urine:
                                                                  5,090 mL
                                                                  2,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -592 mL
                                                                 -1,042 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 34 cmH2O
   SpO2: 94%
   ABG: 7.37/36/81.[**Numeric Identifier 218**]/23/-3
   Ve: 10.8 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Cardiovascular: (Murmur: Diastolic), Sedated, intubated
   RRR, no MRG, S1S2 clear
   mid inspiratory crackles bilaterally through anterior chest
   Abd: continued hypoechoic bowel sounds, soft, nt, nd, no masses,
   ext: WWP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   7.8 g/dL
   126 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   9 mg/dL
   108 mEq/L
   135 mEq/L
   23.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2196-7-25**]  09:42 AM
                             [**2196-7-25**]  03:48 PM
                             [**2196-7-25**]  04:00 PM
                             [**2196-7-25**]  06:43 PM
                             [**2196-7-26**]  03:17 AM
                             [**2196-7-26**]  05:42 AM
                             [**2196-7-26**]  12:56 PM
                             [**2196-7-26**]  06:41 PM
                             [**2196-7-27**]  02:52 AM
                             [**2196-7-27**]  03:15 AM
   WBC
   26.2
   11.4
   Hct
   26.0
   25.0
   23.8
   Plt
   183
   174
   Cr
   0.9
   0.8
   TCO2
   22
   22
   22
   20
   22
   21
   21
   22
   Glucose
   94
   126
   Other labs: PT / PTT / INR:12.6/28.2/1.1, ALT / AST:83 (was 96) /69
   (86), Alk Phos / T Bili:197 (was 181)/0.2, Amylase / Lipase:84/336 (was
   361 yesterday), Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:2.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL,
   LDH:341 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Imaging: None today yet.
   Microbiology: Stool Cx P, cdiff neg
   Blood Cx p x2 from A-line: pending
   Wound Cx p x1 from PICC site: No growth
   Sputum x2 yeast only
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   Mr. [**Known lastname 9162**] is a 45 year old male with history of hypertension and [**Hospital 9163**]
   transferred from the floor for PCP and ARDS, with success wean of
   ventilation requirements and stable BP yesterday.
   1) HYPOXEMIC RESPIRATORY FAILURE: Secondary to PCP [**Name Initial (PRE) 2443**] ->ARDS,
   now with likely superimposed PNA.  CXR stable to improved. Currently
   day 18 bactrim (dosing 500mg IV Q6H).  Vancomycin day 5, cefepime/cipro
   day 3.  Sputum cultures now with yeast, blood cx pending.
   *Vent settings weaned
 FiO2 from 60 yesterday to 50 this morning, PEEP
   18 to 16.
   *Possible intermittent obstruction of ET tube, with increased
   difficulty passing suction catheter today. Have been avoiding bronch
   due to concerns with derecruitment in the setting of high PEEP
   requirements. However, will consider bronch  today because concern that
   potential obstruction will impair ability to wean PEEP further.
   Consider replacement of ET as needed pending bronch results. ID
   recommended BAL
can perform at the time of bronch if possible. Consider
   use of inhaled nitrous oxide during bronch to decrease hypercarbia and
   hypoxemia without exacerbating V/Q mismatch.
   *Increased anxiety so to Versed was increased 10 mg yesterday.
   *Currently tapering his prednisone, Prednisone - Day 5 of 20mg daily
   for duration of treatment. No evidence to suggest utility of high dose
   steroids in severe PCP beyond acute presentation, and could do more
   harm in setting of VAP.
   *Overall goals for respiratory failure unclear; we need to discuss the
   potential endpoints such as tracheotomy with the family
   - Bronchoscopy today with BAL if possible. Consider use of inhaled
   nitrous oxide during bronch to avoid hypercarbia.
   - Continue at prednisone 20 mg
   - Discuss goals of care including possible trach with family today.
   - Wean sedation as tolerated following bronch.
   - CXR Q24H or prn clinical changes
   2) ANEMIA: Hct down to 23.1, has been hovering around 25, likely due to
   HIV, stress, phlebotomy, nutrition suboptimal. No bone marrow biopsy at
   this time. Heme onc following, peripheral smears consistent with HIV.
   Decrease in Hct today is within the +/-2 range of Hct expected range.
   No signs of acute blood loss: continues to be warm and well-perfused,
   Cr within normal limits.
   - Check hct q12h
   - Transfuse to > 21.
   3) Labile BP: BP stable overnight. No CNS pathology on CT. Fentanyl
   D/C
d, which likely helped improve hypotension. Pressors discontinued
   yesterday. No intervention required at this point due to stable BP.
   -Cautious use of fluids for low BPs
   - Levophed for MAPs <60.
   4) FEVERS: T to 99.1 overnight, WBC decreased.  Likely due to VAP.
   Blood Cx pending, C diff negative. Sputum with yeast.
   -Continuing to treat with broad spectrum antibiotics as per above.
   -Mini-BAL today with bronchoscopy if possible.
   - Keep tylenol under 2g daily due to transaminitis
   5) TRANSAMINITIS/PANCREATITIS: AST/ALTs and lipase all down today, alk
   phos up. Ddx ? drug toxicity (bactrim) vs obstruction vs ?HIV
   cholangiopathy on US, vs acalculus cholecystitis. RUQ US  on [**2196-7-22**]
   showed just sludging. Lower AST/ALT with persistently elevated alk phos
   could indicate ongoing biliary process (high alk phos) that is no
   longer causing backup into the liver (lower transaminases).
   - Repeat RUQ ultrasound today.
   - Continue to trend LFTs, lipase
   - Limit Tylenol to 2g.day, as per above.
   6) NUTRITION: Dopoff now in place, verified by CT.   TF residuals 65
   yesterday but seemingly successful at 35mL/hr.
   -Continue tube feeds as tolerated
   7) HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) - recent diagnosis. Genotyping arrived yesterday. ID
   recommends Darunavir/truvada (protease inhibitor: toxicities
   dyslipidemia, some hepatotoxicity, hyperglycemia) but initiation
   complicated by pending genotype, poor gut motility with ? effective med
   absorption + transaminitis.  ID following.  However, his transaminitis
   is decreased today, and his tube feeding as been successful as per
   above.
   -Will ask ID
s recommendations if darunavir can be started in the near
   future given improved GI motility and decreasing transaminases.
   8)   URINE ELECTROLYTES: FeNa 3.  Creatinine WNL, good UOP. Unclear
   etiology at this point, potentially due to solute diuresis. Continues
   to autodiurese.
   -Simultaneous serum and urine osms today.
   9) FEN: Continue tube feeds as per above.
   10) PROPHYLAXIS: heparin UF SC, pneumoboots, PPI
   11) ACCESS: A-line and RIJ
   12) COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**] (wk)
   13) Disposition: Need to discuss respiratory goals of care with family,
   as per above. Continue to require ICU level care at this point.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-7-26**] 01:00 PM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: heparin UF SC, pneumoboots
   Stress ulcer: PPI
   VAP:  HOB ventilation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Need to discuss respiratory goals of care with family, as
   per above. Continue to require ICU level care at this point.

2196-07-27 09:54:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2196-7-26**] 12:45 PM
   Able to wean FIO2 to 0.5, and PEEP to 16
   C diff negative
   Off vasopressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-27**] 12:00 AM
   Bactrim (SMX/TMP) - [**2196-7-27**] 03:54 AM
   Ciprofloxacin - [**2196-7-27**] 04:00 AM
   Vancomycin - [**2196-7-27**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-27**] 08:00 AM
   Methadone Hydrochloride - [**2196-7-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-27**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 74 (74 - 100) bpm
   BP: 115/60(76) {93/51(66) - 152/78(101)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  4,498 mL
                                                                  1,919 mL
   PO:
   TF:
                                                                    150 mL
                                                                    253 mL
   IVF:
                                                                  4,108 mL
                                                                  1,556 mL
   Blood products:
   Total out:
                                                                  5,090 mL
                                                                  2,720 mL
   Urine:
                                                                  5,090 mL
                                                                  2,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -592 mL
                                                                   -801 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   PIP: 32 cmH2O
   SpO2: 95%
   ABG: 7.37/36/81.[**Numeric Identifier 218**]/23/-3
   Ve: 10.4 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Gen: sedated, and intubated
   HEENT: ETT and NGT
   CV RR no audible murmurs
   Chest: fair air movement
 no wheezes or rales
   ABd: soft distended hypoactive BS
   Ext:  stable- improvoing over left hand
   Neuro: sedated butopens eyes to voice
   Labs / Radiology
   7.8 g/dL
   174 K/uL
   126 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   9 mg/dL
   108 mEq/L
   135 mEq/L
   23.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2196-7-25**]  09:42 AM
                             [**2196-7-25**]  03:48 PM
                             [**2196-7-25**]  04:00 PM
                             [**2196-7-25**]  06:43 PM
                             [**2196-7-26**]  03:17 AM
                             [**2196-7-26**]  05:42 AM
                             [**2196-7-26**]  12:56 PM
                             [**2196-7-26**]  06:41 PM
                             [**2196-7-27**]  02:52 AM
                             [**2196-7-27**]  03:15 AM
   WBC
   26.2
   11.4
   Hct
   26.0
   25.0
   23.8
   Plt
   183
   174
   Cr
   0.9
   0.8
   TCO2
   22
   22
   22
   20
   22
   21
   21
   22
   Glucose
   94
   126
   Other labs: PT / PTT / INR:12.6/28.2/1.1, ALT / AST:83/69, Alk Phos / T
   Bili:197/0.2, Amylase / Lipase:84/336, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:341 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   1.       Hypoxemic Resp Failure: able to wean vent to PEEP 16 and FIO2
   0. Added coverage for VAP seems to have helped and optimizing sedation
   and fluid balance. Brnch planned for this AM since ETT with secretions
   making it hard to pass suction catheter.
   2.       PCP [**Name Initial (PRE) **]: steroids to 20 QD, ongoing Bactrim watch K.
   3.       HIV: hope to add HAART, genotype back, LFTS stable and
   tolerating TF so maybe able to start today.
   4.       Fevers/Leukocytosis: resolved, VAP leading Dx, pan cx, abd CT
   without acute changes but trend LFTs
 can repeat ultrasound today.
   5.       Nutrition: restart tube feeds today and advance as tolerated.
   ICU Care
   Nutrition:  Peptamen 1.5 (Full) - [**2196-7-26**] 01:00 PM 35 mL/hour
   Glycemic Control:  sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with proxy
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   Addednum
   In preparation for bronch given high PEEP discussions held with RT and
   plan is for inhaled NO and Fio2 1005 to blunt effects.
   He required iNO 20ppm, FIO2 1.0, versed 35 and Fentanyl 275 to tolerate
   brinch which revelaed scattered secretions but no obstruction in ETT.
   Wahse out with saline and bristle. Also did LUL BAL.
   Critical Crae Prep for bronch in terms of iNO and sedation 20 min

2196-07-28 07:22:00 Physician Resident Progress Note
Chief Complaint: 45M with a h/o HTN, [**Hospital 9163**] transfered to MICU with recent
   diagnosis of HIV and new diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS
   requiring intubation has had intermittent hypotension with difficulty
   weaning from ventilator
   24 Hour Events:
   Broncoscopy and BAL performed; no frank obstruction of ET tube, with
   removal of thick secretions. Appropriate ET tube placement confirmed.
   Stable on FiO2 50% and PEEP 16 thereafter. Weaned to PEEP 14 this AM,
   with stable SpO2.
   RUQ ultrasound - IMPRESSION: No convincing ultrasound evidence of acute
   cholecystitis. No biliary ductal dilatation.
   Was lightly sedated and easily aroused, with frequent intermittent
   tachycardic, hypertensive, and desaturation when awake. Versed
   increased from 10 rto 15 mg/hr, with HTN resolving.
   Developed hiccups; given Reglan with resolution (previously difficult
   to control)
   Tolerating tube feedings w/minimal gastric residuals at 50 cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-27**] 07:59 PM
   Cefipime - [**2196-7-28**] 12:00 AM
   Ciprofloxacin - [**2196-7-28**] 03:53 AM
   Bactrim (SMX/TMP) - [**2196-7-28**] 04:40 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-28**] 12:00 AM
   Methadone Hydrochloride - [**2196-7-28**] 03:59 AM
   Midazolam (Versed) - [**2196-7-28**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-28**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 93 (69 - 110) bpm
   BP: 96/56(69) {94/49(64) - 153/83(104)} mmHg
   RR: 29 (20 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 8 (3 - 14)mmHg
   Total In:
                                                                  5,349 mL
                                                                  1,497 mL
   PO:
   TF:
                                                                    848 mL
                                                                    341 mL
   IVF:
                                                                  4,330 mL
                                                                  1,076 mL
   Blood products:
   Total out:
                                                                  6,180 mL
                                                                  2,255 mL
   Urine:
                                                                  6,180 mL
                                                                  2,255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -831 mL
                                                                   -758 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 693 (0 - 693) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   SpO2: 94%
   ABG: 7.40/33/86/21/-2 (on PEEP 16)
   Ve: 11.2 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), without rubs, gallops or
   murmurs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Coarse breath sounds,
   equal bilateral
   Abdominal: Soft, Non-tender, No(t) Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   223 K/uL
   7.6 g/dL
   141 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.6 mEq/L
   10 mg/dL
   106 mEq/L
   136 mEq/L
   23.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-7-26**]  05:42 AM
                             [**2196-7-26**]  12:56 PM
                             [**2196-7-26**]  06:41 PM
                             [**2196-7-27**]  02:52 AM
                             [**2196-7-27**]  03:15 AM
                             [**2196-7-27**]  11:22 AM
                             [**2196-7-27**]  05:05 PM
                             [**2196-7-27**]  06:19 PM
                             [**2196-7-28**]  04:00 AM
                             [**2196-7-28**]  04:13 AM
   WBC
   11.4
   8.5
   Hct
   23.8
   22.6
   23.8
   Plt
   174
   223
   Cr
   0.8
   0.8
   TCO2
   22
   21
   21
   22
   22
   23
   21
   Glucose
   126
   141
   Other labs: PT / PTT / INR:12.0/26.5/1.0, ALT / AST:95 (was 83) /90
   (was 69), Alk Phos / T Bili:243 (was 197) /0.2, Amylase / Lipase:84/201
   (was 336), Differential-Neuts:94.0 %, Band:0.0 %, Lymph:5.0 %, Mono:1.0
   %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Albumin:2.2 g/dL, LDH:355 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL (was 3.0)
   Fluid analysis / Other labs: ABG
   [**7-28**] 4:13AM 7.40/33/86/21/-2
   [**7-27**] 5:05PM 7.37/38/83/23/-2
   [**7-27**] 11:22AM 7.35/38/92/22/-3
   [**7-27**] 3:15AM 7.37/36/81/22/-3
   Imaging: CXR Unchanged bilateral multifocal consolidations
   RUQ U/S No convincing ultrasound evidence of acute cholecystitis. No
   biliary ductal dilatation.
   Microbiology: [**7-27**] BAL
   GRAM STAIN 1+  POLYMORPHONUCLEAR LEUKOCYTES  NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE pending
   FUNGAL CULTURE pending
   [**7-26**] C. Diff. negative
   [**7-25**] Blood cultures pending
   [**7-25**] Sputum cultures yeast
   [**7-24**] Urine cultures negative
   Assessment and Plan
   45M with a h/o HTN, [**Hospital 9163**] transfered to MICU with recent diagnosis of HIV
   and new diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS requiring
   intubation has had intermittent hypotension with difficulty weaning
   from ventilator
   .
   # HYPOXEMIC RESPIRATORY FAILURE: Likely secondary to PCP pneumonia with
   ARDS physiology. Now likely has superimposed PNA with some pulmonary
   edema. On bactrim day 19 and prednisone for PCP,  [**Name10 (NameIs) **] day 6,
   cefepime/cipro day 4 for suspected VAP. CXR improved. Leukocytosis has
   resolved. No organisms on gram stain on BAL, with cx pending.
   *Vent settings weaned to  50% FiO2, PEEP 14 with stable SpO2. Could
   likely tolerate further decrease in PEEP toward goal of PEEP ~10 and
   trach placement. HCP agrees with trach.
   *No major obstruction of ET tube on bronch. BAL with no organisms on
   gram stain.
   *Versed increased to 15 mg/hr due to lightness of sedation with HTN,
   tachycardia, desaturation while awake. Options for improving sedation
   is increasing benzos (either Versed or other benzo) or increasing
   methadone for anxiety/pain. Fentanyl could be considered if sedation
   continues to be problem[**Name (NI) 595**]; [**Name2 (NI) 1410**] would address anxiety but he is at
   maximum dose. Given his current lack of pain and his long-standing high
   dose outpatient benzo use, he seems to be intolerant of benzo weans. In
   this setting, we can give him PO benzos to try to reduce his IV Versed
   dose over time, with the goal of weaning from IV benzos and trach
   placement. Once on trach, he may feel less anxious than while intubated
   and may require less benzos overall.
   * Prednisone - Day 6 of 20mg daily for duration of treatment. No
   evidence to suggest utility of high dose steroids in severe PCP beyond
   acute presentation, and could do more harm in setting of VAP.
   - Wean PEEP by 2 or as tolerated. Goal PEEP 10 with conversion to
   trach.
   - Diazepam 10 mg PO Q6H. Adjust Versed as tolerated, but weaning from
   Versed would likely be most successful after Diazepam has been onboard
   for a day.
   -Consult thoracics regarding potential trach in the coming days.
   -Continue Bactrim, cefepime/cipro, and [**Name2 (NI) **]. Consider adjustment to
   abx regimen pending BAL cx.
   -Per ID recs, check vanc troph 20 minutes before next dose.
   - Continue at prednisone 20 mg
   - CXR Q24H or prn clinical changes
   2) ANEMIA: Hct stable at 23.1, has been hovering around 25, likely due
   to HIV, stress, phlebotomy, nutrition suboptimal. No bone marrow biopsy
   at this time. Heme onc following, peripheral smears consistent with
   HIV. No signs of acute blood loss: continues to be warm and
   well-perfused, Cr within normal limits.
   - Check hct q12h. Consider Q24h if stable this afternoon.
   - Transfuse to > 21.
   3) Labile BP: BP stable with increased sedation. Because HTN,
   tachycardia and desats in the setting of inadequate sedation, achieving
   sedation goals above are important to controlling BP.  No pressors have
   been required x2day
   - Diazepam with Versed wean, per above.
    -Cautious use of fluids for low BPs
   - Levophed for MAPs <60.
   4) FEVERS: T to 99.4, WBC decreased.  Likely due to VAP. Blood Cx
   pending, C diff negative. No microorganisms on BAL gram stain
   yesterday, cx pending. Sputum with yeast.
   -Continuing to treat with broad spectrum antibiotics as per above.
   Adjustments to abx as needed pending BAL cx.
   -Follow up BAL cx
   - Keep tylenol under 2g daily due to transaminitis
   5) TRANSAMINITIS/PANCREATITIS: Stable. Ddx ? drug toxicity (bactrim) vs
   obstruction vs ?HIV cholangiopathy on US, vs acalculus cholecystitis.
   More likely drug toxicity because RUQ US  on [**2196-7-26**] showed no acute
   cholecystitis.
   - Continue to trend LFTs, lipase
   - Limit Tylenol to 2g.day, as per above.
    6) NUTRITION: Tolerated advancement to tube feeds at 50 cc/hr with
   residuals <100.
   -Continue tube feeds as tolerated
    7) HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) - recent diagnosis. Genotyping arrived yesterday. ID
   recommends Darunavir/truvada (protease inhibitor: toxicities
   dyslipidemia, some hepatotoxicity, hyperglycemia) but initiation
   complicated by pending genotype, poor gut motility with ? effective med
   absorption + transaminitis.  ID following.  Given stable transaminitis
   and advanced tube feeds, we can consider starting today or the coming
   days; will seek ID
s recs.
    -Will ask ID
s recommendations if darunavir can be started in the near
   future given improved GI motility and decreasing transaminases.
   8)   URINE ELECTROLYTES: FeNa 3.  Creatinine WNL, good UOP. Unclear
   etiology at this point, potentially due to solute diuresis. Continues
   to autodiurese.  Can consider urine and serum osms if change to
   electrolytes or UOP.
    9) FEN: Continue tube feeds as per above.
   10) PROPHYLAXIS: heparin UF SC, pneumoboots, PPI
   11) ACCESS: A-line and RIJ. Place PICC line today and D/C RIJ.
    12) COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**] (wk)
    13) Disposition: Goal is to lower PEEP to enable trach. Continues to
   require ICU level care at this point.
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   ICU Care
   Nutrition:
   Comments: Peptamen 1.5 Full strength @ 50cc/hr
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2196-07-28 08:30:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2196-7-27**] 11:00 AM
 no CBD dilation,
 BRONCHOSCOPY - At [**2196-7-27**] 12:09 PM
 scattered mucus in tube,
   removed BAL pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-28**] 12:00 AM
   Ciprofloxacin - [**2196-7-28**] 03:53 AM
   Bactrim (SMX/TMP) - [**2196-7-28**] 04:40 AM
   Vancomycin - [**2196-7-28**] 08:20 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2196-7-28**] 04:45 AM
   Methadone Hydrochloride - [**2196-7-28**] 08:19 AM
   Pantoprazole (Protonix) - [**2196-7-28**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-28**] 08:20 AM
   Other medications:
   Zyprexa 5 q6, Methadone 20 q4, Methylpred 20,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-28**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 77 (69 - 110) bpm
   BP: 95/53(66) {94/49(64) - 153/83(104)} mmHg
   RR: 26 (20 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 10 (3 - 14)mmHg
   Total In:
                                                                  5,349 mL
                                                                  1,861 mL
   PO:
   TF:
                                                                    848 mL
                                                                    423 mL
   IVF:
                                                                  4,330 mL
                                                                  1,357 mL
   Blood products:
   Total out:
                                                                  6,180 mL
                                                                  2,495 mL
   Urine:
                                                                  6,180 mL
                                                                  2,495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -831 mL
                                                                   -633 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 693 (0 - 693) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.40/33/86/21/-2
   Ve: 10.2 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Gen: lying in bed on vent, eyes opene and nodding appropriately to
   questions
   HEENT: ETT and NGT
   CV RR no audible murmurs
   Chest: fair air movement
 no wheezes or rales
   ABd: soft distended hypoactive BS
   Ext:  stable- improving over left hand
   Labs / Radiology
   7.6 g/dL
   223 K/uL
   141 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.6 mEq/L
   10 mg/dL
   106 mEq/L
   136 mEq/L
   23.8 %
   8.5 K/uL
        [image002.jpg]
   BAL: 1+ PMN no organisms, cx pending  PMN predominance
                             [**2196-7-26**]  05:42 AM
                             [**2196-7-26**]  12:56 PM
                             [**2196-7-26**]  06:41 PM
                             [**2196-7-27**]  02:52 AM
                             [**2196-7-27**]  03:15 AM
                             [**2196-7-27**]  11:22 AM
                             [**2196-7-27**]  05:05 PM
                             [**2196-7-27**]  06:19 PM
                             [**2196-7-28**]  04:00 AM
                             [**2196-7-28**]  04:13 AM
   WBC
   11.4
   8.5
   Hct
   23.8
   22.6
   23.8
   Plt
   174
   223
   Cr
   0.8
   0.8
   TCO2
   22
   21
   21
   22
   22
   23
   21
   Glucose
   126
   141
   Other labs: PT / PTT / INR:12.0/26.5/1.0, ALT / AST:95/90, Alk Phos / T
   Bili:243/0.2, Amylase / Lipase:84/201, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L,
   Albumin:2.2 g/dL, LDH:355 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   1.       Hypoxemic Resp Failure: improving this AM, able to wean vent
   to PEEP 14 and FIO2 0.5  - if anything his Oxygenation improves with
   dropping PEEP so will next go to 12 and watch closely. Goal is to get
   to 10 and call IP/Thoracics to evaluate for trach when PEEP less than
   10.
   2.        Sedation
 would start po Valium knowing he will needs a
   heavy dose of benzos and hope to wean the drip slowly over next few
   days. Hold Mehtoadone dose but will add as needed if benzos fail
   3.       PCP [**Name Initial (PRE) **]: steroids to 20 QD, ongoing Bactrim watch K.
   4.       HIV: hope to add HAART, genotype back, LFTS stable and
   tolerating TF so maybe able to start today.
   5.       Fevers/Leukocytosis: resolved, VAP leading Dx, abd US
   unrevealing ultrasound today.
   6.       Nutrition: tolerating tube feeds
   7.       remaining issues as per Housestaff
   ICU Care
   Nutrition: Peptamen 1.5 (Full) - [**2196-7-28**] 06:30 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   Multi Lumen - [**2196-7-11**] 06:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication: will set up family meeting  re trach discussion
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2196-07-29 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2196-7-28**] 09:05 AM
 PICC LINE - START [**2196-7-28**] 04:10 PM
 MULTI LUMEN - STOP [**2196-7-29**] 01:00 AM
   PEEP decreased from 16 to 12.
   Diazepam added to sedation regimen (currently Midazolam), with goal of
   decreasing Versed so that trach can be done when PEEP is 10.
   Overnight: Pt had increased agitation and became acutely tachycardic HR
   >140 and hypertensive with SBP>180 twice overnight and required
   multiple boluses of Midazolam (65 mg/12Hr), IV Diazepam and IV fentanyl
   x1, in addition to scheduled doses of PO Diazepam and Olanzapine.
   Became hypotensive w/sbp
s 80
s despite remaining tachycardic, for
   which he received a 500 ccNS bolus.
   PICC was also placed, then R IJ line removed, XR checked post-procedure
   with confirmation of appropriate positioning.
   Continues to have low residuals with tube feeds, may consider removing
   OG tube (leaving Dophoff) if they continue to be low.
   Discussed with ID - will likely advise starting HAART therapy today if
   stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-28**] 08:00 PM
   Cefipime - [**2196-7-29**] 12:00 AM
   Bactrim (SMX/TMP) - [**2196-7-29**] 04:00 AM
   Ciprofloxacin - [**2196-7-29**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-28**] 08:00 PM
   Diazepam (Valium) - [**2196-7-28**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-29**] 12:06 AM
   Methadone Hydrochloride - [**2196-7-29**] 03:32 AM
   Midazolam (Versed) - [**2196-7-29**] 05:10 AM
   Fentanyl - [**2196-7-29**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-29**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 111 (70 - 137) bpm
   BP: 85/50(61) {85/50(61) - 173/104(127)} mmHg
   RR: 25 (22 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  5,583 mL
                                                                  2,014 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    355 mL
   IVF:
                                                                  4,153 mL
                                                                  1,499 mL
   Blood products:
   Total out:
                                                                  6,735 mL
                                                                  3,040 mL
   Urine:
                                                                  6,325 mL
                                                                  3,040 mL
   NG:
                                                                     60 mL
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                 -1,152 mL
                                                                 -1,026 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 93%
   ABG: 7.40/36/70/21/-1
   Ve: 10.9 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Sedated, intubated
   Cardiovascular: Tachycardic, regular rhythm
   Peripheral Vascular:  Warm, well-perfused, 1+ pedal and hand edema
   Respiratory / Chest: Crackles bilaterally on anterior exam
   Abdominal: Hypoechoic, soft, non-distended
   Labs / Radiology
   204 K/uL
   8.2 g/dL
   143 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.5 mEq/L
   10 mg/dL
   108 mEq/L
   138 mEq/L
   25.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2196-7-28**]  04:00 AM
                             [**2196-7-28**]  04:13 AM
                             [**2196-7-28**]  09:27 AM
                             [**2196-7-28**]  12:14 PM
                             [**2196-7-28**]  03:07 PM
                             [**2196-7-28**]  03:36 PM
                             [**2196-7-28**]  06:46 PM
                             [**2196-7-28**]  09:06 PM
                             [**2196-7-29**]  04:44 AM
                             [**2196-7-29**]  04:46 AM
   WBC
   8.5
   5.1
   Hct
   23.8
   23.3
   25.0
   Plt
   223
   204
   Cr
   0.8
   0.7
   0.8
   TCO2
   21
   22
   23
   24
   24
   24
   23
   Glucose
   141
   97
   143
   Other labs: PT / PTT / INR:12.2/27.3/1.0, ALT / AST:119 (was 95) /108
   (was 90), Alk Phos 267(was 243) / T Bili:267/0.2, Amylase /
   Lipase:84/201, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:11.0 %,
   Mono:9.0 %, Eos:2.0 %, Lactic Acid:1.8 mmol/L, Albumin:2.2 g/dL,
   LDH:360 IU/L (was 355), Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:1.8 mg/dL
   (was 2.5 yesterday)
   Imaging:
   CXR for PICC placement from [**2196-7-28**]: New R PICC terminates at
   cavoatrial jxn, otherwise unchanged, with bilateral
   widespread parenchymal opacities.
   CXR from [**2196-7-29**]: Stable to improved diffuse parenchymal opacities.
   Microbiology: BAL from [**2196-7-27**]: Fungal cx negative. Respiratory cx
   pending.
   Fecal cx: negative
   IJ catheter tip culture pending.
   45M with a h/o HTN, [**Hospital 9163**] transfered to MICU with recent diagnosis of HIV
   and new diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS requiring
   intubation has had intermittent hypotension with difficulty weaning
   from ventilator.
   .
   1) HYPOXEMIC RESPIRATORY FAILURE: Likely secondary to PCP pneumonia
   with ARDS physiology. Now likely has superimposed PNA with some
   pulmonary edema. On bactrim day 20 and prednisone for PCP,  [**Name10 (NameIs) **] day 7
   of 14, cefepime/cipro day 5 of 14 for suspected VAP. CXR improved.
   Leukocytosis has resolved. No organisms on gram stain on BAL, with cx
   pending.
   *Vent settings at 50% FiO2, PEEP 12 with generally stable SpO2 but
   drops in PaO2 on ABG and of SpO2 in the setting of agitation. Goal is
   PEEP </=10 allowing for trach placement. Can increase FiO2 to sustain
   decreased PEEP if needed but concern is desats are due to
   anxiety/agitation.
   *Sedation: Midazolam at 15 mg/hr, Olanzapine 5 mg Q6hrs, and Diazepam
   10 mg Q6Hr; plus 65 mg Midazolam PRN, Fentanyl IV x1 and Diazepam x 1
   overnight due to lightness of sedation with HTN, tachycardia,
   desaturation while agitated. Options for improving sedation include
   increasing frequency of diazepam, trial of alternate antipsychotic
   since we are at maximum dose of olanzapine, increasing Fio2, or
   increasing methadone. Given that he required large doses of Midazolam
   prn overnight, we can increase the frequency of his diazepam today;
   weighing against the risk of hypotension/other benzo toxicity requires
   care in significant increases to benzo dose. Also, we can D/C
   olanzapine and start Seroquel standing dose for agitation/anxiety.
   After making these adjustments, we can re-evaluate the need to increase
   FiO2 or methadone.
   * Prednisone: Day 6 of 20mg daily for duration of treatment. No
   evidence to suggest utility of high dose steroids in severe PCP beyond
   acute presentation, and could do more harm in setting of VAP.
   - Increase Diazepam 10 mg PO to Q4H.
   -D/C Olanzapine and start Quetiapine Fumarate 25 mg PO BID. Check EKG
   for QTc prior to starting.
   -Continue Midazolam 15 mg/hr. Consider weaning as tolerated following
   above changes.
   - Wean PEEP by 2 or as tolerated, but will be conservative pending
   evaluation of response to sedative/anxiolytic regimen above. Goal PEEP
   </=10 with conversion to trach.
   - Follow up with thoracics regarding potential trach in the coming
   days.
   -Continue Bactrim, cefepime/cipro, and [**Name10 (NameIs) **]. Consider adjustment to
   abx regimen pending BAL cx.
   - Continue at prednisone 20 mg
   - CXR Q24H or prn clinical changes
   2) LABILE BP: HTN with agitation, hypotensive episode with tachycardia
   responsive to IVF overnight.  Because HTN, tachycardia and desats in
   the setting of inadequate sedation, achieving sedation goals above are
   important to controlling BP.  No pressors have been required x3 days.
   - Increase Diazepam, continue Midazolam, and start Quetiapine per
   above.
    -Cautious use of fluids for low BPs
   - Levophed for MAPs <60.
   3) Low PO4 and low Mg: Magnesium repleted. Low phosphate likely due to
   recent advancement of tube feeds (increased insulin secretion) v.
   cumulative impact of suboptimal nutrition vs. renal losses from current
   autodiuresis. Low Mg may be due to renal losses v. cumulative impact of
   suboptimal nutrition.
   -Replete with Mg and PO phosphate as needed.
   -Continue to trend Mg and phosphate
   4) TRANSAMINITIS/PANCREATITIS: Stable/slowly increasing in the past
   days. Ddx ? drug toxicity (bactrim +/- Tylenol) vs obstruction vs ?HIV
   cholangiopathy on US, vs acalculus cholecystitis. More likely drug
   toxicity because RUQ US on [**2196-7-26**] showed no acute cholecystitis or
   ductal dilatation. Negative crypto and CMV. Unclear why rising in the 3
   days.
   - Continue to trend LFTs, lipase
   - Limit Tylenol to 2g.day
   5) ANEMIA: Hct stable around 25. Anemia likely due to HIV, stress,
   phlebotomy, nutrition suboptimal. No bone marrow biopsy at this time.
   Heme onc following, peripheral smears consistent with HIV. No signs of
   acute blood loss: continues to be warm and well-perfused, Cr within
   normal limits.
   - Continue with Q24Hr Hct checks to minimize blood loss due to
   phlebotomy.
   - Transfuse to > 21.
   6) FEVERS: T to 99.2, WBC decreased.  Likely due to VAP. Blood Cx
   pending, C diff negative, stool culture negative. No microorganisms on
   BAL gram stain yesterday, cx pending. Sputum with yeast.
   -Continuing to treat with broad spectrum antibiotics as per above.
   Adjustments to abx as needed pending BAL cx.
   -Follow up BAL respiratory cx
   - Keep tylenol under 2g daily due to transaminitis, as per above.
    7) HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) - recent diagnosis. Genotyping arrived yesterday. ID
   recommends Darunavir/truvada (protease inhibitor: toxicities
   dyslipidemia, some hepatotoxicity, hyperglycemia) but initiation
   complicated by pending genotype, poor gut motility with ? effective med
   absorption + transaminitis.  ID following.  Given stable transaminitis
   and advanced tube feeds, ID will likely recommend starting HAART today.
    -F/u ID recs regarding starting HAART today.
   8)   URINE ELECTROLYTES: FeNa 3.  Creatinine WNL, good UOP. Unclear
   etiology at this point, potentially due to solute diuresis. Continues
   to autodiurese.  Can consider urine and serum osms if change to
   electrolytes or UOP.
   9) FEN: Tolerated advancement to tube feeds at 50 cc/hr without
   significant residuals. Can D/C OG tube today, with Dopoff remaining.
   -Can D/C OG tube today
   -Continue ISS for glycemic control
   10) PROPHYLAXIS: heparin UF SC, pneumoboots, PPI
   11) ACCESS: A-line and PICC.
    12) COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**]
   (wk). Discussed plan with partner Chip today.
    13) Disposition: Goal is to lower PEEP to enable trach. Continues to
   require ICU level care at this point.
   Assessment and Plan
 ANXIETY
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-7-28**] 11:18 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**] (wk).
   Discussed plan with partner Chip today.
   Code status: Full code
   Disposition: Goal is to lower PEEP to enable trach. Continues to
   require ICU level care at this point.

2196-07-29 09:27:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2196-7-28**] 09:05 AM
 PICC LINE - START [**2196-7-28**] 04:10 PM
 MULTI LUMEN - STOP [**2196-7-29**] 01:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-29**] 12:00 AM
   Bactrim (SMX/TMP) - [**2196-7-29**] 04:00 AM
   Ciprofloxacin - [**2196-7-29**] 04:30 AM
   Vancomycin - [**2196-7-29**] 08:28 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2196-7-28**] 08:45 PM
   Fentanyl - [**2196-7-29**] 05:30 AM
   Midazolam (Versed) - [**2196-7-29**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-29**] 08:27 AM
   Pantoprazole (Protonix) - [**2196-7-29**] 08:28 AM
   Methadone Hydrochloride - [**2196-7-29**] 08:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-29**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 103 (70 - 137) bpm
   BP: 105/62(74) {85/50(61) - 173/104(127)} mmHg
   RR: 23 (22 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  5,583 mL
                                                                  2,433 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    470 mL
   IVF:
                                                                  4,153 mL
                                                                  1,773 mL
   Blood products:
   Total out:
                                                                  6,735 mL
                                                                  3,580 mL
   Urine:
                                                                  6,325 mL
                                                                  3,530 mL
   NG:
                                                                     60 mL
                                                                     50 mL
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                 -1,152 mL
                                                                 -1,147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 184 (0 - 184) mL
   RR (Set): 24
   RR (Spontaneous): 5
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.40/36/70/21/-1
   Ve: 16 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Gen: lying in bed on vent, more sedated this AM
   HEENT: ETT and NGT
   CV: RR no audible murmurs
   Chest: fair air movement
 no wheezes or rales
   ABd: soft distended hypoactive BS
   Ext:  stable- improving over left hand
   Labs / Radiology
   8.2 g/dL
   204 K/uL
   143 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.5 mEq/L
   10 mg/dL
   108 mEq/L
   138 mEq/L
   25.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2196-7-28**]  04:00 AM
                             [**2196-7-28**]  04:13 AM
                             [**2196-7-28**]  09:27 AM
                             [**2196-7-28**]  12:14 PM
                             [**2196-7-28**]  03:07 PM
                             [**2196-7-28**]  03:36 PM
                             [**2196-7-28**]  06:46 PM
                             [**2196-7-28**]  09:06 PM
                             [**2196-7-29**]  04:44 AM
                             [**2196-7-29**]  04:46 AM
   WBC
   8.5
   5.1
   Hct
   23.8
   23.3
   25.0
   Plt
   223
   204
   Cr
   0.8
   0.7
   0.8
   TCO2
   21
   22
   23
   24
   24
   24
   23
   Glucose
   141
   97
   143
   Other labs: PT / PTT / INR:12.2/27.3/1.0, ALT / AST:119/108, Alk Phos /
   T Bili:267/0.2, Amylase / Lipase:84/201, Differential-Neuts:77.0 %,
   Band:1.0 %, Lymph:11.0 %, Mono:9.0 %, Eos:2.0 %, Lactic Acid:1.8
   mmol/L, Albumin:2.2 g/dL, LDH:360 IU/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:1.8 mg/dL
   CXR: lower lung volumes diffuse bilat infiltrates persist ETT
   acceptable placement
   Assessment and Plan
 ANXIETY
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   1.       Hypoxemic Resp Failure: stable this AM, able to wean vent to
   PEEP 12 and FIO2 0.5  Goal is to get to 10 and IP/Thoracics here this
   AM to evaluate for trach when PEEP less than 10. His optimal PEEP is
   likely between 12 and 14 but trach is critical so we can try to get
   within range as needed.
   2.       Sedation
 start po Valium knowing he will needs a heavy dose
   of benzos and hope to wean the drip slowly over next few days. Hold
   Methadone at current dose. Switch Zyprexa to [**Hospital1 7**] Seroquel to see if
   more effective
 watch the sats
   3.       PCP [**Name Initial (PRE) **]: steroids to 20 QD, ongoing Bactrim watch K.
   4.       VAP: Day 7 of 14 ABX for VAP- Bal done late in course and
   unrevealing thus far
   5.       HIV: hope to add HAART today
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:  Peptamen 1.5 (Full) - [**2196-7-28**] 11:18 PM 50 mL/hour
   Glycemic Control:
   Lines:  Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-7-29**] 08:38 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP: HOB chlorhex
   Communication:  spoke with partner/HCP [**Name (NI) 1948**]
 agrees to trach
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2196-07-30 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 45M with a h/o HTN, [**Hospital 9163**] transferred to MICU with
   recent diagnosis of HIV and new diagnosis of PCP, [**Name10 (NameIs) 4784**]
   developed ARDS requiring intubation with difficulty weaning from
   ventilator and sedation but placed on trach yesterday.
   24 Hour Events:
 EKG - At [**2196-7-29**] 10:56 AM
 PERCUTANEOUS TRACHEOSTOMY - At [**2196-7-29**] 03:30 PM
   -Weaned to PEEP of 10 and trach placed, with subsequent stable ABG.
   -On going difficult with anxiety/agitation leading to HTN, tachycardia,
   and hypoxia: increased Diazepam 10 mg PO to Q4H. D/C'd Olanzapine and
   started Quetiapine  scheduled for agitation/anxiety. On this regimen,
   continued to have episodes of tachycardia and HTN but without desats..
   -Ulytes - FeNa 2.9
   -ID recs for HAART: start in AM (darunavir, ritonivir, truvada)
   - OG tube removed during procedure. XR to confirm placement of NG -
   crosses midline.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2196-7-29**] 04:21 PM
   Vancomycin - [**2196-7-29**] 08:00 PM
   Cefipime - [**2196-7-30**] 12:18 AM
   Bactrim (SMX/TMP) - [**2196-7-30**] 04:10 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2196-7-29**] 03:20 PM
   Fentanyl - [**2196-7-29**] 03:22 PM
   Vecuronium - [**2196-7-29**] 04:38 PM
   Pantoprazole (Protonix) - [**2196-7-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-7-30**] 12:18 AM
   Methadone Hydrochloride - [**2196-7-30**] 04:10 AM
   Midazolam (Versed) - [**2196-7-30**] 05:03 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Cannot assess due to sedation
   Flowsheet Data as of  [**2196-7-30**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100
   HR: 104 (74 - 123) bpm
   BP: 114/67(82) {93/54(67) - 186/102(134)} mmHg
   RR: 28 (13 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  6,161 mL
                                                                  1,228 mL
   PO:
             TF:
                                                                    425 mL
                                                                    365 mL
   IVF:
                                                                  5,456 mL
                                                                    863 mL
   Blood products:
   Total out:
                                                                  7,440 mL
                                                                  2,960 mL
   Urine:
                                                                  7,290 mL
                                                                  2,960 mL
   NG:
                                                                     50 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,279 mL
                                                                 -1,732 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 93%
   ABG: 7.39/40/103/23/0 (on RR 20)
   Ve: 15.4 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: Lightly sedated but responsive to voice,
   intermittently follows commands.
   Cardiovascular: Regular rate and rhythm.
   Respiratory / Chest: Clear to auscultation bilaterally.
   Abdominal: Hypoechoic, non-tender, non-distended.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   7.6 g/dL
   95 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   7 mg/dL
   106 mEq/L
   137 mEq/L
   23.3 %
   4.1 K/uL
        [image002.jpg]
                             [**2196-7-29**]  04:44 AM
                             [**2196-7-29**]  04:46 AM
                             [**2196-7-29**]  10:04 AM
                             [**2196-7-29**]  12:25 PM
                             [**2196-7-29**]  04:36 PM
                             [**2196-7-29**]  05:38 PM
                             [**2196-7-29**]  10:08 PM
                             [**2196-7-29**]  10:38 PM
                             [**2196-7-30**]  03:42 AM
                             [**2196-7-30**]  04:58 AM
   WBC
   5.1
   4.1
   Hct
   25.0
   23.3
   Plt
   204
   220
   Cr
   0.8
   0.7
   0.8
   0.8
   TCO2
   23
   24
   23
   25
   25
   25
   Glucose
   143
   70
   88
   95
   Other labs: PT / PTT / INR:11.3/26.5/0.9, ALT / AST:119 (was 119)/111
   (was 109), Alk Phos / T Bili:231 (was 267)/0.2, Amylase / Lipase:84/389
   (was 242), Differential-Neuts:49.2 %, Band:1.0 %, Lymph:18.9 %,
   Mono:29.9 %, Eos:1.7 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL,
   LDH:317 (was 360) IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 (was
   2.6 yesterday) mg/dL
   Imaging: CXR from [**7-29**]: Stable to slightly improved airspace
   bilaterally. Dopoff crosses midline.
   Microbiology: BAL from [**2196-7-27**]: No organisms on gram stain on BAL, with
   respiratory cx: oropharyngeal flora absent. Yeast >100,000
   organisms/mL, and prelim fungal culture: no fungus.
   Assessment and Plan
   45M with a h/o HTN, [**Hospital 9163**] transfered to MICU with recent diagnosis of HIV
   and new diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS requiring
   intubation with difficulty weaning from ventilator and sedation but
   trach placed yesterday.
   1) HYPOXEMIC RESPIRATORY FAILURE: Likely secondary to PCP pneumonia
   with ARDS physiology. Now likely has superimposed PNA. On bactrim day
   21 and prednisone for PCP, [**Name10 (NameIs) **] day 8 of ?14, cefepime/cipro day 6 of
   ?14 for suspected VAP. CXR improved. Leukocytosis has resolved. No
   organisms on gram stain on BAL, with respiratory cx: oropharyngeal
   flora absent. Yeast >100,000 organisms/mL, and prelim fungal culture:
   no fungus.
   *Trach placed yesterday, with vent settings at 50% FiO2, PEEP 10 with
   stable ABG.  High PaO2 on recent ABG, so we can likely decrease PEEP
   very slowly as tolerated vs. transition to PSV. Given his on-going
   issues with anxiety/agitation, he may be more comfortable on PSV, so
   trial of PSV with continued PEEP of 10 is preferred.
   *? VAP: CXR improved. Leukocytosis has resolved. No organisms on gram
   stain on BAL, with respiratory cx: oropharyngeal flora absent. Yeast
   >100,000 organisms/mL, and prelim gungal culture: no fungus. BAL was
   performed several days after starting antibiotics, so we will likely
   complete his current course. We will seek ID recommendations for the
   appropriate duration of treatment.
   *Sedation: regimen yesterday was Midazolam at 15 mg/hr, with Quetiapine
   25 mh [**Hospital1 7**] replacing Olanzapine, and Diazepam 10 mg increased to Q4Hr,
   with continued HTN and tachycardia during agitated episodes, but
   without further desaturations. Agitation may improve with PSV instead
   of AC. Agitation is worse at night.
   *ID recommends starting HAART today.
   * Prednisone: Day 7 of 20mg daily for duration of treatment. No
   evidence to suggest utility of high dose steroids in severe PCP beyond
   acute presentation, and could do more harm in setting of VAP.
   -Attempt PSV today, with maintenance of PEEP 10 or as tolerated.
   - Reassess sedation once PSV attempted. Will follow up with pharmacy
   regarding potential adjustments to current regimen that would minimize
   sedation if HTN/tachycardia persist despite transition to PSV.
   Otherwise, attempt to wean Midazolam as tolerated and continue
   Quetiapine and Diazepam pending pharmacy recommendations.
   -Start Darunavir/ ritonavir/ truvada this AM per ID.
   -Continue Bactrim, cefepime/cipro, and [**Hospital1 **]. Consider adjustment to
   abx regimen and/or treatment duration pending ID recommendations.
   - Continue at prednisone 20 mg.
   - CXR Q24H or prn clinical changes.
   2) LABILE BP: Continues to be hypertensive with agitation, no
   significant hypotensive episodes and decreased range of BP.  Will
   monitor on trach today and adjust sedative accordingly as per above. No
   pressors have been required x4 days.
   - Adjust/wean sedation per above.
    -Cautious use of fluids for low BPs. Levophed for MAPs <60.
   3) TRANSAMINITIS/PANCREATITIS: Transaminases stable/slowly increasing
   in the past days. Lipase with continued elevation, spike yesterday
   likely due to propofol used during trach placement. Ddx ? drug toxicity
   (bactrim +/- Tylenol) vs obstruction vs ?HIV cholangiopathy on US, vs
   acalculus cholecystitis. More likely drug toxicity because RUQ US on
   [**2196-7-26**] showed no acute cholecystitis or ductal dilatation. Negative
   crypto and CMV. Unclear why transaminases rising in the past several
   days.
   - Continue to trend LFTs, lipase
   - Limit Acetaminophen to 2g.day
   4) FEVERS: T to 100.9, WBC decreased, with new monocytosis.  Likely due
   to VAP. Blood Cx pending, C diff negative, stool culture negative. No
   microorganisms on BAL gram stain yesterday, cx with yeast. Sputum with
   yeast.
   *Monocytosis: Likely due to recovery from acute infection, although new
   infection could also potentially cause monocytosis. However, he is on
   an extensive antibiotic regimen and has an improved clinical picture,
   so new infection is less likely.
   -Continue to monitor WBC.
   -Continuing to treat with broad spectrum antibiotics, with adjustment
   to regimen pending ID recommendations, as per above.
   - Keep Acetaminophen under 2g daily due to transaminitis, as per above.
   5) ANEMIA: Hct 23.3, generally stable around around 23-25. Anemia
   likely due to HIV, stress, phlebotomy, nutrition suboptimal. No bone
   marrow biopsy at this time. Heme onc following, peripheral smears
   consistent with HIV. No signs of acute blood loss: continues to be warm
   and well-perfused, Cr within normal limits.
   - Continue with Q24Hr Hct checks to minimize blood loss due to
   phlebotomy.
   - Transfuse to > 21.
   6) Low PO4 and low Mg: Magnesium low this AM. PO4 improved from
   yesterday despite no repletion. Low PO4 likely due to recent
   advancement of tube feeds (increased insulin secretion) v. cumulative
   impact of suboptimal nutrition vs. renal losses from current
   autodiuresis.  Mg likely low due to cumulative impact of suboptimal
   nutrition vs. renal losses from current autodiuresis
   -Replete Mg and phosphate as needed.
   -Continue to trend Mg and phosphate
    7) HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) - recent diagnosis. Genotyping arrived yesterday. ID
   recommends Darunavir/truvada (protease inhibitor: toxicities
   dyslipidemia, some hepatotoxicity, hyperglycemia) but initiation
   complicated by pending genotype, poor gut motility with ? effective med
   absorption + transaminitis.  ID following.  Given stable transaminitis
   and advanced tube feeds, ID will likely recommend starting HAART today.
   -Start darunavir 800 mg PO once daily, ritonavir 100 mg PO once daily,
   and truvada 1 tab PO once daily this AM.
   -Follow LFTs given potential hepatotoxicity of HAART regimen.
   -Follow respiratory status for immune reconstitution inflammation
   syndrome.
   8)   URINE ELECTROLYTES: FeNa 2.9 with ongoing autodiuresis.
   Creatinine WNL, good UOP. Unclear etiology at this point, potentially
   due to solute diuresis.
   -Continue to follow UOP, urine lytes, and serum electrolytes.
   9) FEN: Tolerated advancement to tube feeds at 50 cc/hr without
   significant residuals. OG D/C'd when ET tube removed; Dopoff position
   post-trach confirmed.
   -Continue tube feeds
   -Continue ISS for glycemic control
   10) PROPHYLAXIS: heparin UF SC, pneumoboots, PPI
   11) ACCESS:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-7-29**] 08:38 AM
    12) COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**]
   (wk).
    13) Disposition: Continue to wean PEEP and sedation, needs ICU level
   care at this point
 ANXIETY
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-7-29**] 11:30 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-7-29**] 08:38 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**] (wk).
   Code status: Full code
   Disposition: Continue to wean PEEP and sedation, needs ICU level care
   at this point

2196-07-30 09:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tracheotomy tube placed yesterday.
   Remains mechanically ventilated via trach.
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanical ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2196-7-29**] 04:21 PM
   Cefipime - [**2196-7-30**] 12:18 AM
   Bactrim (SMX/TMP) - [**2196-7-30**] 06:04 AM
   Vancomycin - [**2196-7-30**] 08:04 AM
   Infusions:
   Midazolam (Versed) - 18 mg/hour
   Other ICU medications:
   Propofol - [**2196-7-29**] 03:20 PM
   Fentanyl - [**2196-7-29**] 03:22 PM
   Vecuronium - [**2196-7-29**] 04:38 PM
   Methadone Hydrochloride - [**2196-7-30**] 08:03 AM
   Midazolam (Versed) - [**2196-7-30**] 08:03 AM
   Pantoprazole (Protonix) - [**2196-7-30**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-30**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-7-30**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 99 (74 - 123) bpm
   BP: 133/71(90) {95/54(68) - 186/102(134)} mmHg
   RR: 26 (13 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  6,161 mL
                                                                  1,600 mL
   PO:
             TF:
                                                                    425 mL
                                                                    464 mL
   IVF:
                                                                  5,456 mL
                                                                  1,135 mL
   Blood products:
   Total out:
                                                                  7,440 mL
                                                                  3,700 mL
   Urine:
                                                                  7,290 mL
                                                                  3,700 mL
   NG:
                                                                     50 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,279 mL
                                                                 -2,100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.39/40/103/23/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : bilateral, scattered, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   220 K/uL
   95 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   7 mg/dL
   106 mEq/L
   137 mEq/L
   23.3 %
   4.1 K/uL
        [image002.jpg]
                             [**2196-7-29**]  04:44 AM
                             [**2196-7-29**]  04:46 AM
                             [**2196-7-29**]  10:04 AM
                             [**2196-7-29**]  12:25 PM
                             [**2196-7-29**]  04:36 PM
                             [**2196-7-29**]  05:38 PM
                             [**2196-7-29**]  10:08 PM
                             [**2196-7-29**]  10:38 PM
                             [**2196-7-30**]  03:42 AM
                             [**2196-7-30**]  04:58 AM
   WBC
   5.1
   4.1
   Hct
   25.0
   23.3
   Plt
   204
   220
   Cr
   0.8
   0.7
   0.8
   0.8
   TCO2
   23
   24
   23
   25
   25
   25
   Glucose
   143
   70
   88
   95
   Other labs: PT / PTT / INR:11.3/26.5/0.9, ALT / AST:119/111, Alk Phos /
   T Bili:231/0.2, Amylase / Lipase:84/389, Differential-Neuts:49.2 %,
   Band:1.0 %, Lymph:18.9 %, Mono:29.9 %, Eos:1.7 %, Lactic Acid:1.3
   mmol/L, Albumin:2.2 g/dL, LDH:317 IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   Pneumocystis pneumonia, severe.
   RESPIRATORY FAILURE -- Hypoxemic Resp Failure attributed to pneumonia,
   ARDS.   Has remained PEEP sensitive, but now PEEP= 10.  Now with trach,
   hope to move to IPS mode and reduce sedation if tolerates.  Replete
   Phosphate and Mg++
   PULMONARY INFILTRATES -- attributed predominately to Pneumocystis
   pneumonia, although may be component of ARDS, (no evidence for CMV
   co-infection) and now concern for VAP --> empirical vanco/cefopime,
   cipro.  Completing 21-day course of Bactrim for pneumocystis.  Continue
   complete course for VAP.
   SEDATION
 major issue during hospitalization, requiring significant
   doses to provide adequate sedation.  Transition to NGT benzodiazepine,
   wean iv benzodiazepine.  Continue Methadone at current dose.  Switch
   Zyprexa to [**Hospital1 7**] Seroquel to see if more effective.
   HIV -- plan to initiate HAART today.  Need to monitor for possible [**Doctor First Name **]
   once HAART intitiated.
   PANCREATITIS
 chemical pancreatitis, in part attributed to
   medications.   Monitor.
   ELEVATED LFTs
 likely related to medications, but need to monitor for
   infection.
   ANEMIA
 attributed to ACD and medications. Stable.
   HYPOPHOSPHATEMIA -- replete
   NUTRITIONAL SUPPORT -- TF at goal.  Continue.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-7-30**] 07:55 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-7-29**] 08:38 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2196-07-31 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2196-7-30**] 10:01 AM
 BLOOD CULTURED - At [**2196-7-30**] 04:19 PM
 URINE CULTURE - At [**2196-7-30**] 04:40 PM
 SPUTUM CULTURE - At [**2196-7-30**] 08:02 PM
 EKG - At [**2196-7-30**] 10:05 PM
   -PSV started  yesterday.
   -Started darunavir, ritonavir, and truvada per ID.
   -ID recs for antibiotic regimen and duration:day 20 of bactrim, per ID
   continued. Discuss with I.D tomorrow ? d/c bactrim.
   Became tachycardic, hypertensive in mid afternoon and Spiked temp to
   100.8, pan cultured, defervesced with tylenol.
   Pt became hypotensive to 86/49 (MAP 61) ~6am [**7-31**] likely [**1-11**] cumulative
   effect sedating/anxiety meds. Given 500ml x2 bolus - with good effect.
   FI02 dropped from 50 to 40, Pa02 111 to 70, no sig change pH, C02. Peep
   kept at 10.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-30**] 08:06 PM
   Cefipime - [**2196-7-31**] 12:15 AM
   Ciprofloxacin - [**2196-7-31**] 04:41 AM
   Bactrim (SMX/TMP) - [**2196-7-31**] 05:56 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2196-7-30**] 04:05 PM
   Methadone Hydrochloride - [**2196-7-31**] 04:57 AM
   Pantoprazole (Protonix) - [**2196-7-31**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-31**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-31**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.8
C (98.2
   HR: 97 (86 - 125) bpm
   BP: 122/65(84) {90/51(63) - 183/106(132)} mmHg
   RR: 10 (10 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  5,063 mL
                                                                  2,414 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    393 mL
   IVF:
                                                                  3,533 mL
                                                                  1,991 mL
   Blood products:
   Total out:
                                                                  9,100 mL
                                                                  3,270 mL
   Urine:
                                                                  9,100 mL
                                                                  3,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,037 mL
                                                                   -856 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 680 (0 - 697) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 94%
   ABG: 7.39/41/76.[**Numeric Identifier 126**]/23/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   212 K/uL
   7.1 g/dL
   149 mg/dL
   0.8 mg/dL
   23 mEq/L
   5.1 mEq/L
   8 mg/dL
   105 mEq/L
   137 mEq/L
   22.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2196-7-29**]  05:38 PM
                             [**2196-7-29**]  10:08 PM
                             [**2196-7-29**]  10:38 PM
                             [**2196-7-30**]  03:42 AM
                             [**2196-7-30**]  04:58 AM
                             [**2196-7-30**]  11:38 AM
                             [**2196-7-30**]  05:50 PM
                             [**2196-7-30**]  10:57 PM
                             [**2196-7-31**]  02:40 AM
                             [**2196-7-31**]  02:55 AM
   WBC
   4.1
   5.0
   Hct
   23.3
   22.2
   Plt
   220
   212
   Cr
   0.8
   0.8
   0.8
   TCO2
   25
   25
   25
   24
   25
   26
   26
   Glucose
   88
   95
   149
   Other labs: PT / PTT / INR:12.5/28.6/1.1, ALT / AST:107/87, Alk Phos /
   T Bili:246/0.2, Amylase / Lipase:84/389, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:275 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 ANXIETY
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with a h/o [**Hospital **] transfered to MICU with recent diagnosis of HIV and
   new diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS requiring intubation
   with difficulty weaning from ventilator and sedation but trach placed
   successfully [**7-29**].
   1) HYPOXEMIC RESPIRATORY FAILURE: Likely secondary to PCP pneumonia
   with ARDS physiology. Now likely has superimposed PNA. On bactrim day
   21 and prednisone for PCP, [**Name10 (NameIs) **] day 8 of ?14, cefepime/cipro day 6 of
   ?14 for suspected VAP. CXR improved. Leukocytosis has resolved. No
   organisms on gram stain on BAL, with respiratory cx: oropharyngeal
   flora absent. Yeast >100,000 organisms/mL, and prelim fungal culture:
   no fungus.
   *Trach placed, with vent settings at 50% FiO2, PEEP 10 with stable
   ABG.  High PaO2 on recent ABG, so we can likely decrease PEEP very
   slowly as tolerated vs. transition to PSV. Given his on-going issues
   with anxiety/agitation, he may be more comfortable on PSV, so trial of
   PSV with continued PEEP of 10 is preferred.
   *? VAP: CXR improved. Leukocytosis has resolved. No organisms on gram
   stain on BAL, with respiratory cx: oropharyngeal flora absent. Yeast
   >100,000 organisms/mL, and prelim gungal culture: no fungus. BAL was
   performed several days after starting antibiotics, so we will likely
   complete his current course. We will seek ID recommendations for the
   appropriate duration of treatment.
   *Sedation: regimen yesterday was Midazolam at 15 mg/hr, with Quetiapine
   25 mh [**Hospital1 7**] replacing Olanzapine, and Diazepam 10 mg increased to Q4Hr,
   with continued HTN and tachycardia during agitated episodes, but
   without further desaturations. Agitation may improve with PSV instead
   of AC. Agitation is worse at night.
   *HAART initiated yesterday per ID recommendation.
   * Prednisone: Day 7 of 20mg daily for duration of treatment. No
   evidence to suggest utility of high dose steroids in severe PCP beyond
   acute presentation, and could do more harm in setting of VAP.
   -continue PSV, follow ABG's for settings adjustments.
   - Reassess sedation - will follow up with pharmacy regarding potential
   adjustments to current regimen that would minimize sedation if
   HTN/tachycardia persist despite transition to PSV. Otherwise, attempt
   to wean Midazolam as tolerated and continue Quetiapine and Diazepam
   pending pharmacy recommendations.
   -Continue Bactrim, cefepime/cipro, and [**Hospital1 **]. Consider adjustment to
   abx regimen and/or treatment duration pending ID recommendations.
   - CXR Q24H or prn clinical changes.
   2) LABILE BP: Continues to be hypertensive with agitation, no
   significant hypotensive episodes and decreased range of BP.  Continue
   to monitor. No pressors have been required x4 days.
   - Adjust/wean sedation per above.
    -Cautious use of fluids for low BPs. Levophed for MAPs <60.
   3) TRANSAMINITIS/PANCREATITIS: Transaminases stable/slowly increasing
   in the past days. Lipase with continued elevation, spike yesterday
   likely due to propofol used during trach placement. Ddx ? drug toxicity
   (bactrim +/- Tylenol) vs obstruction vs ?HIV cholangiopathy on US, vs
   acalculus cholecystitis. More likely drug toxicity because RUQ US on
   [**2196-7-26**] showed no acute cholecystitis or ductal dilatation. Negative
   crypto and CMV. Unclear why transaminases rising in the past several
   days.
   - Continue to trend LFTs, lipase
   - Limit Acetaminophen to 2g.day
   4) FEVERS: T to 100.8 yesterday, WBC decreased, with new monocytosis.
   Likely due to VAP. Blood Cx pending, C diff negative, stool culture
   negative. No microorganisms on BAL gram stain yesterday, cx with yeast.
   Sputum with yeast.
   *Monocytosis: Likely due to recovery from acute infection, although new
   infection could also potentially cause monocytosis. However, he is on
   an extensive antibiotic regimen and has an improved clinical picture,
   so new infection is less likely.
   -Continue to monitor WBC.
   -Continuing to treat with broad spectrum antibiotics, with adjustment
   to regimen pending ID recommendations, as per above.
   - Keep Acetaminophen under 2g daily due to transaminitis, as per above.
   5) ANEMIA: Hct 23.3, generally stable around around 23-25. Anemia
   likely due to HIV, stress, phlebotomy, nutrition suboptimal. No bone
   marrow biopsy at this time. Heme onc following, peripheral smears
   consistent with HIV. No signs of acute blood loss: continues to be warm
   and well-perfused, Cr within normal limits.
   - Continue with Q24Hr Hct checks to minimize blood loss due to
   phlebotomy.
   - Transfuse to > 21.
   6) Low PO4 and low Mg: improved - both WNL on this morning's labs.
   -Continue to trend Mg and phosphate, continue to trend
    7) HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) - recent diagnosis. Genotyping arrived yesterday.
   -HAART started yesterday - - darunavir 800 mg PO once daily, ritonavir
   100 mg PO once daily, and truvada 1 tab PO once daily this AM.
   -ID following.
   -Follow LFTs given potential hepatotoxicity of HAART regimen.
   -Follow respiratory status for immune reconstitution inflammation
   syndrome.
   8)   URINE ELECTROLYTES: FeNa 2.9 with ongoing autodiuresis.
   Creatinine WNL, good UOP. Unclear etiology at this point, potentially
   due to solute diuresis.
   -Continue to follow UOP, urine lytes, and serum electrolytes.
   9) FEN: Tolerated advancement to tube feeds at 50 cc/hr without
   significant residuals. OG D/C'd when ET tube removed; Dopoff position
   post-trach confirmed.
   -Continue tube feeds
   -Continue ISS for glycemic control
   10) PROPHYLAXIS: heparin UF SC, pneumoboots, PPI
    12) COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**]
   (wk).
    13) Disposition: Continue to wean PEEP and sedation, needs ICU level
   care at this point
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-7-31**] 05:35 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-7-29**] 08:38 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2196-07-31 10:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach, tolerating IPS mode.
   Experienced fever last PM, without new localizing signs.
   Experienced episode of hypotension this AM, responsed to iv fluid bous
   500 ml x 2.  Attritubed to medications.
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanical ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-31**] 12:15 AM
   Ciprofloxacin - [**2196-7-31**] 04:41 AM
   Bactrim (SMX/TMP) - [**2196-7-31**] 05:56 AM
   Vancomycin - [**2196-7-31**] 08:17 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2196-7-30**] 04:05 PM
   Pantoprazole (Protonix) - [**2196-7-31**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-31**] 07:42 AM
   Methadone Hydrochloride - [**2196-7-31**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-7-31**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.8
C (98.2
   HR: 91 (86 - 125) bpm
   BP: 104/60(74) {90/51(63) - 183/106(132)} mmHg
   RR: 20 (10 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  5,063 mL
                                                                  2,753 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    492 mL
   IVF:
                                                                  3,533 mL
                                                                  2,231 mL
   Blood products:
   Total out:
                                                                  9,100 mL
                                                                  4,220 mL
   Urine:
                                                                  9,100 mL
                                                                  3,980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,037 mL
                                                                 -1,467 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 716 (315 - 716) mL
   PS : 12 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 91%
   ABG: 7.39/41/76.[**Numeric Identifier 126**]/23/0
   Ve: 10 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.1 g/dL
   212 K/uL
   149 mg/dL
   0.8 mg/dL
   23 mEq/L
   5.1 mEq/L
   8 mg/dL
   105 mEq/L
   137 mEq/L
   22.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2196-7-29**]  05:38 PM
                             [**2196-7-29**]  10:08 PM
                             [**2196-7-29**]  10:38 PM
                             [**2196-7-30**]  03:42 AM
                             [**2196-7-30**]  04:58 AM
                             [**2196-7-30**]  11:38 AM
                             [**2196-7-30**]  05:50 PM
                             [**2196-7-30**]  10:57 PM
                             [**2196-7-31**]  02:40 AM
                             [**2196-7-31**]  02:55 AM
   WBC
   4.1
   5.0
   Hct
   23.3
   22.2
   Plt
   220
   212
   Cr
   0.8
   0.8
   0.8
   TCO2
   25
   25
   25
   24
   25
   26
   26
   Glucose
   88
   95
   149
   Other labs: PT / PTT / INR:12.5/28.6/1.1, ALT / AST:107/87, Alk Phos /
   T Bili:246/0.2, Amylase / Lipase:84/389, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:275 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   Pneumocystis pneumonia, severe.
   RESPIRATORY FAILURE -- Hypoxemic Resp Failure attributed to pneumonia,
   ARDS.   Previously PEEP sensitive, but now PEEP= 10.  Now with trach,
   hope to move to IPS mode and reduce sedation if tolerates.  Replete
   Phosphate and Mg++.  Continue IPS mode.  Monitor
   PULMONARY INFILTRATES -- attributed predominately to Pneumocystis
   pneumonia, although may be component of ARDS, (no evidence for CMV
   co-infection) and now concern for VAP --> empirical vanco/cefopime,
   cipro.  Completing 21-day course of Bactrim for pneumocystis.  Continue
   complete course for VAP.
   HYPOTENSION -- transient, possibly related to medication (sedation).
   SEDATION
 major issue during hospitalization, requiring significant
   doses to provide adequate sedation.  Now off iv versed and fentanyl,
   and on benzodiazepines and methadone per NGT.  Monitor for evidence of
   benzodiazepine withdrawal.  Continue Methadone at current dose.  Switch
   Zyprexa to [**Hospital1 7**] Seroquel to see if more effective.
   FEVER -- no localizing signs.  Monitor for line-related infection, C.
   diff.  Discontinue unnecessary lines.  Monitor temperature.
   HIV -- Initiated HAART.  Need to monitor for possible [**Doctor First Name **] on HAART.
   PANCREATITIS
 chemical pancreatitis, in part attributed to
   medications.   Monitor.
   ELEVATED LFTs
 likely related to medications, but need to monitor for
   infection.
   ANEMIA
 attributed to ACD and medications. Stable.
   HYPOPHOSPHATEMIA -- replete
   NUTRITIONAL SUPPORT -- TF at goal.  Continue.  Monitor lipase.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-7-31**] 05:35 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-7-29**] 08:38 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2196-08-01 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2196-7-31**] 10:00 AM
   -Discussed plan with ID - recommend continued Bactrim/prednisone
   treatment for now, further taper prednisone.  Today will be last day of
   treatment for VAP (Vanco, cefipime, Cipro), but will possibly continue
   Bactrim for several more days while tapering prednisone.  Will
   follow-up final plan with ID today. Will need prophylactic dose of
   Bactrim going forward after discontinuation of current Bactrim regimen.
   -ABG in afternoon stable with normal CO2, low-normal PO2 - reduced PS
   from 12 to 10.  After reduced pressure support HR increased and O2 sat
   decreased slightly, so PS was increased back to 12.
   -Later in the evening began to have significantly increased HR and BP,
   associated with anxiety.  Versed bolus given without mild effect,
   started back on Versed drip, now at 12 mg/hr.
   -Morning ABG showed PaO2 64, increased oxygen from 40 to 50%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-7-31**] 08:00 PM
   Cefipime - [**2196-7-31**] 11:29 PM
   Ciprofloxacin - [**2196-8-1**] 04:09 AM
   Bactrim (SMX/TMP) - [**2196-8-1**] 06:12 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-31**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2196-7-31**] 03:41 PM
   Methadone Hydrochloride - [**2196-7-31**] 06:01 PM
   Midazolam (Versed) - [**2196-8-1**] 04:27 AM
   Other medications:
   Changes to medical and family history: N/A
   Review of systems is unchanged from admission except as noted below
   Review of systems: N/A
   Flowsheet Data as of  [**2196-8-1**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 108 (84 - 126) bpm
   BP: 150/84(105) {98/56(70) - 161/93(115)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  6,085 mL
                                                                  1,713 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                    314 mL
   IVF:
                                                                  3,993 mL
                                                                  1,329 mL
   Blood products:
   Total out:
                                                                  7,605 mL
                                                                  2,060 mL
   Urine:
                                                                  7,365 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,520 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 880 (612 - 880) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 91%
   ABG: 7.43/37/68/22/0
   Ve: 10 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   7.1 g/dL
   133 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.5 mEq/L
   10 mg/dL
   105 mEq/L
   137 mEq/L
   22.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2196-7-30**]  11:38 AM
                             [**2196-7-30**]  05:50 PM
                             [**2196-7-30**]  10:57 PM
                             [**2196-7-31**]  02:40 AM
                             [**2196-7-31**]  02:55 AM
                             [**2196-7-31**]  04:45 PM
                             [**2196-7-31**]  08:07 PM
                             [**2196-8-1**]  12:09 AM
                             [**2196-8-1**]  03:34 AM
                             [**2196-8-1**]  06:04 AM
   WBC
   5.0
   5.5
   Hct
   22.2
   22.9
   Plt
   212
   252
   Cr
   0.8
   0.8
   TCO2
   24
   25
   26
   26
   26
   25
   25
   25
   Glucose
   149
   133
   Other labs: PT / PTT / INR:12.0/26.9/1.0, ALT / AST:94 (was 107)/65
   (was 87), Alk Phos / T Bili:243 (was 246)/0.1, Amylase / Lipase:84/276
   (was 389), Differential-Neuts:90.0 %, Band:0.0 %, Lymph:7.0 %, Mono:3.0
   %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:275 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
Sputum culture from [**2196-7-30**]: >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   YEAST(S).
   Fecal culture from [**2196-7-30**]: C. diff negative. Cx pending
   Blood culture from [**2196-7-30**] pending
   [**Month/Day/Year **] from [**2196-7-31**]: In comparison with the study of [**7-30**], there is a
   decreasing lung volume with continued diffuse multifocal
   consolidations. Tracheostomy tube and abdominal tube remain in place.
   The tip of the PICC line is difficult to demonstrate though it extends
   at least into the superior vena cava.
   Assessment and Plan
 ANXIETY
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation with difficulty
   weaning from ventilator and sedation, then likely superimposed VAP, now
   improving after broadening of abx coverage.  Overall respiratory status
   improving, trach placed successfully [**7-29**].
   1) HYPOXEMIC RESPIRATORY FAILURE: Likely secondary to PCP pneumonia
   with ARDS physiology. On bactrim day 21 and prednisone for PCP. [**Name10 (NameIs) **]
   improved. Leukocytosis has resolved. Sputum culture from [**7-30**] with gram
   positive cocci and clusters, gram positive rods, and yeast.
   *Stable on PSV but unable to reduce PS from 12 yesterday. Can recheck
   ABG this AM and consider weaning FiO2, then PS as tolerated, but
   sedation remains large impediment to attempts to wean ventilation.
   *Sedation: Continuing to have episodes of agitation with hypertension
   and tachycardia, worse at night.  Continuing PO Diazepam and
   Quetiapine, IV methadone and restarted on IV Fentanyl drip last night.
   Plan was to transition to PO methadone per pharmacy recs. Given than
   HTN and tachycardia continue to be a concern at night, we can increase
   Quetiapine to more therapeutic doses. Beta-blockers and other
   anti-HTN/HR drugs may be helpful but would not address the underlying
   problem of anxiety. Also consider starting SSRI; need to check
   interactions with other medications, especially HAART agents.
   * VAP: Per ID
s recommendations, completed vanco and cefepime/cipro
   yesterday.
   *PCP: [**Name10 (NameIs) 54**] ID, will likely continue Bactrim for a few more days before
   transitioning to prophylactic dose and will taper steroids. Final
   recommendations from ID pending.
   -Continue to attempt to wean FiO2 and PS as tolerated.
   -Increase Quetiapine to 50 mg NG [**Hospital1 7**].
   -EKG to check QTc in setting of Quetiapine.
   -Follow up with pharm regarding interactions with SSRI and current
   medications.
   -Attempt to wean Fentanyl drip.
   -Continue Bactrim and steroids; follow up ID recommendations
   - [**Hospital1 **] Q24H or prn clinical changes.
   2) LABILE BP: Continues to be hypertensive with agitation, occasionally
   hypotensive, responsive to fluids.  Continue to monitor. No pressors
   have been required for nearly 1 week.
   -Per above, increased Quetiapine, consider starting SSRI.
   -Fluid bolus for hypotension, Levophed if needed for MAPs <60.
   3) TRANSAMINITIS/PANCREATITIS: LFT
s persistently elevated, with lipase
   increased after propofol [**7-29**] but now stable to decreased even after
   starting potentially hepatotoxic HAART regimen. Negative CT, negative
   RUQ ultrasound, no change in abdominal exam or reported pain.  Likely
   due to multiple medications.
    - Continue to trend LFTs, lipase.
   - Limit Acetaminophen to 2g.day
    4) FEVERS: T to 99, blood Cx pending, sputum with gram positive cocci
   and clusters, gram positive rods, and yeast.
    C diff negative, stool culture pending. Resolution of monocytosis.
   -Continue to monitor WBC.
   - Keep Acetaminophen under 2g daily due to transaminitis, as per above.
   5) ANEMIA: Hct 22.9, generally stable around around 23-25. Anemia
   likely due to HIV, stress, phlebotomy, nutrition suboptimal. No signs
   of acute blood loss: continues to be warm and well-perfused, Cr within
   normal limits.
   - Continue with Q24Hr Hct checks to minimize blood loss due to
   phlebotomy.
   - Transfuse to > 21.
    6) Low PO4 and low Mg: improved - both WNL on this morning's labs.
    -Continue to trend Mg and phosphate, replete as necessary.
    7) HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) - recent diagnosis. HAART recently started, with stable
   LFTs.
   -Continue HAART
   -ID following.
   -Follow LFTs given potential hepatotoxicity of HAART regimen.
   -Follow respiratory status for immune reconstitution inflammation
   syndrome.
   8)   URINE ELECTROLYTES: Most recent FeNa 2.9 with ongoing
   autodiuresis.  Creatinine WNL, good UOP. Unclear etiology at this
   point, potentially due to solute diuresis.
   -Continue to follow UOP and Cr.
   -Negative fluid balance over past several days - fluid bolus for any
   signs of hypovolemia.
   9) FEN:
   -Continue tube feeds. Glycemic control with ISS.
   -Consult thoracics regarding GJ tube placement, in anticipation of
   transfer to rehab facility in the future.
   10) PROPHYLAXIS: heparin UF SC, pneumoboots, PPI
   11) ACCESS:
   -Arterial Line - [**2196-7-11**] 12:32 PM
   -PICC Line - [**2196-7-28**] 04:10 PM
   -20 Gauge - [**2196-7-29**] 08:38 AM
    12) COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**]
   (wk).
    13) Disposition: Continue to wean vent and sedation, needs ICU level
   care at this point. Will follow up with case management regarding
   potential facilities for trach vent pending stabilization of above.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-1**] 03:33 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-7-29**] 08:38 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**] (wk).
   Code status: Full code
   Disposition: Continue to wean vent and sedation, needs ICU level care
   at this point
   ------ Protected Section ------
   ADDENDUM:
   Physical exam:
   General: Sedated, generally following commands and nodding
   appropriately.
   Chest: Regular rate and rhythm, normal S1 and S2.
   Respiratory: Crackles bilaterally on anterior exam.
   Abdomen: Soft, non-tender, hypoechoic but with BS present.
   Extremities: Warm, well-perfused, 1+ edema bilaterally.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9521**] MS
   on:[**2196-8-1**] 14:36 ------

2196-08-01 09:47:00 Physician Attending Progress Note
Chief Complaint: resp faqilure ARDS and PCP with [**Name9 (PRE) 3396**]
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2196-7-31**] 10:00 AM
   Required sedation overnight for anxiety then tachycradic and HTN to
   point of dropping O2 sats- restarted on Versed drip
   This occurs almost every evening
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-31**] 11:29 PM
   Ciprofloxacin - [**2196-8-1**] 04:09 AM
   Bactrim (SMX/TMP) - [**2196-8-1**] 06:12 AM
   Vancomycin - [**2196-8-1**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 11 mg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2196-7-31**] 06:01 PM
   Midazolam (Versed) - [**2196-8-1**] 04:27 AM
   Pantoprazole (Protonix) - [**2196-8-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-8-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-1**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 84 (82 - 126) bpm
   BP: 110/55(74) {98/55(70) - 161/93(115)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  6,085 mL
                                                                  2,268 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                    486 mL
   IVF:
                                                                  3,993 mL
                                                                  1,662 mL
   Blood products:
   Total out:
                                                                  7,605 mL
                                                                  3,060 mL
   Urine:
                                                                  7,365 mL
                                                                  2,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,520 mL
                                                                   -792 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 751 (612 - 880) mL
   PS : 12 cmH2O
   RR (Spontaneous): 11
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.43/37/68/22/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 136
   Physical Examination
   Gen: lying in bed on vent, awake endorsing anxiety
   HEENT: ETT and NGT
   CV: RR no audible murmurs
   Chest: fair air movement
 no wheezes or rales
   ABd: soft distended hypoactive BS
   Ext:  2+ edema
   Neuro: awake, anxious, answering ?s with nods moving all ext but very
   weak.
   Labs / Radiology
   7.1 g/dL
   252 K/uL
   133 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.5 mEq/L
   10 mg/dL
   105 mEq/L
   137 mEq/L
   22.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2196-7-30**]  11:38 AM
                             [**2196-7-30**]  05:50 PM
                             [**2196-7-30**]  10:57 PM
                             [**2196-7-31**]  02:40 AM
                             [**2196-7-31**]  02:55 AM
                             [**2196-7-31**]  04:45 PM
                             [**2196-7-31**]  08:07 PM
                             [**2196-8-1**]  12:09 AM
                             [**2196-8-1**]  03:34 AM
                             [**2196-8-1**]  06:04 AM
   WBC
   5.0
   5.5
   Hct
   22.2
   22.9
   Plt
   212
   252
   Cr
   0.8
   0.8
   TCO2
   24
   25
   26
   26
   26
   25
   25
   25
   Glucose
   149
   133
   Other labs: PT / PTT / INR:12.0/26.9/1.0, ALT / AST:94/65, Alk Phos / T
   Bili:243/0.1, Amylase / Lipase:84/276, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:275 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 ANXIETY
 ANEMIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   Pneumocystis pneumonia, severe.
   RESPIRATORY FAILURE -- Hypoxemic Resp Failure attributed to pneumonia,
   ARDS.   Previously PEEP sensitive, but now PEEP= 10.  Now with trach,
   hope to move to IPS mode and reduce sedation as tolerates. OOB to chair
   PULMONARY INFILTRATES -- attributed predominately to Pneumocystis
   pneumonia, although may be component of ARDS, (no evidence for CMV
   co-infection) and now concern for VAP --> empirical vanco/cefopime,
   cipro completed.  Completing 21-day course of Bactrim for
   pneumocystis.
   SEDATION
 major issue during hospitalization, requiring significant
   doses to provide adequate sedation.  Every night he ends up more
   anxious and back on IV Versed. Continue Methadone at current dose.
   Increase night time Seroqeul and watch QT.
   Consider psych consultation if no further progress -
   FEVER -- no localizing signs.  Monitor for line-related infection, C.
   diff.  Discontinue unnecessary lines.  Monitor temperature.
   HIV -- Initiated HAART.  Need to monitor for possible [**Doctor First Name **] on HAART.
   PANCREATITIS
 chemical pancreatitis, in part attributed to
   medications.   trend
   ELEVATED LFTs
 likely related to medications, but need to monitor for
   infection.
   Reminaing issues as per Housestaff
   ICU Care
   Nutrition:  Peptamen 1.5 (Full) - [**2196-8-1**] 03:33 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-7-29**] 08:38 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication: with partner
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2196-08-02 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 45M with h/o HTN with recent diagnosis of HIV and new
   diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS requiring intubation,
   with likely superimposed VAP.
   24 Hour Events:
 EKG - At [**2196-8-1**] 05:45 PM
 EKG - At [**2196-8-1**] 10:02 PM
   -Vent settings weaned from PS 12 to 10, with stable ABG.
   -Increased Quetiapine to 50mg [**Hospital1 7**], + 25mg qHS last night, QTc 424 on
   [**7-31**], 418 today. Weaned Midazolam from peak of 12 to 9 currently.
   Improved anxiety overnight.
   -Cardiothoracic attending does not perform GJ-tubes in this setting,
   need to contact GI tomorrow.
   -Transfused 1u PRBC for hct of 19.7, goal of > 21.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-31**] 11:29 PM
   Ciprofloxacin - [**2196-8-1**] 04:09 AM
   Vancomycin - [**2196-8-1**] 08:00 AM
   Bactrim (SMX/TMP) - [**2196-8-2**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-8-2**] 12:00 AM
   Midazolam (Versed) - [**2196-8-2**] 06:07 AM
   Other medications:
   Changes to medical and family history: N/A
   Review of systems is unchanged from admission except as noted below
   Review of systems: N/A
   Flowsheet Data as of  [**2196-8-2**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 92 (74 - 114) bpm
   BP: 151/76(102) {96/51(67) - 155/84(109)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 97.7 kg
   Height: 66 Inch
           Total In:
                                                                  4,504 mL
                                                                  1,184 mL
   PO:
           TF:
                                                                  1,200 mL
                                                                    347 mL
   IVF:
                                                                  2,974 mL
                                                                    637 mL
   Blood products:
   140 mL
   Total out:
                                                                  5,530 mL
                                                                  1,880 mL
   Urine:
                                                                  5,410 mL
                                                                  1,880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,026 mL
                                                                   -696 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 610 (610 - 820) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 93%
   ABG: 7.37/49/111/24/2
   Ve: 9.6 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: Sedated but responsive to voice and nodding
   appropriately.
   Cardiovascular: Regular rate and rhythm, normal S1 and S2.
   Respiratory / Chest: Clear to auscultation bilaterally.
   Abdominal: Soft, non-tender, BS+ (improvement from hypoechoic
   yesterday).
   Extremities: Warm, well-perfused. 1+ edema bilaterally.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   6.2 g/dL
   106 mg/dL
   0.8 mg/dL
   24 mEq/L
   5.1 mEq/L
   12 mg/dL
   106 mEq/L
   137 mEq/L
   19.7 %
   4.2 K/uL
        [image002.jpg]
                             [**2196-7-31**]  02:40 AM
                             [**2196-7-31**]  02:55 AM
                             [**2196-7-31**]  04:45 PM
                             [**2196-7-31**]  08:07 PM
                             [**2196-8-1**]  12:09 AM
                             [**2196-8-1**]  03:34 AM
                             [**2196-8-1**]  06:04 AM
                             [**2196-8-1**]  12:46 PM
                             [**2196-8-2**]  03:25 AM
                             [**2196-8-2**]  03:56 AM
   WBC
   5.0
   5.5
   4.2
   Hct
   22.2
   22.9
   19.7
   Plt
   [**Telephone/Fax (3) 9641**]
   Cr
   0.8
   0.8
   0.8
   TCO2
   26
   26
   25
   25
   25
   25
   29
   Glucose
   149
   133
   106
   Other labs: PT / PTT / INR:12.1/25.4/1.0, ALT / AST:74 (was 94)/49 (was
   65), Alk Phos / T Bili:215 (was 243)/0.1, Amylase / Lipase:84/276,
   Differential-Neuts:90.0 %, Band:0.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:248 IU/L, Ca++:8.1
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: [**Telephone/Fax (3) **] from [**8-2**] with increased lung volumes and persistent to
   slightly improved diffuse opacities bilaterally.
   Microbiology: Stool from [**7-31**] negative for C diff, cx pending.
   Sputum from [**7-30**]:
   GRAM STAIN (Final):       >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):
   GRAM POSITIVE COCCI. IN PAIRS AND CLUSTERS.  2+   (1-5 per 1000X
   FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD): YEAST(S).
      RESPIRATORY CULTURE (Preliminary):    SPARSE GROWTH OROPHARYNGEAL
   FLORA.
   Blood cx from [**7-30**] pending
   Assessment and Plan
 ANXIETY
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, now improving after receiving a course of abx but with difficulty
   weaning from ventilator and sedation, likely
   1) HYPOXEMIC RESPIRATORY FAILURE: Likely secondary to PCP pneumonia and
   probable resolving secondary pneumonia with ARDS physiology. On bactrim
   day 23 and prednisone for PCP. [**Name10 (NameIs) **] improved. Leukocytosis has resolved.
   Sputum culture from [**7-30**] with gram stain with gram positive cocci in
   pairs and clusters, gram positive rods, and yeast but prelim cx with
   sparse growth of orophargyngeal flora.
   *Vent settings weaned to PS 10 with stable ABG. PaO2 is elevated this
   AM, so can wean FiO2, with subsequent weaning PEEP as tolerated. He
   does have elevated PaCO2, which may be secondary to his sedation
   regimen.
   *Sedation: Improved agitation overnight on increased Quetiapine and
   Midazolam of [**8-18**]. Since he did well with increased Quetiapine and 25
   mg HS dose x1, we can increase his QHS dose from 50 mg to 75 mg
   standing. Given his elevated PaCO2, we should attempt to minimize his
   benzos and opiate. Ritonavir inhibits benzo metabolism, so we can
   decrease the interval of his Diazepam standing dose, with subsequent
   weaning of Midazolam as tolerated. We can also decrease the frequency
   of his Methadone dose to further minimize respiratory depression given
   his lack of pain.
   Once his response to the new Diazepam and Methadone frequency is noted,
   we can proceed with weaning Midazolam IV in favor of anxiety control
   with Diazepam (PO) to facilitate disposition. Also consider starting
   SSRI for long-term anxiety control; need to check interactions with
   other medications, especially HAART agents.
   * VAP: Per ID
s recommendations, completed vanco and cefepime/cipro 2
   days ago; prelim sputum cx negative.
   *PCP: [**Name10 (NameIs) 54**] ID, will likely continue Bactrim for a few more days before
   transitioning to prophylactic dose and will taper steroids. Final
   recommendations from ID still pending.
   -Continue to attempt to slowly wean vent FiO2 setting, then PS and PEEP
   as tolerated.
   -Follow up final sputum cx.
   -Increase QHS Quetiapine from 50 mg to 75 mg, and continue QAM dose at
   50mg.
   -Decrease Diazepam frequency from 10 mg NG Q4H to Q8H.
   -Decrease Methadone frequency from 20 mg NG Q6H to Q8H.
   -Wean Midazolam as tolerated.
   -Follow up with pharm regarding interactions with SSRI and current
   medications.
   -Continue Bactrim and steroids; follow up ID recommendations for
   duration.
   - [**Name10 (NameIs) **] prn clinical changes only.
   2) ANEMIA: Hct 19.7 this AM, otherwise generally stable around around
   23-25. Baseline anemia likely due to HIV, stress, phlebotomy, nutrition
   suboptimal. Reason for acute Hct drop unclear but it could be due to
   impaired production in the setting of HIV. No signs of acute blood
   loss: continues to be warm and well-perfused, Cr within normal limits.
   Guaiac status slightly positive this AM. LDH and tbili are WNL, so
   hemolysis is less likely. WBC and plts also down, but no IVF yesterday,
   with net negative fluid balance in 24Hrs, so hemodilution is less
   likely. If Hct does not appropriate respond to transfusion, consider
   hemolysis labs (haptoglobin, retic count, peripheral smear).
   - Check Hct this AM.
   - Reduce frequency of lab draws to QAM for CBC and electrolyes and Q2-3
   days for LFTs.
   -Guaiaic stool.
   -Continue PPI [**Hospital1 7**].
   - Transfuse to > 21.
   3) LABILE BP: Continues to be hypertensive with agitation, occasionally
   hypotensive, responsive to fluids.  Continue to monitor. No pressors
   have been required for nearly 1 week.
   -Per above, increase QHS dose of Quetiapine, decrease frequency of
   Diazepam and Methadone, and attempt to wean Midazolam.
   -Fluid bolus for hypotension, Levophed if needed for MAPs <60.
   4) TRANSAMINITIS/PANCREATITIS: LFT
s persistently elevated, with lipase
   increased after propofol [**7-29**] but now trednign down even after starting
   potentially hepatotoxic HAART regimen. Negative CT, negative RUQ
   ultrasound, no change in abdominal exam or reported pain.  Likely due
   to multiple medications.
    - Continue to trend LFTs, lipase.
   - Limit Acetaminophen to 2g.day
   5) FEVERS: T within normal limits and clinical picture improved, last
   spiked on [**7-30**] with blood Cx pending, sputum cx negative on prelim
   read. C diff negative, stool culture pending.
   -Continue to monitor WBC.
   - Keep Acetaminophen under 2g daily due to transaminitis, as per above.
    6) Low PO4 and low Mg: improved - both WNL on this morning's labs.
    -Continue to trend Mg and phosphate, replete as necessary.
    7) HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) - recent diagnosis. HAART recently started, with stable
   LFTs.  Stable to improved respiratory status with no signs of immune
   reconstitution inflammation syndrome.
   -Continue HAART
   -ID following.
   -Follow LFTs given potential hepatotoxicity of HAART regimen.
   8)   URINE ELECTROLYTES: Ongoing autodiuresis.  Creatinine WNL, good
   UOP. Unclear etiology at this point, potentially due to solute
   diuresis.
   -Continue to follow UOP and Cr.
   -Negative fluid balance over past several days - fluid bolus for any
   signs of hypovolemia.
   9) FEN:
   -Continue tube feeds. Glycemic control with ISS.
   -Consult GI regarding GJ tube placement, in anticipation of transfer to
   rehab facility in the future.
   10) PROPHYLAXIS: heparin UF SC, pneumoboots, PPI
   11) ACCESS:
   -Arterial Line - [**2196-7-11**] 12:32 PM. Consider removing A line after
   assessing for ABG-VBG PaO2 and SpO2 correlation.
   -PICC Line - [**2196-7-28**] 04:10 PM
   -20 Gauge - [**2196-7-29**] 08:38 AM
    12) COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**]
   (wk).
    13) Disposition: Continue to wean vent and sedation, needs ICU level
   care at this point. Case manager aware of patient.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-1**] 02:31 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-8-2**] 05:17 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: with HCP, partner and patient.
   Code status: Full code
   Disposition: Continue to wean vent and sedation, needs ICU level care
   at this point. Case manager aware of patient.

2196-08-02 09:41:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2196-8-1**] 05:45 PM
 EKG - At [**2196-8-1**] 10:02 PM
   OOB to chair yesterday
   Less agitation overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-31**] 11:29 PM
   Ciprofloxacin - [**2196-8-1**] 04:09 AM
   Vancomycin - [**2196-8-1**] 08:00 AM
   Bactrim (SMX/TMP) - [**2196-8-2**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2196-8-2**] 06:07 AM
   Pantoprazole (Protonix) - [**2196-8-2**] 08:32 AM
   Heparin Sodium (Prophylaxis) - [**2196-8-2**] 08:32 AM
   Other medications:
   Sliding Scale, Bactrim, Nystatin, Truvada, Ritonovir, Chlorhex Senna
   Colace Folate MVI, Seroquel 50/75
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-2**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 67 (66 - 114) bpm
   BP: 125/69(88) {96/51(67) - 155/87(109)} mmHg
   RR: 9 (9 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 97.7 kg
   Height: 66 Inch
           Total In:
                                                                  4,504 mL
                                                                  1,681 mL
   PO:
           TF:
                                                                  1,200 mL
                                                                    483 mL
   IVF:
                                                                  2,974 mL
                                                                    698 mL
   Blood products:
   350 mL
   Total out:
                                                                  5,530 mL
                                                                  3,300 mL
   Urine:
                                                                  5,410 mL
                                                                  2,800 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                 -1,026 mL
                                                                 -1,619 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 838 (610 - 838) mL
   PS : 10 cmH2O
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: 7.37/49/111/24/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Gen: lying in bed on vent, opens eyes to stimulation, more sedated
   today
   HEENT: trach Dophoff
   CV: RR no audible murmurs
   Chest: fair air movement
 no wheezes or rales
   ABd: soft distended + BS
   Ext:  2+ edema
 still left hand edema
   Neuro: awake, anxious, answering ?s with nods moving all ext but very
   weak
   Labs / Radiology
   6.2 g/dL
   244 K/uL
   106 mg/dL
   0.8 mg/dL
   24 mEq/L
   5.1 mEq/L
   12 mg/dL
   106 mEq/L
   137 mEq/L
   19.7 %
   4.2 K/uL
        [image002.jpg]
                             [**2196-7-31**]  02:40 AM
                             [**2196-7-31**]  02:55 AM
                             [**2196-7-31**]  04:45 PM
                             [**2196-7-31**]  08:07 PM
                             [**2196-8-1**]  12:09 AM
                             [**2196-8-1**]  03:34 AM
                             [**2196-8-1**]  06:04 AM
                             [**2196-8-1**]  12:46 PM
                             [**2196-8-2**]  03:25 AM
                             [**2196-8-2**]  03:56 AM
   WBC
   5.0
   5.5
   4.2
   Hct
   22.2
   22.9
   19.7
   Plt
   [**Telephone/Fax (3) 9641**]
   Cr
   0.8
   0.8
   0.8
   TCO2
   26
   26
   25
   25
   25
   25
   29
   Glucose
   149
   133
   106
   Other labs: PT / PTT / INR:12.1/25.4/1.0, ALT / AST:74/49, Alk Phos / T
   Bili:215/0.1, Amylase / Lipase:84/276, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:248 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 ANXIETY
 ANEMIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   Pneumocystis pneumonia, severe.
   RESPIRATORY FAILURE -- Hypoxemic Resp Failure attributed to pneumonia,
   ARDS.   Previously PEEP sensitive, but now PEEP= 10.  Now with trach,
   hope to move to IPS mode and reduce sedation as tolerates. OOB to
   chair
   Completed Rx for VAP --> empirical vanco/cefopime, cipro completed.
   Completing course of Bactrim for pneumocystis
 finalize with ID
   duration
   SEDATION
 major issue during hospitalization, requiring significant
   doses to provide adequate sedation.  Every night he ends up more
   anxious and back on IV Versed. Esp with HAART we need to wean Versed as
   it can diminish clearance
   HIV -- Initiated HAART.  Need to monitor for possible [**Doctor First Name **] on HAART.
   Anemia: likely phlebotomy and marrow
 give 1 unit , trend decrease
   daily labs
 check retic
   PANCREATITIS
 chemical pancreatitis, in part attributed to
   medications.   trend
   ELEVATED LFTs
 likely related to medications, but need to monitor for
   infection.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:  Peptamen 1.5 (Full) - [**2196-8-1**] 02:31 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-8-2**] 05:17 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with pt and partner
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2196-08-03 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2196-8-2**] 06:14 PM
   -Hct after 1U PRBC: 22. Guaiac was trace positive.
   -FiO2 was weaned from 50 to 40%, with stable ABG, including resolution
   of elevated PaCO2. However, desat to high 80s while sitting, with
   further drop in SpO2 when recruitment exercise attempted. FiO2
   [**Year (4 digits) 4784**] increased to 50% again and supine positioning improved O2
   sat.
   -Sedation regimen adjusted: increased QHS Quetiapine from 50mg/50 mg
   [**Hospital1 7**] to 50 mg/75 mg, decreased Diazepam frequency from 10 mg Q4H to Q8H,
   decreased Methadone frequency from 20 mg Q6H to Q8H. Midazolam weaned
   from 9 to 8.
   -L hand edema after PICC line discontinued, so US performed to assess
   for clot formation. No evidence of deep venous thrombosis within the
   left upper extremity veins.
   -ID team recommended: Bactrim DS [**Hospital1 7**] (prophylactic dosing, taper
   steroids off (10mg x2 days, 5mg x2 days -->0). Ordered for CMV, Toxo
   antibodies.
   -GI ([**Doctor First Name **] Na) and gen surgery said that IR generally do GJ placment,
   which was ordered.
   -D/C'd ISS since he has had glu<150.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-31**] 11:29 PM
   Ciprofloxacin - [**2196-8-1**] 04:09 AM
   Vancomycin - [**2196-8-1**] 08:00 AM
   Bactrim (SMX/TMP) - [**2196-8-2**] 06:14 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-2**] 08:20 PM
   Heparin Sodium (Prophylaxis) - [**2196-8-3**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-3**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 94 (62 - 114) bpm
   BP: 163/82(107) {95/55(68) - 181/96(125)} mmHg
   RR: 14 (9 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  3,948 mL
                                                                    541 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    323 mL
   IVF:
                                                                  1,958 mL
                                                                    108 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  6,175 mL
                                                                  1,670 mL
   Urine:
                                                                  5,675 mL
                                                                  1,670 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -2,227 mL
                                                                 -1,129 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 559 (559 - 838) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: 7.46/40/95.[**Numeric Identifier 218**]/24/4
   Ve: 9 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Alert, denies pain or anxiety, trying to talk but unable to
   communicate.
   Lungs with diffuse, coarse rales throughout anterior lungs fields.
   Inspiratory and expiratory.
   RRR, no MRG
   Abdomen soft, non-tender, non-distended.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   262 K/uL
   8.0 g/dL
   88 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.5 mEq/L
   13 mg/dL
   101 mEq/L
   135 mEq/L
   25.4 %
   6.0 K/uL
                             [**2196-8-1**]  03:34 AM
                             [**2196-8-1**]  06:04 AM
                             [**2196-8-1**]  12:46 PM
                             [**2196-8-2**]  03:25 AM
                             [**2196-8-2**]  03:56 AM
                             [**2196-8-2**]  10:23 AM
                             [**2196-8-2**]  02:22 PM
                             [**2196-8-2**]  04:22 PM
                             [**2196-8-3**]  03:40 AM
                             [**2196-8-3**]  03:48 AM
   WBC
   5.5
   4.2
   6.0
   Hct
   22.9
   19.7
   22
   25.4
   Plt
   [**Telephone/Fax (3) 9651**]
   Cr
   0.8
   0.8
   0.8
   TCO2
   25
   25
   29
   28
   28
   26
   29
   Glucose
   133
   106
   88
   Other labs: PT / PTT / INR:12.1/25.4/1.0, ALT / AST:74/49, Alk Phos / T
   Bili:215/0.1, Amylase / Lipase:84/276, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:248 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:1.9
   mg/dL
   Imaging:  US of L arm: No evidence of deep venous thrombosis within the
   left upper extremity veins.
   Assessment and Plan
 ANXIETY
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, now improving after receiving a course of abx but with continued
   difficulty weaning from ventilator and sedation.  Respiratory,
   cardiovascular, and anxiety/sedation issues are all intertwined
   episodes of anxiety tend to cause increased HR and BP with worsened
   respiratory function.
    1) HYPOXEMIC RESPIRATORY FAILURE: Likely secondary to PCP pneumonia
   and probable resolving secondary pneumonia with ARDS physiology.
   Bactrim PCP treatment complete, now on prophylaxis dosing, tapering
   prednisone. CXR improved. Leukocytosis has resolved. Sputum culture
   from [**7-30**] with sparse growth of orophargyngeal flora.
    *Remained on PS 10, PEEP 10 with increase FiO2 from 40 to 50%,  with
   stable ABG. PaO2 is elevated in most recent ABGs so can wean FiO2, with
   subsequent weaning PEEP as tolerated.
    *Sedation: Yesterday increased dose of QHS Quetiapine and decreased
   frequency of Diazepam and Methadone due to decreased benzo clearance in
   the setting of ritonavir and elevated PaCO2. We can proceed with
   weaning Midazolam IV in favor of anxiety control with Diazepam (PO) to
   facilitate disposition. Also consider starting SSRI for long-term
   anxiety control; need to check interactions with other medications,
   especially HAART agents.
    * VAP: Completed 8 day course of vanco and cefepime/cipro 2 days ago;
   sputum cx negative.
   *PCP: [**Name10 (NameIs) 54**] ID, Bactrim DS [**Hospital1 7**] (prophylactic dosing) and taper steroids
   off (10mg x2 days, 5mg x2 days -->0). Ordered for CMV, Toxo antibodies.
   -Continue to attempt to slowly wean vent FiO2 setting, then PS and PEEP
   as tolerated.
   -Continue Quetiapine, Diazepam, and Methadone at current doses. Wean
   Midazolam as tolerated.
   -Follow up with pharm regarding interactions with SSRI and current
   medications.
   -Reduce Bactrim to DS QD.
   -Steroids now stopped
 will monitor for any signs of insufficiency,
   restart if needed.
   -Follow up CMV and toxo antibodies per ID.
   - CXR prn clinical changes only.
   2) ANEMIA: Hct from 22 to 19.7 - following 1 unit of PRBC yesterday,
   Hct 25.4 today.  Otherwise generally stable around around 23-25.
   Baseline anemia likely due to HIV, stress, phlebotomy, nutrition
   suboptimal.
   - Continue QAM for CBC and electrolyes and Q2-3 days for LFTs to
   minimize phlebotomy.
   -Guaiaic stool.
   -Continue PPI [**Hospital1 7**].
   - Transfuse to > 21.
   3) LABILE BP: Continues to be hypertensive with agitation, occasionally
   hypotensive, responsive to fluids.  Continue to monitor. No pressors
   have been required for nearly 1 week.
   -Per above, continue Quetiapine, Methadone, Diazepam and wean Midazolam
   as tolerated.
   -Fluid bolus for hypotension, Levophed if needed for MAPs <60.
   -started lisinopril 10 mg PO QD.
   -will start Clonidine patch, continue clonidine for BP control, help
   with weaning benzos.
   4) TRANSAMINITIS/PANCREATITIS: LFT
s persistently elevated, with lipase
   increased after propofol [**7-29**] but now trending down even after starting
   potentially hepatotoxic HAART regimen. Negative CT, negative RUQ
   ultrasound, no change in abdominal exam or reported pain.  Likely due
   to multiple medications.
    - Continue to trend LFTs, lipase, reduce frequency of labs.  Will
   check with tomorrow morning
s labs, especially if propofol needed for
   procedure today.
   - Limit Acetaminophen to 2g.day
   5) FEVERS: T within normal limits and clinical picture improved, last
   spiked on [**7-30**] with blood Cx pending, sputum cx negative on prelim
   read. C diff negative, stool culture pending.
   -Continue to monitor WBC.
   - Keep Acetaminophen under 2g daily due to transaminitis, as per above.
    6) Electrolye imbalances
 have been stable, phosphate slightly low
   this morning.  Will replete today.
    -Continue to trend Mg and phosphate, replete as necessary.
    7) HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS) - recent diagnosis. HAART recently started, with stable
   LFTs.  Stable to improved respiratory status with no signs of immune
   reconstitution inflammation syndrome.
   -Continue HAART
   -ID following.
   -Follow LFTs given potential hepatotoxicity of HAART regimen.
   8)   URINE ELECTROLYTES: Ongoing autodiuresis.  Creatinine WNL, good
   UOP. Unclear etiology at this point, potentially due to solute
   diuresis.
   -Continue to follow UOP and Cr.
   -Negative fluid balance over past several days - fluid bolus for any
   signs of hypovolemia.
   9) FEN:
   -Continue tube feeds.
   -Discontinued ISS.
   -GJ tube placement with IR ordered and pending
 discussed with IR this
   morning, planning procedure today.  SQ heparin held this am, NPO
   -Also will need increased sedation for procedure today
 will sedate
   and switch to AC before going down to IR.  Discussed at [**Last Name (LF) 2585**], [**First Name3 (LF) **]
   bolus Versed, fentanyl, start drips.
   10) PROPHYLAXIS: heparin UF SC (held pre-procedure), pneumoboots, PPI
   11) ACCESS:
   -Arterial Line - [**2196-7-11**] 12:32 PM. A-line held yesterday with
   desaturation episode, will keep today for procedure.  Will still
   considering discontinuing soon.
   -PICC Line - [**2196-7-28**] 04:10 PM
   -20 Gauge - [**2196-7-29**] 08:38 AM
    12) COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**]
   (wk).
    13) Disposition: Continue to wean vent and sedation, needs ICU level
   care at this point. Case manager aware of patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-8-2**] 05:17 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2196-08-03 10:05:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2196-8-2**] 06:14 PM
   OOB to chair
   Left upper ext US: neg for DVT
   bactrim switched to prophylactic dosing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-7-31**] 11:29 PM
   Ciprofloxacin - [**2196-8-1**] 04:09 AM
   Vancomycin - [**2196-8-1**] 08:00 AM
   Bactrim (SMX/TMP) - [**2196-8-3**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-8-3**] 12:21 AM
   Pantoprazole (Protonix) - [**2196-8-3**] 08:15 AM
   Midazolam (Versed) - [**2196-8-3**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-3**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 89 (72 - 114) bpm
   BP: 124/63(83) {95/55(68) - 181/96(125)} mmHg
   RR: 19 (9 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  3,948 mL
                                                                    707 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    323 mL
   IVF:
                                                                  1,958 mL
                                                                    164 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  6,175 mL
                                                                  2,690 mL
   Urine:
                                                                  5,675 mL
                                                                  2,690 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -2,227 mL
                                                                 -1,983 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 640 (559 - 769) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 92%
   ABG: 7.46/40/95.[**Numeric Identifier 218**]/24/4
   Ve: 13.1 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Gen: lying in bed on vent, opens eyes to stimulation, more sedated
   today
   HEENT: trach Dophoff
   CV: RR no audible murmurs
   Chest: fair air movement
 no wheezes or rales
   ABd: soft distended + BS
   Ext:  2+ edema
 still left hand edema
   Neuro: awake, anxious, answering ?s with nods moving all ext but very
   weak
   Labs / Radiology
   8.0 g/dL
   262 K/uL
   88 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.5 mEq/L
   13 mg/dL
   101 mEq/L
   135 mEq/L
   25.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2196-8-1**]  03:34 AM
                             [**2196-8-1**]  06:04 AM
                             [**2196-8-1**]  12:46 PM
                             [**2196-8-2**]  03:25 AM
                             [**2196-8-2**]  03:56 AM
                             [**2196-8-2**]  10:23 AM
                             [**2196-8-2**]  02:22 PM
                             [**2196-8-2**]  04:22 PM
                             [**2196-8-3**]  03:40 AM
                             [**2196-8-3**]  03:48 AM
   WBC
   5.5
   4.2
   6.0
   Hct
   22.9
   19.7
   22
   25.4
   Plt
   [**Telephone/Fax (3) 9651**]
   Cr
   0.8
   0.8
   0.8
   TCO2
   25
   25
   29
   28
   28
   26
   29
   Glucose
   133
   106
   88
   Other labs: PT / PTT / INR:12.1/25.4/1.0, ALT / AST:74/49, Alk Phos / T
   Bili:215/0.1, Amylase / Lipase:84/276, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:248 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   RESPIRATORY FAILURE -- Hypoxemic Resp in setting of PCP, [**Name10 (NameIs) 3396**], ARDS.
   Now with trach,and working on PSV. OOB to chair daily as able.
   Completed Rx for [**Name10 (NameIs) 3396**]
   Completing course of Bactrim/steroids for pneumocystis
 finalize with
   ID duration
   SEDATION
 major issue during hospitalization, requiring significant
   doses to provide adequate sedation.  Every night he ends up more
   anxious and back on IV Versed. Esp with HAART we need to wean Versed as
   it can diminish clearance
 we will decrease methadone and valium
   standing and wean versed. Keep Seroquel 50/75
   HIV -- Initiated HAART.  Need to monitor for possible [**Doctor First Name **] on HAART.
   Trend lfts
   Anemia: likely phlebotomy and marrow
 bumped to 1 unit
 trend
   Consult IR for PEG/J
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-8-2**] 05:17 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   [**Year (4 digits) 3396**]: chlorhex HOB
   Communication:  with proxy and with pt
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2196-08-04 07:57:00 Physician Resident Progress Note
Chief Complaint: 45M with h/o HTN with recent diagnosis of HIV and new
   diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS requiring intubation,
   with superimposed VAP, now improving after receiving a course of abx
   but with continued difficulty weaning from ventilator and sedation.
   Respiratory, cardiovascular, and anxiety/sedation issues are all
   intertwined
 episodes of anxiety tend to cause increased HR and BP
   with worsened respiratory function.
   24 Hour Events:
   - GJ tube placed yesterday, pre-sedated in MICU. Hypotensive episode
   with MAP in 50s, 500cc fluid challenge given with no response,
   phenylephrine used for hypotension until sedation lifted.
   - GJ tube in place, Dophoff placed but visualized in stomach.Will use
   for PO meds but hold tube feeds until GJ tube is ready to use (24 hours
   after placement).
   - Febrile overnight, pan-cultured, hemodynamics stable, given Tylenol
   NG, no antibiotics given.
   -Change in mental status overnight
less interactive/responsive to
   verbal stimuli.
   -No changes to vent settings. Weaned from all sedation but Diazepam and
   methadone this AM.
   - ID recommends starting azithromycin 1200mg PO weekly for MAC
   prophylaxis until CD4 count > 200.
 PAN CULTURE - At [**2196-8-3**] 11:31 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-8-1**] 08:00 AM
   Bactrim (SMX/TMP) - [**2196-8-3**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-3**] 08:15 AM
   Midazolam (Versed) - [**2196-8-3**] 03:15 PM
   Fentanyl - [**2196-8-3**] 03:15 PM
   Other medications:
   Changes to medical and family history: N/A
   Review of systems is unchanged from admission except as noted below
   Review of systems: N/A
   Flowsheet Data as of  [**2196-8-4**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.6
   HR: 89 (74 - 132) bpm
   BP: 104/57(71) {78/43(53) - 179/93(123)} mmHg
   RR: 16 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  1,793 mL
                                                                    134 mL
   PO:
             TF:
                                                                    323 mL
   IVF:
                                                                    974 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  5,665 mL
                                                                  1,990 mL
   Urine:
                                                                  5,115 mL
                                                                  1,990 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                 -3,872 mL
                                                                 -1,856 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 640) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.46/42/84.[**Numeric Identifier 1000**]/26/5
   Ve: 12 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Sedated,
   Coarse breath sounds bilater
   RRR, no rgm
   Soft, NT, mild distension, +BS
   Ext warm, edematous 1+ pitting, 2+ pulses bilateral
   Labs / Radiology
   281 K/uL
   8.2 g/dL
   63 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   11 mg/dL
   100 mEq/L
   135 mEq/L
   25.6 %
   5.0 K/uL
        [image002.jpg]
                             [**2196-8-1**]  12:46 PM
                             [**2196-8-2**]  03:25 AM
                             [**2196-8-2**]  03:56 AM
                             [**2196-8-2**]  10:23 AM
                             [**2196-8-2**]  02:22 PM
                             [**2196-8-2**]  04:22 PM
                             [**2196-8-3**]  03:40 AM
                             [**2196-8-3**]  03:48 AM
                             [**2196-8-4**]  03:40 AM
                             [**2196-8-4**]  03:46 AM
   WBC
   4.2
   6.0
   5.0
   Hct
   19.7
   22
   25.4
   25.6
   Plt
   244
   262
   281
   Cr
   0.8
   0.8
   0.9
   TCO2
   25
   29
   28
   28
   26
   29
   31
   Glucose
   106
   88
   63
   Other labs: PT / PTT / INR:12.1/25.4/1.0, ALT / AST:76/65, Alk Phos / T
   Bili:243/0.4, Amylase / Lipase:84/420 (from 225),
   Differential-Neuts:83.0 %, Band:0.0 %, Lymph:6.0 %, Mono:10.0 %,
   Eos:1.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:237 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: ABG: [**8-4**] 3:46A  7.46/42/84
   [**8-3**] 3:48A 7.46/40/95
   Imaging: [**8-4**] CXR Pending
   [**8-3**] ABD Prelim
   NGT terminates in stomach. GJ tube terminates in prox jejunum/distal
   duodenum. Multiple air filled non dilated loops of small bowel and
   large bowel identified. No free air.
   [**8-3**] PERC G/G-J TUBE PLMT Prelim
   Successful placement of gastrojejunal tube. This tube should be used
   after 24 hours of rest post-procedurally. Usage can begin mid afternoon
   of [**2196-8-4**].
   Microbiology: Sputum Cx: pending
   Sputum gram stain >25 PMNs and <10 epithelial cells/100X field.  1+
   (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS.
   Blood cx pending
   Urine cx pending
   Toxo serum IgG pending
   CMV serum IgG pending
   Assessment and Plan
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, now improving after receiving a course of abx but with continued
   difficulty weaning from ventilator and sedation.  Respiratory,
   cardiovascular, and anxiety/sedation issues are all intertwined
   episodes of anxiety tend to cause increased HR and BP with worsened
   respiratory function.
    # HYPOXEMIC RESPIRATORY FAILURE: Likely secondary to PCP pneumonia and
   probable resolving secondary pneumonia with ARDS physiology. Bactrim
   PCP treatment complete, now on prophylaxis dosing, tapering prednisone.
   CXR improved. Leukocytosis has resolved. Sputum culture from [**7-30**] with
   sparse growth of orophargyngeal flora. Pt with trach.
   *Remained on PS 10, PEEP 10, FiO2 0.5, Rate 20. Stable ABG, so we can
   minimally wean vent settings.
   *Sedation: Methadone, Quetiapine, Diazepam, Clonidine (also for BP
   control). Midazolam and Fentanyl off. Given the decline in his mental
   status, we can further decrease the frequency of Diazepam (HAART meds
   are expected to reduce benzo metabolism) and Methadone. If needed to
   control anxiety, agitation, tachycardia and/or HTN, Midazolam can be
   restarted at minimal dose.
   *Off antibiotics for VAP, off treatment dose of bactrim, off steroids.
   Receiving prophylaxis for PCP (Bactrim) and MAC (Azithromycin)
   - Continue to wean vent settings as tolerated, follow ABG with vent
   settings, clinical changes
   - Continue Quetiapine and Clonidine.
   - Decrease frequency of Methadone 20 mg from Q8H to Q12H. Decrease
   frequency of Diazepam from 10 mg Q8H to Q12H. Monitor for
   anxiety/agitation.
   - Bactrim DS Qdaily, Azithromycin 1200mg Qweekly
   - CXR for clinical changes
   - EKG for QTc (methadone, quetiapine, etc)
   # FEVERS: Febrile yesterday and overnight. Pan-cultured. WBC stable.
   Sputum gram stain showed gram positive rods, gram positive cocci in
   pairs but CXR stable/improved this AM. Ddx includes post-op fever vs.
   infection, but given the low suspicion for infection and no final
   sputum cx reads, we will withhold abx for now.
   - Follow up culture results, add antibiotics as appropriate
   - Acetaminophen 2g max daily
   - Trend WBC, clinical status
   # MENTAL STATUS: appears more sedated than prior days. Ddx includes
   increased sedation yesterday for procedure +/- cumulative effect of
   sedation in the setting of decreased clearance from HAART regimen vs.
   fevers (infection) vs pancreatitis.
   - Follow mental status throughout the day
   - Decreased sedation, as per above.
   - Follow up micro, as per above.
   - If remains depressed consider head CT, LP and/or CT torso if lipase
   continues to trend up.
   # LFTs/Lipase: LFTs and persistently elevated. LFTs stable but lipase
   with sudden increase after yesterday. In past has negative CT, negative
   RUQ u/s, no change in reported pain. Likely due to medication but
   specific etiology unclear. [**Name2 (NI) **] propofol yesterday. HAART may be
   hepatotoxic.
   - Trend LFT and lipase today. If stabilized, then check every 2-3 days
   to reduce phlebotomy.
   - Consider CT torso/RUQ u/s if lipase continues to trend upward.
   - Limit Acetaminophen to 2g per day, as per above.
   # ANEMIA: Hct stable since transfusion two days prior, around baseline.
   Anemia likely due to HIV, phlebotomy, suboptimal nutrition. Phlebotomy
   minimized.
   - CBC qAM
   - Guaiac stool
   - PPI [**Hospital1 7**]
   - Transfuse to > 21
   # LABILE BP: continues to be hypertensive with agitation, hypotension
   with increased sedation. Pressors for procedure but since D/C
   Hemodynamically stable since then. Clonidine patch was started
   yesterday.  Given his recent normotensive status, we can discontinue
   lisinopril (renal function WNL).
   -Fluid bolus for hypotension, Levophed or phenylephrine if needed for
   MAPs <60.
   -Continue Clonidine for BP control and helping with weaning of benzos.
   -D/C Lisinopril.
   # HIV: recent diagnosis. HAART recently started, with stable LFTs.
   Stable to improved respiratory status with no signs of immune
   reconstitution inflammation syndrome. ID has signed off.
   - Continue HAART
   - Continue prophylaxis for PCP (Bactrim) and MAC (Azithromycin) per
   above.
   - Follow LFTs given potential hepatotoxicity of HAART regimen.
   # FEN: autodiuresis. Replete lytes as necessary. TF held for 24H
   following GJ tube placement. Can restart this afternoon. Follow chem
   and UOP. Not on ISS.
   # PROPHYLAXIS: heparin UF SC (held pre-procedure), pneumoboots, PPI
   # ACCESS:
   -Arterial Line - [**2196-7-11**] 12:32 PM. Discontinue today.
   -PICC Line - [**2196-7-28**] 04:10 PM
   -20 Gauge - [**2196-7-29**] 08:38 AM
   # COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**] (wk).
   # Disposition: ICU
   ICU Care
   Nutrition:
   Comments: NPO until this PM, then restart TF.
   Glycemic Control:  N/A
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM. D/C today.
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-8-2**] 05:17 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication: ICU consent signed
   Code status: Full code
   Disposition: ICU

2196-08-04 11:31:00 Physician Attending Progress Note
Chief Complaint: ARDS resp failure in setting of PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2196-8-3**] 11:31 AM
   s/p IR G/J tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-8-4**] 08:16 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2196-8-3**] 03:15 PM
   Fentanyl - [**2196-8-3**] 03:15 PM
   Pantoprazole (Protonix) - [**2196-8-4**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2196-8-4**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-4**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37
C (98.6
   HR: 88 (74 - 132) bpm
   BP: 107/59(73) {78/43(53) - 171/93(118)} mmHg
   RR: 19 (14 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  1,793 mL
                                                                    329 mL
   PO:
             TF:
                                                                    323 mL
   IVF:
                                                                    974 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                  5,665 mL
                                                                  2,460 mL
   Urine:
                                                                  5,115 mL
                                                                  2,460 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                 -3,872 mL
                                                                 -2,131 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 534 (0 - 534) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: 7.46/42/84.[**Numeric Identifier 1000**]/26/5
   Ve: 7.2 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Gen: lying in bed on vent, flutters eyes to voice, much less
   interactive  today
   HEENT: trach Dophoff
   CV: RR no audible murmurs
   Chest: fair air movement
 no wheezes or rales
   ABd: soft distended + BS
   Ext:  1+ edema
   Neuro: more sedated
   Labs / Radiology
   8.2 g/dL
   281 K/uL
   63 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   11 mg/dL
   100 mEq/L
   135 mEq/L
   25.6 %
   5.0 K/uL
        [image002.jpg]
                             [**2196-8-1**]  12:46 PM
                             [**2196-8-2**]  03:25 AM
                             [**2196-8-2**]  03:56 AM
                             [**2196-8-2**]  10:23 AM
                             [**2196-8-2**]  02:22 PM
                             [**2196-8-2**]  04:22 PM
                             [**2196-8-3**]  03:40 AM
                             [**2196-8-3**]  03:48 AM
                             [**2196-8-4**]  03:40 AM
                             [**2196-8-4**]  03:46 AM
   WBC
   4.2
   6.0
   5.0
   Hct
   19.7
   22
   25.4
   25.6
   Plt
   244
   262
   281
   Cr
   0.8
   0.8
   0.9
   TCO2
   25
   29
   28
   28
   26
   29
   31
   Glucose
   106
   88
   63
   Other labs: PT / PTT / INR:12.1/25.4/1.0, ALT / AST:76/65, Alk Phos / T
   Bili:243/0.4, Amylase / Lipase:84/420, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:10.0 %, Eos:1.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.2 g/dL, LDH:237 IU/L, Ca++:8.5 mg/dL, Mg++:1.5 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   RESPIRATORY FAILURE -- Hypoxemic Resp in setting of PCP, [**Name10 (NameIs) 3396**], ARDS.
   Now with trach,and working on weaning PSV. Try dropping PS and PEEP
   today if we can wake him up more.
   SEDATION
 off all drips. Getting po Valium and Methadone. Keep
   Seroquel 50/75. Added Clonidine patch for additional support during
   wean and to blunt HTN.
   Fever: yesterday post procedure- single spike, and did get GJ
 pan
   cultre No empiric ABX for now
   HIV -- Initiated HAART.  Bactrim and Azithro for prophylaxis. Need to
   monitor for possible [**Doctor First Name **] on HAART.
   Lipase: up this AM
 but small amount
 at risk from CMV and HAART but
   at this point just trend
   Anemia: likely phlebotomy and marrow
 bumped to 1 unit
 trend
   Diuresis: he continue to produce copious urine, and we belive he is
   autodiuresing still from massive resuscitation. We have looked at urine
   lytes in past
 but we can re check uriune lytes and Osm to make sure
   still in line with this hypothesis and no evidence for a concerntrting
   defect
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: restart TF at 2PM
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-8-2**] 05:17 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   [**Year (4 digits) 3396**]: HOB chlorhex
   Communication: with partner
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2196-08-05 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 45M with h/o HTN with recent diagnosis of HIV and new
   diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS requiring intubation,
   with superimposed VAP, improving and now on trach but with continued
   difficulty weaning from ventilator and sedation.  Respiratory,
   cardiovascular, and anxiety/sedation issues are all intertwined
   episodes of anxiety tend to cause increased HR and BP with worsened
   respiratory function.
   24 Hour Events:
 BLOOD CULTURED - At [**2196-8-4**] 04:26 PM
 STOOL CULTURE - At [**2196-8-4**] 04:26 PM
 FEVER - 102.2
F - [**2196-8-4**] 04:00 PM
   -Febrile to 102.2, sent stool c.diff, blood cultures from each line.
   Gave tylenol.
   -Hypotensive with maps in 50's. Gave 1LNS bolus
   -Vent settings unchanged. Midazolam weaned off but required overnight
   boluses for agitation.
   - Increased thick, yellow sputum overnight.
   -Mental status improved throughout the day, with agitation and
   associated HTN and tachycardia but no desats overnight.
   -CT abd and pelvis with and without contrast tomorrow for increased
   lipase+ fever + change in MS.
   [**Name14 (STitle) 9688**] knee - 3 views for R knee pain, warmth. Prelim read with no acute
   process or effusion.
   -Continues to diurese a lot. Sent urine lytes, osms, serum lytes and
   osms. FeNa 1.4, borderline hyponatremic - given 2L NS, ulytes show
   likely SIADH
   -Azithro started, diazepam to q12h, d/c'ed lisinopril, decreased
   methadone
   -EKG - QTc 390s.
   -d/c
d NGT, restarted tube feeds via GJ-tube.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-8-4**] 08:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-4**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2196-8-4**] 12:38 PM
   Midazolam (Versed) - [**2196-8-5**] 02:40 AM
   Other medications:
   Changes to medical and family history: N/A
   Review of systems is unchanged from admission except as noted below
   Review of systems: N/A
   Flowsheet Data as of  [**2196-8-5**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.3
C (99.2
   HR: 85 (78 - 120) bpm
   BP: 115/57(72) {78/50(59) - 147/79(100)} mmHg
   RR: 19 (10 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  2,595 mL
                                                                    514 mL
   PO:
             TF:
                                                                     18 mL
                                                                    145 mL
   IVF:
                                                                  2,148 mL
                                                                    370 mL
   Blood products:
   Total out:
                                                                  5,312 mL
                                                                  1,260 mL
   Urine:
                                                                  4,812 mL
                                                                  1,260 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -2,717 mL
                                                                   -745 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 450 (401 - 651) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.43/42/138/25/3
   Ve: 9.1 L/min
   PaO2 / FiO2: 276
   Physical Examination
   General Appearance: Sedated and with improved responsiveness.
   Cardiovascular: Regular rate and rhythm. Normal S1 and S2.
   Respiratory / Chest: Coarse breath sounds bilaterally.
   Abdominal: Soft, BS+
   Extremities: Warm, well-perfused, 2+ DP, 1+ edema. Knees symmetrical
   with equal temp and no signs of effusion this AM.
   Labs / Radiology
   271 K/uL
   7.8 g/dL
   85 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   8 mg/dL
   100 mEq/L
   135 mEq/L
   24.8 %
   5.2 K/uL
        [image002.jpg]
                             [**2196-8-2**]  10:23 AM
                             [**2196-8-2**]  02:22 PM
                             [**2196-8-2**]  04:22 PM
                             [**2196-8-3**]  03:40 AM
                             [**2196-8-3**]  03:48 AM
                             [**2196-8-4**]  03:40 AM
                             [**2196-8-4**]  03:46 AM
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
   WBC
   6.0
   5.0
   5.2
   Hct
   22
   25.4
   25.6
   24.8
   Plt
   [**Telephone/Fax (3) 9686**]
   Cr
   0.8
   0.9
   0.8
   0.8
   TCO2
   28
   28
   26
   29
   31
   29
   Glucose
   88
   63
   76
   85
   Other labs: PT / PTT / INR:12.0/26.2/1.0, ALT / AST:61/52, Alk Phos / T
   Bili:219/0.4, Amylase / Lipase:84/420, Differential-Neuts:84.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:3.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:257 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.6
   mg/dL
   Fluid analysis / Other labs: Urine lytes: UCr 72, UNa 169, UK 10, UCl
   131, Uosm 485
   Imaging: R knee Xray from [**8-4**] (prelim read): NO ACUTE ABNORMALITY. NO
   EFFUSION.
   Microbiology: C diff [**8-4**]: P
   Sputum cx from [**8-3**]: SPARSE GROWTH OROPHARYNGEAL FLORA
   UCx from [**8-3**]: Negative
   Toxo Ab: P
   CMV Ab: P
   BCx x3 from [**8-4**]: P
   BCx x2 from [**8-3**]: P
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 ALTERATION IN NUTRITION
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, now improving after receiving a course of abx but with continued
   difficulty weaning from ventilator and sedation.  Respiratory,
   cardiovascular, and anxiety/sedation issues are all intertwined
   episodes of anxiety tend to cause increased HR and BP with worsened
   respiratory function.
    # HYPOXEMIC RESPIRATORY FAILURE: Likely secondary to PCP pneumonia and
   probable resolving secondary pneumonia with ARDS physiology. Bactrim
   PCP treatment complete, now on prophylaxis dosing, tapering prednisone.
   CXR improved. Leukocytosis has resolved. Sputum culture from [**8-3**] with
   sparse growth of orophargyngeal flora. Pt with trach.
   *Remained on PS 10, PEEP 10, FiO2 0.5, Rate 20. Stable ABG, resolution
   of mild alkalosis. Last PaO2 high, so we can minimally wean FiO2 and
   PEEP as tolerated today.
   * Increased thick yellow sputum raises suspicion for PNA in the setting
   of recent fever [**Last Name (LF) 1445**], [**First Name3 (LF) **] CXR this AM. Hold off on starting abx
   pending CXR and sputum Cx, given h/o consistently negative cultures.
   *Sedation: Methadone, Quetiapine, Diazepam, Clonidine (also for BP
   control). Midazolam boluses needed overnight. Because he continues to
   look sedated this AM but will likely become agitated overnight, we can
   D/C his QAM doses of Diazepam and Quietiapine but maintain his QPM
   doses. We can continue Midazolam boluses as needed to control anxiety.
   *Off antibiotics for VAP, off treatment dose of bactrim, off steroids.
   Receiving prophylaxis for PCP (Bactrim) and MAC (Azithromycin)
   - Continue to wean vent settings as tolerated (FiO2 and PEEP as
   tolerated), follow ABG with vent settings, clinical changes.
   - CXR this AM.
   - Follow up cultures
   - D/C QAM Quetiapine and Diazepam. Continue QPM Quetiapine and
   Diazepam. Continue Methadone and Clonidine standing and Midazolam
   boluses prn.
   - Bactrim DS Qdaily, Azithromycin 1200mg Qweekly
   - EKG for QTc (methadone, quetiapine, etc)
   # FEVERS: Febrile to T102.2. Pan-cultured. WBC stable. Sputum cx from
   [**8-3**] with sparse oropharyngeal flora but increased sputum this AM. Ddx
   includes PCP/HIV vs. new pulm infection vs. new other infection (?
   lines) vs. abdominal process, but we will withhold abx for now pending
   CXR and Abd CT.
   - Sputum culture.
   - Abdominal CT today.
   - CXR per above.
   - Follow up culture results, add antibiotics as appropriate
   - Acetaminophen 2g max daily.
   - Trend WBC, clinical status.
   # MENTAL STATUS: Appears less sedated today but still groggy this AM.
   Ddx includes cumulative impact of sedation in the setting of decreased
   clearance from HAART vs. infection vs. abdominal process.
   - Follow mental status throughout the day.
   - D/C AM Diazepam and Quetiapine per above.
   - Follow up CXR, CT and micro, as per above.
   - If remains depressed consider head CT, LP.
   # LFTs/Lipase: LFTs and persistently elevated. LFTs stable but lipase
   with sudden increase on [**8-4**]. In past has negative CT, negative RUQ
   u/s, no change in reported pain. Likely due to medication but specific
   etiology unclear. [**Name2 (NI) **] propofol yesterday. HAART may be hepatotoxic. Will
   do abd CT today to rule out pancreatic/hepatobiliary process.
   - Abd CT today
   - Check LFT and lipase every 2-3 days to reduce phlebotomy.
   - Limit Acetaminophen to 2g per day, as per above.
   # URINE ELECTROLYES: UNa 169, with 35 meq Na+ loss/L UOP and UOsm 450.
   Unclear etiology of Na+ wasting, with UOsm elevated such as seen in
   SIADH, but UNa output per L UOP is 35 (SIADH is generally above 40).
   Also, he is undergoing extensive diuresis and has hypotensive episodes,
   unlike in SIADH. Fluctuating blood pressure and sodium wasting may be
   consistent with adrenal insufficiency, potentially caused by infection
   vs.  ischemia/ hemorrhage in the adrenal gland. We did stop steroids
   for PCP abruptly but extensive diuresis pre-dated this drop. Generally,
   he has managed to maintain his serum sodium despite UNa loss.
   - Cortisol to assess adrenal insufficiency.
   - Sodium repletion if becomes hyponatremic.
   - Consider renal consult pending the results of above.
   # LABILE BP: continues to be hypertensive with agitation, hypotension
   with increased sedation and in the setting of significant diuresis (see
   above). Not requiring pressors.
   -Fluid bolus for hypotension, Levophed or phenylephrine if needed for
   MAPs <60.
   -Continue Clonidine for BP control and helping with weaning of benzos.
   # HIV: recent diagnosis. HAART recently started, with stable LFTs.
   Stable to improved respiratory status with no signs of immune
   reconstitution inflammation syndrome. ID has signed off.
   - Continue HAART
   - Continue prophylaxis for PCP (Bactrim) and MAC (Azithromycin) per
   above.
   - Follow LFTs given potential hepatotoxicity of HAART regimen.
    # ANEMIA: Hct stable since transfusion two days prior, around
   baseline. Anemia likely due to HIV, phlebotomy, suboptimal nutrition.
   Phlebotomy minimized.
   - CBC qAM
   - Guaiac stool
   - PPI [**Hospital1 7**]
   - Transfuse to > 21
   # FEN: With elevated Uosm and UNa excretion with significant
   autodiuresis, likely [**1-11**] SIAHD. Cause of SIADH unknown; potentially
   medication effect versus increased pain afferents. Consider water
   restriction, Replete lytes as necessary. TF held for 24H following GJ
   tube placement. Can restart this afternoon. Follow chem and UOP. Not on
   ISS.
   # PROPHYLAXIS: heparin UF SC (held pre-procedure), pneumoboots, PPI
   # ACCESS:
   -Arterial Line - [**2196-7-11**] 12:32 PM. Consider D/C post CXR and
   stabilization of clinical status.
   -PICC Line - [**2196-7-28**] 04:10 PM
   -20 Gauge - [**2196-7-29**] 08:38 AM
   # COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**] (wk),
   patient, partner Chip.
   # Disposition: ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-4**] 10:15 PM 30 mL/hour
   Glycemic Control:  Comments: N/A
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-8-2**] 05:17 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  patient, HCP, partner.
   [**Name2 (NI) 36**] status: Full code
   Disposition:ICU

2196-08-05 10:35:00 Physician Attending Progress Note
Chief Complaint: ARDS PCP HIV
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2196-8-4**] 04:26 PM
 STOOL CULTURE - At [**2196-8-4**] 04:26 PM
 FEVER - 102.2
F - [**2196-8-4**] 04:00 PM
   pan cultures
   knee looked warm - plain films done
 no effussion
   Abd CT planned for this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-8-4**] 08:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-8-4**] 12:38 PM
   Midazolam (Versed) - [**2196-8-5**] 02:40 AM
   Other medications:
   Truvada, Ritonovir, Darunovir, PPI, chlorhex, Docusate, Seroquel,
   Bactrim, Azithro qwk, Clonidine patch, Diazepam q12, Oxycodone q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2196-8-5**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.7
C (99.9
   HR: 89 (81 - 120) bpm
   BP: 96/50(63) {78/50(59) - 147/79(100)} mmHg
   RR: 20 (10 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  2,595 mL
                                                                  1,554 mL
   PO:
             TF:
                                                                     18 mL
                                                                    249 mL
   IVF:
                                                                  2,148 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  5,312 mL
                                                                  1,930 mL
   Urine:
                                                                  4,812 mL
                                                                  1,930 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -2,717 mL
                                                                   -376 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 531 (401 - 651) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: 7.43/42/138/25/3
   Ve: 8.8 L/min
   PaO2 / FiO2: 276
   Physical Examination
   Gen: up in chair, sedated
   CV: tachy RR
   Chest: coarse BS [**Last Name (un) **] with exp wheeze
   Abd: soft +BS
   Ex: trace edema except 1+ in left hand
   Neuro: more sedated today
   Labs / Radiology
   7.8 g/dL
   271 K/uL
   85 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   8 mg/dL
   100 mEq/L
   135 mEq/L
   24.8 %
   5.2 K/uL
        [image002.jpg]
                             [**2196-8-2**]  10:23 AM
                             [**2196-8-2**]  02:22 PM
                             [**2196-8-2**]  04:22 PM
                             [**2196-8-3**]  03:40 AM
                             [**2196-8-3**]  03:48 AM
                             [**2196-8-4**]  03:40 AM
                             [**2196-8-4**]  03:46 AM
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
   WBC
   6.0
   5.0
   5.2
   Hct
   22
   25.4
   25.6
   24.8
   Plt
   [**Telephone/Fax (3) 9686**]
   Cr
   0.8
   0.9
   0.8
   0.8
   TCO2
   28
   28
   26
   29
   31
   29
   Glucose
   88
   63
   76
   85
   Other labs: PT / PTT / INR:12.0/26.2/1.0, ALT / AST:61/52, Alk Phos / T
   Bili:219/0.4, Amylase / Lipase:84/420, Differential-Neuts:84.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:3.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:257 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 ANXIETY
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   RESPIRATORY FAILURE -- Hypoxemic Resp in setting of PCP, [**Name10 (NameIs) 3396**], ARDS.
   Now with trach and working on weaning PSV. Try dropping PS and PEEP
   today if we can wake him up more.
   Fever: off and on x 48 hours, DDX is PNA, abd process
 pancreatitis
   choly
 line infections -  pan culture, abd ct this AM- will try to tap
   his knee if ballotable effussion.
   SEDATION
 off all drips. Getting po Valium and Methadone weaned. Added
   Clonidine patch for additional support during wean and to blunt HTN. He
   seems more sedated this AM but did get IV bolus Versed overnight for
   agitation. We will d/c AM seroquel and valium
 try to minize bolus IV
   sedation
 at present no focal neuron changes but low threshold ot scan
   if not better by eveving.
   HIV -- Initiated HAART.  Bactrim and Azithro for prophylaxis. Need to
   monitor for possible [**Doctor First Name **] on HAART.
   Lipase: up this AM
 but small amount
 at risk from CMV and HAART but
   at this point just trend Abd CT today.
   Anemia: likely phlebotomy and marrow
 bumped to 1 unit
 trend
   Diuresis: he continue to produce copious urine, and we believe he is
   autodiuresing still from massive resuscitation. Checking urine lytes.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:  Peptamen 1.5 (Full) - [**2196-8-4**] 10:15 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-8-2**] 05:17 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   [**Year (4 digits) 3396**]: chlorhex HOB
   Communication: with HCP
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 45
   Addendum: Desatting o return form ABD CT- he had disconnected from vent
   during CT and may have derecruited.
   No witnessed aspiration but did get po contrast for it.
   On exam he is getting good volumes, he had good bilat breath sounds.
   No cuff leak and good trach cuff pressures.
   Suctionined without sig
   Place back on AC
   Repeat CXR with evolving woirsenign right sided inftrate- could be pulm
   edema or aspiration
   Follow exam
 get an Echo
 he has not had one this admit and does seem
   to dynamically desat with agitation- [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] have diastolic dysfunction
   of vavlular abnl?
   Crti care 20 min

2196-08-06 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2196-8-5**] 09:58 AM
 ULTRASOUND - At [**2196-8-5**] 03:00 PM
 PAN CULTURE - At [**2196-8-5**] 04:01 PM
 EKG - At [**2196-8-5**] 09:30 PM
   -Desat to 80s after CT this AM, with mom[**Name (NI) 9704**] drops of Vt to 200,
   returning to VT 400 with suction and reposition. Ddx includes
   decruitment vs. PTX, so CXR performed, with slight improvement in the
   atelectasis/airspace opacities in the LLL and with stable multifocal
   airspace opacities in the remaining lungs.
   -Echo today.
   -D/C'd AM doses of Quetiapine and Diazepam. Will continue PM doses of
   these meds, plus standing methadone and PRN midazolam.
   -Follow up cortisol for hypotension and urine Na loss/borderline
   hyponatremia.
   -CT abd and pelvis PRELIM read with no evidence for acute infectious or
   inflammatory process in the abdomen or pelvis, slight interval
   improvement of pleural effusions.
   Spiked temp to 100.7, was pancultured, got tylenol, defervesced.
   Hypotensive to low 90s systolic, responded to 1.5LNS.
   Cortisol level 2, thus will get [**Last Name (un) 402**] stim test: give cortsintropin in
   am, then measure cortisol level 0.5 then 1 hour post.
   A line dc'd.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-8-4**] 08:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-8-5**] 08:00 PM
   Midazolam (Versed) - [**2196-8-5**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-6**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 89 (82 - 116) bpm
   BP: 123/61(81) {74/45(56) - 168/89(117)} mmHg
   RR: 18 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  3,471 mL
                                                                  1,145 mL
   PO:
             TF:
                                                                    828 mL
                                                                    352 mL
   IVF:
                                                                  1,493 mL
                                                                    703 mL
   Blood products:
   Total out:
                                                                  4,045 mL
                                                                    820 mL
   Urine:
                                                                  4,045 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -574 mL
                                                                    325 mL
   Respiratory support
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 504 (445 - 587) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.47/41/109/28/6
   Ve: 9.2 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   298 K/uL
   7.6 g/dL
   136 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   24.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2196-8-2**]  04:22 PM
                             [**2196-8-3**]  03:40 AM
                             [**2196-8-3**]  03:48 AM
                             [**2196-8-4**]  03:40 AM
                             [**2196-8-4**]  03:46 AM
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
   WBC
   6.0
   5.0
   5.2
   4.1
   Hct
   25.4
   25.6
   24.8
   24.1
   Plt
   [**Telephone/Fax (3) 9705**]98
   Cr
   0.8
   0.9
   0.8
   0.8
   0.8
   TCO2
   26
   29
   31
   29
   31
   Glucose
   88
   63
   76
   85
   136
   Other labs: PT / PTT / INR:12.6/26.6/1.1, ALT / AST:61/41, Alk Phos / T
   Bili:200/0.3, Amylase / Lipase:84/246, Differential-Neuts:59.7 %,
   Band:0.0 %, Lymph:13.9 %, Mono:23.9 %, Eos:2.4 %, Lactic Acid:1.5
   mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 HYPOXEMIA
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, now improving after receiving a course of abx but with continued
   difficulty weaning from ventilator and sedation.  Respiratory,
   cardiovascular, and anxiety/sedation issues are all intertwined
   episodes of anxiety tend to cause increased HR and BP with worsened
   respiratory function.
    # HYPOXEMIC RESPIRATORY FAILURE: Likely secondary to PCP pneumonia and
   probable resolved secondary pneumonia with ARDS physiology.
   Bactrim/prednisone PCP treatment complete, now on prophylaxis dosing.
   CXR improved. Leukocytosis has resolved. Sputum culture from [**8-3**] with
   sparse growth of orophargyngeal flora. Pt with trach.
   *Remained on PS 10, PEEP 10, FiO2 0.5, Rate 20. Stable ABG, resolution
   of mild alkalosis. Last PaO2 high, so we can minimally wean FiO2 and
   PEEP as tolerated today.
   * Increased thick yellow sputum raises suspicion for PNA in the setting
   of recent fever [**Last Name (LF) 1445**], [**First Name3 (LF) **] CXR this AM. Hold off on starting abx
   pending CXR and sputum Cx, given h/o consistently negative cultures.
   *Sedation: Methadone, Quetiapine, Diazepam, Clonidine (also for BP
   control). Midazolam boluses needed overnight. Because he continues to
   look sedated this AM but will likely become agitated overnight, we can
   D/C his QAM doses of Diazepam and Quietiapine but maintain his QPM
   doses. We can continue Midazolam boluses as needed to control anxiety.
   *Off antibiotics for VAP, off treatment dose of bactrim, off steroids.
   Receiving prophylaxis for PCP (Bactrim) and MAC (Azithromycin)
   - Continue to wean vent settings as tolerated (FiO2 and PEEP as
   tolerated), follow ABG with vent settings, clinical changes.
   - CXR this AM.
   - Follow up cultures
   - D/C QAM Quetiapine and Diazepam. Continue QPM Quetiapine and
   Diazepam. Continue Methadone and Clonidine standing and Midazolam
   boluses prn.
   - Bactrim DS Qdaily, Azithromycin 1200mg Qweekly
   - EKG for QTc (methadone, quetiapine, etc)
   # FEVERS: Febrile to T102.2. Pan-cultured. WBC stable. Sputum cx from
   [**8-3**] with sparse oropharyngeal flora but increased sputum this AM. Ddx
   includes PCP/HIV vs. new pulm infection vs. new other infection (?
   lines) vs. abdominal process, but we will withhold abx for now pending
   CXR and Abd CT.
   - Sputum culture.
   - Abdominal CT today.
   - CXR per above.
   - Follow up culture results, add antibiotics as appropriate
   - Acetaminophen 2g max daily.
   - Trend WBC, clinical status.
   # MENTAL STATUS: Appears less sedated today but still groggy this AM.
   Ddx includes cumulative impact of sedation in the setting of decreased
   clearance from HAART vs. infection vs. abdominal process.
   - Follow mental status throughout the day.
   - D/C AM Diazepam and Quetiapine per above.
   - Follow up CXR, CT and micro, as per above.
   - If remains depressed consider head CT, LP.
   # LFTs/Lipase: LFTs and persistently elevated. LFTs stable but lipase
   with sudden increase on [**8-4**]. In past has negative CT, negative RUQ
   u/s, no change in reported pain. Likely due to medication but specific
   etiology unclear. [**Name2 (NI) **] propofol yesterday. HAART may be hepatotoxic. Will
   do abd CT today to rule out pancreatic/hepatobiliary process.
   - Abd CT today
   - Check LFT and lipase every 2-3 days to reduce phlebotomy.
   - Limit Acetaminophen to 2g per day, as per above.
   # URINE ELECTROLYES: UNa 169, with 35 meq Na+ loss/L UOP and UOsm 450.
   Unclear etiology of Na+ wasting, with UOsm elevated such as seen in
   SIADH, but UNa output per L UOP is 35 (SIADH is generally above 40).
   Also, he is undergoing extensive diuresis and has hypotensive episodes,
   unlike in SIADH. Fluctuating blood pressure and sodium wasting may be
   consistent with adrenal insufficiency, potentially caused by infection
   vs.  ischemia/ hemorrhage in the adrenal gland. We did stop steroids
   for PCP abruptly but extensive diuresis pre-dated this drop. Generally,
   he has managed to maintain his serum sodium despite UNa loss.
   - Cortisol to assess adrenal insufficiency.
   - Sodium repletion if becomes hyponatremic.
   - Consider renal consult pending the results of above.
   # LABILE BP: continues to be hypertensive with agitation, hypotension
   with increased sedation and in the setting of significant diuresis (see
   above). Not requiring pressors.
   -Fluid bolus for hypotension, Levophed or phenylephrine if needed for
   MAPs <60.
   -Continue Clonidine for BP control and helping with weaning of benzos.
   # HIV: recent diagnosis. HAART recently started, with stable LFTs.
   Stable to improved respiratory status with no signs of immune
   reconstitution inflammation syndrome. ID has signed off.
   - Continue HAART
   - Continue prophylaxis for PCP (Bactrim) and MAC (Azithromycin) per
   above.
   - Follow LFTs given potential hepatotoxicity of HAART regimen.
    # ANEMIA: Hct stable since transfusion two days prior, around
   baseline. Anemia likely due to HIV, phlebotomy, suboptimal nutrition.
   Phlebotomy minimized.
   - CBC qAM
   - Guaiac stool
   - PPI [**Hospital1 7**]
   - Transfuse to > 21
   # FEN: With elevated Uosm and UNa excretion with significant
   autodiuresis, likely [**1-11**] SIAHD. Cause of SIADH unknown; potentially
   medication effect versus increased pain afferents. Consider water
   restriction, Replete lytes as necessary. TF held for 24H following GJ
   tube placement. Can restart this afternoon. Follow chem and UOP. Not on
   ISS.
   # PROPHYLAXIS: heparin UF SC (held pre-procedure), pneumoboots, PPI
   # ACCESS:
   -Arterial Line - [**2196-7-11**] 12:32 PM. Consider D/C post CXR and
   stabilization of clinical status.
   -PICC Line - [**2196-7-28**] 04:10 PM
   -20 Gauge - [**2196-7-29**] 08:38 AM
   # COMMUNICATION: [**Known firstname **] [**Last Name (NamePattern1) 9196**]-- [**Telephone/Fax (1) 9548**] (hm), [**Telephone/Fax (1) 9549**] (wk),
   patient, partner Chip.
   # Disposition: ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-6**] 03:04 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-7-11**] 12:32 PM
   PICC Line - [**2196-7-28**] 04:10 PM
   20 Gauge - [**2196-8-2**] 05:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-08-06 10:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo man with newly diagnosed HIV and severe PCP PNA [**Name Initial (PRE) **]/b ARDS.  S/P
   T+G.  Has had
   recurrently fevers.  Also on high dose benzos.    Yesterday with CT for
   chronically elevated
   liver enzymes.    Had fever and HOTN overnight, required IVF bolus.
   A-line cx came back positive,
   so it was removed.
   24 Hour Events:
 EKG - At [**2196-8-5**] 09:58 AM
 ULTRASOUND - At [**2196-8-5**] 03:00 PM
 PAN CULTURE - At [**2196-8-5**] 04:01 PM
 EKG - At [**2196-8-5**] 09:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-8-4**] 08:16 AM
   Vancomycin - [**2196-8-6**] 07:25 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2196-8-5**] 10:00 PM
   Pantoprazole (Protonix) - [**2196-8-6**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2196-8-6**] 08:09 AM
   Other medications:
   methadone
   valium
   quietipin
   clonidine
   ritonovir/truvada,
   Azithro
   nystatin chlorhex
   nystatin
   folate
   albuterol
   colace
   senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-6**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 109 (82 - 116) bpm
   BP: 110/82(88) {105/51(65) - 162/87(97)} mmHg
   RR: 22 (9 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  3,471 mL
                                                                  2,083 mL
   PO:
             TF:
                                                                    828 mL
                                                                    526 mL
   IVF:
                                                                  1,493 mL
                                                                  1,147 mL
   Blood products:
   Total out:
                                                                  4,045 mL
                                                                  2,430 mL
   Urine:
                                                                  4,045 mL
                                                                  2,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -574 mL
                                                                   -347 mL
   Respiratory support
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 555 (445 - 587) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: 7.47/41/109/28/6
   Ve: 11.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   298 K/uL
   136 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   24.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2196-8-2**]  04:22 PM
                             [**2196-8-3**]  03:40 AM
                             [**2196-8-3**]  03:48 AM
                             [**2196-8-4**]  03:40 AM
                             [**2196-8-4**]  03:46 AM
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
   WBC
   6.0
   5.0
   5.2
   4.1
   Hct
   25.4
   25.6
   24.8
   24.1
   Plt
   [**Telephone/Fax (3) 9705**]98
   Cr
   0.8
   0.9
   0.8
   0.8
   0.8
   TCO2
   26
   29
   31
   29
   31
   Glucose
   88
   63
   76
   85
   136
   Other labs: PT / PTT / INR:12.6/26.6/1.1, ALT / AST:61/41, Alk Phos / T
   Bili:200/0.3, Amylase / Lipase:84/246, Differential-Neuts:59.7 %,
   Band:0.0 %, Lymph:13.9 %, Mono:23.9 %, Eos:2.4 %, Lactic Acid:1.5
   mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 ANXIETY
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP
   Sedation/axiety/pain:  weaning slowly and doing well.  Decrease
   methadone.
   Respiratory failure:  slow wean of PEEP and PSV, looks to be breathing
   well.
   Fevers:  A-line may have been source which has been removed.
   increased LFTs:  increased enzymes
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-6**] 03:04 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2196-08-07 07:05:00 Physician Resident Progress Note
Chief Complaint: 45M with h/o HTN with recent diagnosis of HIV and new
   diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS requiring intubation,
   with superimposed VAP, has trach placed. Off bactrim and steroids. On
   HAART.
   24 Hour Events:
   - Blood culture from a-line gram pos cocci in pairs and clusters,
   started on vanc
   - cortisol stim test normal
   - decreased methadone to 10 mg Q12
   - low grade fevers - cultured, tylenol
   - a-line d/c'ed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-8-4**] 08:16 AM
   Vancomycin - [**2196-8-6**] 08:02 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-6**] 08:02 PM
   Heparin Sodium (Prophylaxis) - [**2196-8-6**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-7**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (99
   HR: 86 (77 - 115) bpm
   BP: 121/73(84) {97/53(63) - 159/6,543(105)} mmHg
   RR: 15 (13 - 87) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
                  Total In:
                                                                  3,027 mL
                                                                    369 mL
   PO:
                  TF:
                                                                  1,200 mL
                                                                    339 mL
   IVF:
                                                                  1,357 mL
   Blood products:
   Total out:
                                                                  3,695 mL
                                                                    920 mL
   Urine:
                                                                  3,095 mL
                                                                    920 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -668 mL
                                                                   -551 mL
   Respiratory support
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 556 (398 - 682) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: ///29/
   Ve: 10.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   311 K/uL
   7.6 g/dL
   115 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   6 mg/dL
   98 mEq/L
   136 mEq/L
   24.2 %
   3.5 K/uL
        [image002.jpg]
                             [**2196-8-3**]  03:40 AM
                             [**2196-8-3**]  03:48 AM
                             [**2196-8-4**]  03:40 AM
                             [**2196-8-4**]  03:46 AM
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
   WBC
   6.0
   5.0
   5.2
   4.1
   3.5
   Hct
   25.4
   25.6
   24.8
   24.1
   24.2
   Plt
   [**Telephone/Fax (3) 9705**]98
   311
   Cr
   0.8
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   29
   31
   29
   31
   Glucose
   88
   63
   76
   85
   136
   115
   Other labs: PT / PTT / INR:12.6/26.6/1.1, ALT / AST:61/41, Alk Phos / T
   Bili:200/0.3, Amylase / Lipase:84/246, Differential-Neuts:59.7 %,
   Band:0.0 %, Lymph:13.9 %, Mono:23.9 %, Eos:2.4 %, Lactic Acid:1.5
   mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR pending
   Microbiology: Sputum culture - rejected
   Blood culture [**8-4**] - gram pos cocci in pairs and clusters
   Blood culture [**8-6**] - pending
   Urine pending
   Assessment and Plan
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, slowly improving overall.  Now 4 weeks on ventilator, past week
   with trach.  Improving slowly.
   .
    # HYPOXEMIC RESPIRATORY FAILURE: ARDS secondary to PCP pneumonia and
   probable resolved secondary pneumonia with ARDS physiology.
   Bactrim/prednisone PCP treatment complete, now on prophylaxis dosing.
   CXR improved. Sputum culture from [**8-3**] with sparse growth of
   orophargyngeal flora. Pt with trach.
   *Remained on PS 10, PEEP 10, FiO2 0.5, Rate 20. Stable ABG, resolution
   of mild alkalosis. Last PaO2 high, so we can minimally wean FiO2 and
   PEEP as tolerated today.
   *Off antibiotics for VAP, off treatment dose of bactrim, off steroids.
   Receiving prophylaxis for PCP (Bactrim) and MAC (Azithromycin), vanc
   for line infection.
   - Continue to wean vent settings as tolerated (FiO2 and PEEP as
   tolerated), follow ABG with vent settings or clinical changes.
   - CXR when clinically indicated.
   - Follow up cultures
   - Bactrim DS Qdaily, Azithromycin 1200mg Qweekly
   - EKG for QTc (methadone, quetiapine, etc)
   .
   # FEVERS: Continued intermittent fevers. Pan-cultured. WBC stable.
   Sputum cx from [**8-3**] with sparse oropharyngeal flora. Ddx includes
   PCP/HIV vs. new pulm infection vs. new other infection vs. abdominal
   process, have been holding abx.  CT yesterday negative, no new
   infiltrate on CXR.   Now blood culture from a-line growing Gram+
   cocci.  A-line dc-ed.
   - Vanc (day 2)
   - follow up cultures
   - Tylenol 2g max daily
   - Trend WBC, clinical status
   .
   # LFTs/Lipase: LFTs and persistently elevated. LFTs stable but lipase
   with sudden increase on [**8-4**]. In past has negative CT, negative RUQ
   u/s, no change in reported pain. Likely due to medication but specific
   etiology unclear. [**Name2 (NI) **] propofol yesterday. HAART may be hepatotoxic. CT
   negative yesterday.
   - Check LFT and lipase every 2-3 days to reduce phlebotomy.
   - Limit Acetaminophen to 2g per day, as per above.
   .
    # MENTAL STATUS: Appears less sedated today after decreased sedative
   regimen yesterday.  Will continue to follow closely, attempt to wean
   sedatives, but without causing anxiety or respiratory distress.
   Improved.
   - Follow clinical status
   - Wean sedatives as tolerated
   .
   # URINE ELECTROLYES: UNa 169, with 35 meq Na+ loss/L UOP and UOsm 450.
   Unclear etiology of Na+ wasting, with UOsm elevated such as seen in
   SIADH, but UNa output per L UOP is 35 (SIADH is generally above 40).
   Also, he is undergoing extensive diuresis and has hypotensive episodes,
   unlike in SIADH. Fluctuating blood pressure and sodium wasting may be
   consistent with adrenal insufficiency, potentially caused by infection
   vs.  ischemia/ hemorrhage in the adrenal gland. We did stop steroids
   for PCP abruptly but extensive diuresis pre-dated this drop. Generally,
   he has managed to maintain his serum sodium despite UNa loss. Cortisol
   stim test negative.
   - Sodium repletion if becomes hyponatremic
   .
   # LABILE BP: recurrent episodes of hypertension, improved recently,
   with agitation, hypotension with increased sedation and in the setting
   of significant diuresis (see above). Not requiring pressors.
   - Fluid bolus for hypotension.
   - Continue Clonidine for BP control and helping with weaning of benzos.
   .
   # HIV: recent diagnosis. HAART recently started, with stable LFTs.
   Stable to improved respiratory status with no signs of immune
   reconstitution inflammation syndrome. ID has signed off.
    - Continue HAART
   - Continue prophylaxis for PCP (Bactrim) and MAC (Azithromycin) per
   above.
   - Follow LFTs q2-3 days given potential hepatotoxicity of HAART
   regimen.
   .
    # ANEMIA: Hct stable since transfusion, around baseline. Anemia likely
   due to HIV, phlebotomy, suboptimal nutrition. Phlebotomy minimized.
   - CBC qAM
   - Guaiac stool
   - PPI [**Hospital1 7**]
   - Transfuse to > 21
   .
   # FEN: autodiuresis now improved, will continue to follow. TF restarted
   with PEG tube placement. Can restart this afternoon. Follow chem and
   UOP. Not on ISS.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-6**] 10:44 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2196-08-07 11:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo man with HIV/PCP PNA respiratory failure:  A-line cx recently
   positive and line was removed.
   24 Hour Events:
 PAN CULTURE - At [**2196-8-6**] 05:01 PM
 FEVER - 101.1
F - [**2196-8-6**] 05:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-8-7**] 08:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-7**] 08:22 AM
   Midazolam (Versed) - [**2196-8-7**] 10:15 AM
   Heparin Sodium (Prophylaxis) - [**2196-8-7**] 11:31 AM
   Other medications:
   valium 10 at night
   seroquel 75 at night
   clonidine
   HAART
   Bactrim
   Azithro
   nystatin
   chlorhex
   folate
   prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-7**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 108 (77 - 124) bpm
   BP: 134/84(96) {97/53(63) - 148/6,543(105)} mmHg
   RR: 33 (13 - 87) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  3,027 mL
                                                                  1,142 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    582 mL
   IVF:
                                                                  1,357 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  3,695 mL
                                                                  1,930 mL
   Urine:
                                                                  3,095 mL
                                                                  1,930 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -668 mL
                                                                   -788 mL
   Respiratory support
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 450 (398 - 682) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: ///29/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: mild distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   311 K/uL
   115 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   6 mg/dL
   98 mEq/L
   136 mEq/L
   24.2 %
   3.5 K/uL
        [image002.jpg]
                             [**2196-8-3**]  03:40 AM
                             [**2196-8-3**]  03:48 AM
                             [**2196-8-4**]  03:40 AM
                             [**2196-8-4**]  03:46 AM
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
   WBC
   6.0
   5.0
   5.2
   4.1
   3.5
   Hct
   25.4
   25.6
   24.8
   24.1
   24.2
   Plt
   [**Telephone/Fax (3) 9705**]98
   311
   Cr
   0.8
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   29
   31
   29
   31
   Glucose
   88
   63
   76
   85
   136
   115
   Other labs: PT / PTT / INR:12.6/26.6/1.1, ALT / AST:61/41, Alk Phos / T
   Bili:200/0.3, Amylase / Lipase:84/246, Differential-Neuts:59.7 %,
   Band:0.0 %, Lymph:13.9 %, Mono:23.9 %, Eos:2.4 %, Lactic Acid:1.5
   mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Slow improvement.  Continue weaning  PS as tolerate.
   Increased Sputum today - follow up cultures
   Fevers:  continues spiking, no clear source.
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER PJP:  Completed course of antibiotics.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-6**] 10:44 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2196-08-08 07:27:00 Physician Resident Progress Note
Chief Complaint: 45M c hypoxemic resp failure new HIV diagnosis on this
   admission found to have PCP, [**Name10 (NameIs) 117**] treated, and started on HAART; unable
   to extubate now c trach and PEJ in place. Recently has been spiking
   fevers however BCx, UCx, cxr unrevealing for source of infection. This
   am pt c/o chills and lung pain.
   24 Hour Events:
 SPUTUM CULTURE - At [**2196-8-7**] 12:15 PM
 BLOOD CULTURED - At [**2196-8-7**] 12:33 PM
   - d/c'ed vanc - [**12-15**] GPC, likely contaminate
 EKG - At [**2196-8-7**] 04:33 PM
 FEVER - 103.2
F - [**2196-8-7**] 06:00 PM
   - Febrile, gave tylenol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-8-7**] 08:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-7**] 08:28 PM
   Heparin Sodium (Prophylaxis) - [**2196-8-7**] 08:28 PM
   Midazolam (Versed) - [**2196-8-8**] 05:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-8**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.7
C (101.6
   HR: 113 (81 - 124) bpm
   BP: 138/85(95) {93/53(61) - 155/98(128)} mmHg
   RR: 30 (16 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
                  Total In:
                                                                  3,023 mL
                                                                    352 mL
   PO:
                  TF:
                                                                  1,213 mL
                                                                    352 mL
   IVF:
                                                                  1,220 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                    785 mL
   Urine:
                                                                  2,835 mL
                                                                    785 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -112 mL
                                                                   -433 mL
   Respiratory support
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 113 (113 - 605) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 58
   RSBI Deferred: Agitated
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 13.6 L/min
   Physical Examination
    HEENT: NCAT
   CV: tachycardic, regular rhythm
   resp: course breath sounds
   abd: soft, ntnd +BS, PEJ site c/d/i s erythema
   ext: no c/c/e, DP pulses 2+ b/l
   Labs / Radiology
   334 K/uL
   8.1 g/dL
   105 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   6 mg/dL
   102 mEq/L
   137 mEq/L
   25.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2196-8-3**]  03:48 AM
                             [**2196-8-4**]  03:40 AM
                             [**2196-8-4**]  03:46 AM
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
                             [**2196-8-8**]  02:28 AM
   WBC
   5.0
   5.2
   4.1
   3.5
   6.5
   Hct
   25.6
   24.8
   24.1
   24.2
   25.7
   Plt
   [**Telephone/Fax (3) 9730**]11
   334
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   0.8
   TCO2
   29
   31
   29
   31
   Glucose
   63
   76
   85
   136
   115
   105
   Other labs: PT / PTT / INR:12.6/26.6/1.1, ALT / AST:61/41, Alk Phos / T
   Bili:200/0.3, Amylase / Lipase:84/246, Differential-Neuts:59.7 %,
   Band:0.0 %, Lymph:13.9 %, Mono:23.9 %, Eos:2.4 %, Lactic Acid:1.5
   mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.1 mg/dL
   Imaging: cxr [**2196-8-7**]: Tracheostomy and right PICC line remain in place.
   Accounting for the
   shallower level of inspiration, I do not see a significant interval
   change
   compared to the prior study and importantly no definite evidence for
   new
   consolidation. Considerable residual airspace disease persists.
   Microbiology: sp cx [**8-5**], [**8-6**] and [**8-7**] all canceled [**1-11**] too much resp
   contamination (>25 PMNs)
   BCx pending, 1/3 bottles + for Coag neg staph on [**8-5**]
   UCx pending
   A line catheter tip culture pending
   Assessment and Plan
 HYPOXEMIA
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, slowly improving overall.  Now 4 weeks on ventilator, past week
   with trach.  Improving slowly. Recently, pt has been febrile.
   # HYPOXEMIC RESPIRATORY FAILURE: ARDS secondary to PCP pneumonia and
   probable resolved secondary pneumonia with ARDS physiology.
   Bactrim/prednisone PCP treatment complete, now on prophylaxis dosing.
   CXR improved. Pt with trach.
    *PS 10, PEEP 8, FiO2 0.5, Rate 20. follow abg, we can minimally wean
   FiO2 and PEEP as tolerated today.
    *Sedation: Methadone, Quetiapine, Diazepam, Clonidine DC-ed am
   quetiapine and diazepam yesterday due to excessive am sedation.
   Midazolam boluses as needed, but trying to wean.
    *Off antibiotics for VAP, off treatment dose of bactrim, off steroids.
   Receiving prophylaxis for PCP (Bactrim) and MAC (Azithromycin)
   -continue ppx c  Bactrim DS Qdaily, Azithromycin 1200mg Qweekly
   - EKG for QTc (methadone, quetiapine, etc)
    # FEVERS: Continued intermittent fevers. Pan-cultured. WBC stable. Ddx
   includes PCP/HIV vs. new pulm infection vs. new other infection (?
   lines) vs. abdominal process, have been holding abx.  CT yesterday
   negative, no new infiltrate on CXR.   Now blood culture from a-line
   growing Gram+ cocci.  A-line dc-ed, cx of aline pending.
   - Sputum cultures all c resp contam.
   - vanc d/ced yesterday
   - Acetaminophen 2g max daily.
   - Trend WBC, clinical status.
   -consider asking ID to weigh in
   # MENTAL STATUS: Appears less sedated today after decreased sedative
   regimen yesterday.  Will continue to follow closely, attempt to wean
   sedatives, but without causing anxiety or respiratory distress.
   - Follow up CXR, CT and micro, as per above.
   -Continue to wean sedatives as tolerated.
   # LFTs/Lipase: LFTs and persistently mildily elevated. LFTs stable but
   lipase with sudden increase on [**8-4**]. In past has negative CT, negative
   RUQ u/s, no change in reported pain. Likely due to medication but
   specific etiology unclear. [**Name2 (NI) **] propofol yesterday. HAART may be
   hepatotoxic. CT negative yesterday.
   - Check LFT and lipase every 2-3 days to reduce phlebotomy.
   - Limit Acetaminophen to 2g per day, as per above.
   # URINE ELECTROLYES: UNa 169, with 35 meq Na+ loss/L UOP and UOsm 450.
   Unclear etiology of Na+ wasting, with UOsm elevated such as seen in
   SIADH, but UNa output per L UOP is 35 (SIADH is generally above 40).
   Also, he is undergoing extensive diuresis and has hypotensive episodes,
   unlike in SIADH. Fluctuating blood pressure and sodium wasting may be
   consistent with adrenal insufficiency, potentially caused by infection
   vs.  ischemia/ hemorrhage in the adrenal gland. We did stop steroids
   for PCP abruptly but extensive diuresis pre-dated this drop. Generally,
   he has managed to maintain his serum sodium despite UNa loss.
   - Cortisol stim test to assess adrenal insufficiency was wnl.
   - Sodium repletion if becomes hyponatremic.
   - Consider renal consult pending the results of above.
   # LABILE BP: recurrent episodes of hypertension, improved recently,
   with agitation, hypotension with increased sedation and in the setting
   of significant diuresis (see above). Not requiring pressors.
   -Fluid bolus for hypotension (no hypotension in past 24 hours).
   -Continue Clonidine for BP control and helping with weaning of benzos.
   # HIV: recent diagnosis. HAART recently started, with stable LFTs.
   Stable to improved respiratory status with no signs of immune
   reconstitution inflammation syndrome. ID has signed off.
   - Continue HAART
   - Continue prophylaxis for PCP (Bactrim) and MAC (Azithromycin) per
   above.
   - Follow LFTs given potential hepatotoxicity of HAART regimen.
    # ANEMIA: Hct stable since transfusion, around baseline. Anemia likely
   due to HIV, phlebotomy, suboptimal nutrition. Phlebotomy minimized.
   - CBC qAM
   - Guaiac stool
   - PPI [**Hospital1 7**]
   - Transfuse to > 21
   # FEN: autodiuresis now improved, will continue to follow. TF restarted
   with PEG tube placement. Can restart this afternoon. Follow chem and
   UOP. Not on ISS.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-7**] 06:28 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-08-08 09:59:00 Physician Attending Progress Note
Chief Complaint: Repiratory failure, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2196-8-7**] 12:15 PM
 BLOOD CULTURED - At [**2196-8-7**] 12:33 PM
 EKG - At [**2196-8-7**] 04:33 PM
 FEVER - 103.2
F - [**2196-8-7**] 06:00 PM
   History obtained from icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-8-7**] 08:22 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2196-8-8**] 05:14 AM
   Pantoprazole (Protonix) - [**2196-8-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-8-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: PEG
   Cardiovascular: Chest pain
   [**Year (4 digits) **]: Tachypnea, mechanical ventilatory
   Genitourinary: Foley
   Allergy / Immunology: Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-8-8**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.8
C (101.8
   HR: 106 (81 - 124) bpm
   BP: 123/67(80) {93/53(61) - 155/98(128)} mmHg
   RR: 22 (16 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  3,023 mL
                                                                    495 mL
   PO:
             TF:
                                                                  1,213 mL
                                                                    485 mL
   IVF:
                                                                  1,220 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                    945 mL
   Urine:
                                                                  2,835 mL
                                                                    945 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -112 mL
                                                                   -450 mL
   [**Year (4 digits) **] support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 600 (113 - 605) mL
   PS : 10 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: ///28/
   Ve: 16.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   [**Year (4 digits) **] / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, No(t) Tender:
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   334 K/uL
   105 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   6 mg/dL
   102 mEq/L
   137 mEq/L
   25.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2196-8-3**]  03:48 AM
                             [**2196-8-4**]  03:40 AM
                             [**2196-8-4**]  03:46 AM
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
                             [**2196-8-8**]  02:28 AM
   WBC
   5.0
   5.2
   4.1
   3.5
   6.5
   Hct
   25.6
   24.8
   24.1
   24.2
   25.7
   Plt
   [**Telephone/Fax (3) 9730**]11
   334
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   0.8
   TCO2
   29
   31
   29
   31
   Glucose
   63
   76
   85
   136
   115
   105
   Other labs: PT / PTT / INR:12.6/26.6/1.1, ALT / AST:61/41, Alk Phos / T
   Bili:200/0.3, Amylase / Lipase:84/246, Differential-Neuts:59.7 %,
   Band:0.0 %, Lymph:13.9 %, Mono:23.9 %, Eos:2.4 %, Lactic Acid:1.5
   mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.1 mg/dL
   Microbiology: no new cx data
   Assessment and Plan
   45 yo man with prolonged [**Telephone/Fax (3) **] failure due to ARDS from PCP.
   [**Name10 (NameIs) **] Failure/ARDS: On PSV - can try tach collar trials. Anxiety
   may be an issue
   Fevers:  Continues to [**Last Name (LF) **], [**First Name3 (LF) **] follow cultures.  Hold antibiotics
   HIV: now on HAART.  Bactrim, azithro ppx
   PCP: [**Name10 (NameIs) 9735**] [**Name11 (NameIs) 9736**] Bactrim/steroids
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-7**] 06:28 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 min
   Patient is critically ill

2196-08-09 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2196-8-9**] 04:27 AM
 STOOL CULTURE - At [**2196-8-9**] 04:27 AM
 FEVER - 103.0
F - [**2196-8-8**] 12:00 PM
   -tolerated trach collar x several hours
   -tapering methadone (which had been started for fentanyl withdrawal)
   10BID today-->5BID tomorrow
   -ID recs (should also f/u final recs as not signed by attg yet):
   -stool cx, sputum cx, crypto antigen, CK
   -ID noted tenderness of R neck. recommended to follow this.
   -ID was concerned for NMS in setting of reglan. d/ced reglan.
   -EKG ordered for tomorrow am as pt is on methadone
   -low UOP o/n. bolused 1L over several hrs. also some hematuria, nsg has
   been flushing foley...etiology ? trauma during physical therapy?
   -hct drawn ~3a (21) on [**8-9**] was from line where bolus had just been
   given. repeat hct unchanged from prior (25)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-8-7**] 08:22 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-8-8**] 08:00 AM
   Pantoprazole (Protonix) - [**2196-8-8**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-9**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.1
C (100.5
   HR: 95 (88 - 114) bpm
   BP: 100/58(68) {93/52(62) - 166/107(120)} mmHg
   RR: 25 (0 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  1,720 mL
                                                                    895 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    345 mL
   IVF:
                                                                    520 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    670 mL
   Urine:
                                                                  1,490 mL
                                                                    495 mL
   NG:
   Stool:
   175 mL
   Drains:
   Balance:
                                                                    230 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 478 (397 - 600) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 178
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: ///27/
   Ve: 9.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   346 K/uL
   7.8 g/dL
   98 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   25.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2196-8-4**]  03:46 AM
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
                             [**2196-8-8**]  02:28 AM
                             [**2196-8-9**]  02:12 AM
                             [**2196-8-9**]  04:39 AM
   WBC
   5.2
   4.1
   3.5
   6.5
   8.1
   8.1
   Hct
   24.8
   24.1
   24.2
   25.7
   21.1
   25.3
   Plt
   271
   298
   311
   [**Telephone/Fax (3) 9761**]
   Cr
   0.8
   0.8
   0.8
   0.7
   0.8
   0.5
   0.8
   TCO2
   31
   29
   31
   Glucose
   76
   85
   136
   115
   105
   87
   98
   Other labs: PT / PTT / INR:12.6/26.6/1.1, CK / CKMB / Troponin-T:33//,
   ALT / AST:61/41, Alk Phos / T Bili:200/0.3, Amylase / Lipase:84/246,
   Differential-Neuts:59.7 %, Band:0.0 %, Lymph:13.9 %, Mono:23.9 %,
   Eos:2.4 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOXEMIA
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, slowly improving overall.  Now 4 weeks on ventilator, past week
   with trach.  Improving slowly. Recently, pt has been febrile.
   # HYPOXEMIC RESPIRATORY FAILURE: ARDS secondary to PCP pneumonia and
   probable resolved secondary pneumonia with ARDS physiology.
   Bactrim/prednisone PCP treatment complete, now on prophylaxis dosing.
   CXR improved. Pt with trach.
    *PS 10, PEEP 8, FiO2 0.5, Rate 20. follow abg, we can minimally wean
   FiO2 and PEEP as tolerated today.
    *Sedation: Methadone, Quetiapine, Diazepam, Clonidine DC-ed am
   quetiapine and diazepam yesterday due to excessive am sedation.
   Midazolam boluses as needed, but trying to wean.
    *Off antibiotics for VAP, off treatment dose of bactrim, off steroids.
   Receiving prophylaxis for PCP (Bactrim) and MAC (Azithromycin)
   -continue ppx c  Bactrim DS Qdaily, Azithromycin 1200mg Qweekly
   - SBT today
    # FEVERS: Continued intermittent fevers. Pan-cultured. WBC stable. Ddx
   includes PCP/HIV vs. new pulm infection vs. new other infection (?
   lines) vs. abdominal process, have been holding abx.  CT yesterday
   negative, no new infiltrate on CXR.   Now blood culture from a-line
   growing Gram+ cocci.  A-line dc-ed, cx of aline pending.
   - Sputum cultures all c resp contam.
   - vanc d/ced yesterday
   - Acetaminophen 2g max daily.
   - Trend WBC, clinical status.
   -will reconsult ID
   # MENTAL STATUS: Appears less sedated today after decreased sedative
   regimen yesterday.  Will continue to follow closely, attempt to wean
   sedatives, but without causing anxiety or respiratory distress.
   - Follow up CXR, CT and micro, as per above.
   -Continue to wean sedatives as tolerated.
   # LFTs/Lipase: LFTs and persistently mildily elevated. LFTs stable but
   lipase with sudden increase on [**8-4**]. In past has negative CT, negative
   RUQ u/s, no change in reported pain. Likely due to medication but
   specific etiology unclear. [**Name2 (NI) **] propofol yesterday. HAART may be
   hepatotoxic. CT negative yesterday.
   - Check LFT and lipase every 2-3 days to reduce phlebotomy.
   - Limit Acetaminophen to 2g per day, as per above.
   # URINE ELECTROLYES: UNa 169, with 35 meq Na+ loss/L UOP and UOsm 450.
   Unclear etiology of Na+ wasting, with UOsm elevated such as seen in
   SIADH, but UNa output per L UOP is 35 (SIADH is generally above 40).
   Also, he is undergoing extensive diuresis and has hypotensive episodes,
   unlike in SIADH. Fluctuating blood pressure and sodium wasting may be
   consistent with adrenal insufficiency, potentially caused by infection
   vs.  ischemia/ hemorrhage in the adrenal gland. We did stop steroids
   for PCP abruptly but extensive diuresis pre-dated this drop. Generally,
   he has managed to maintain his serum sodium despite UNa loss.
   - Cortisol stim test to assess adrenal insufficiency was wnl.
   - Sodium repletion if becomes hyponatremic.
   - Consider renal consult pending the results of above.
   # LABILE BP: recurrent episodes of hypertension, improved recently,
   with agitation, hypotension with increased sedation and in the setting
   of significant diuresis (see above). Not requiring pressors.
   -Fluid bolus for hypotension (no hypotension in past 24 hours).
   -Continue Clonidine for BP control and helping with weaning of benzos.
   # HIV: recent diagnosis. HAART recently started, with stable LFTs.
   Stable to improved respiratory status with no signs of immune
   reconstitution inflammation syndrome. ID has signed off.
   - Continue HAART
   - Continue prophylaxis for PCP (Bactrim) and MAC (Azithromycin) per
   above.
   - Follow LFTs given potential hepatotoxicity of HAART regimen.
    # ANEMIA: Hct stable since transfusion, around baseline. Anemia likely
   due to HIV, phlebotomy, suboptimal nutrition. Phlebotomy minimized.
   - CBC qAM
   - Guaiac stool
   - PPI [**Hospital1 7**]
   - Transfuse to > 21
   # FEN: autodiuresis now improved, will continue to follow. TF restarted
   with PEG tube placement. Can restart this afternoon. Follow chem and
   UOP. Not on ISS.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-8**] 02:13 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-08-09 10:59:00 Physician Attending Progress Note
Chief Complaint: [** **] Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tolerated trach collar for around 2 hours yesterday
   Fever spike of 103
   mini-BAL yesterday
   24 Hour Events:
 BLOOD CULTURED - At [**2196-8-9**] 04:27 AM
 STOOL CULTURE - At [**2196-8-9**] 04:27 AM
 FEVER - 103.0
F - [**2196-8-8**] 12:00 PM
   History obtained from icu team
   Patient unable to provide history: trached
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-8-7**] 08:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-8**] 08:00 PM
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: PEG
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   [**Year (4 digits) **]: mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Allergy / Immunology: Immunocompromised
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-8-9**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.3
C (100.9
   HR: 97 (88 - 114) bpm
   BP: 128/71(84) {93/52(62) - 166/107(120)} mmHg
   RR: 24 (0 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  1,720 mL
                                                                  1,180 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    530 mL
   IVF:
                                                                    520 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                  1,090 mL
   Urine:
                                                                  1,490 mL
                                                                    915 mL
   NG:
   Stool:
   175 mL
   Drains:
   Balance:
                                                                    230 mL
                                                                     90 mL
   [**Year (4 digits) **] support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 539 (397 - 550) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 178
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 14.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   [**Year (4 digits) **] / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   346 K/uL
   98 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   25.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2196-8-4**]  03:46 AM
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
                             [**2196-8-8**]  02:28 AM
                             [**2196-8-9**]  02:12 AM
                             [**2196-8-9**]  04:39 AM
   WBC
   5.2
   4.1
   3.5
   6.5
   8.1
   8.1
   Hct
   24.8
   24.1
   24.2
   25.7
   21.1
   25.3
   Plt
   271
   298
   311
   [**Telephone/Fax (3) 9761**]
   Cr
   0.8
   0.8
   0.8
   0.7
   0.8
   0.5
   0.8
   TCO2
   31
   29
   31
   Glucose
   76
   85
   136
   115
   105
   87
   98
   Other labs: PT / PTT / INR:12.6/26.6/1.1, CK / CKMB / Troponin-T:33//,
   ALT / AST:61/41, Alk Phos / T Bili:200/0.3, Amylase / Lipase:84/246,
   Differential-Neuts:59.7 %, Band:0.0 %, Lymph:13.9 %, Mono:23.9 %,
   Eos:2.4 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   45 yo man with prolonged [**Telephone/Fax (3) **] failure due to ARDS from PCP.
   [**Name10 (NameIs) **] Failure/ARDS:Tolerated trach collar trial - will do again
   today.  Wean methadone.
   Fevers:  Continues to spike, no new culture data.  mini-BAL culture
   pending.  Continuing to hold antibiotics.  Reglan d/c's.
   HIV: now on HAART.  Bactrim, azithro ppx
   PCP: [**Name10 (NameIs) 9735**] [**Name11 (NameIs) 9736**] Bactrim/steroids
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-9**] 10:12 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2196-08-10 07:06:00 Physician Resident Progress Note
Chief Complaint: 45M with h/o HTN with recent diagnosis of HIV and new
   diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS requiring intubation,
   with superimposed VAP, now slowly improving.  Now 4 weeks on
   ventilator, now transitioned to trach.  Improving slowly but with
   persistent fevers without clear source.
   24 Hour Events:
 BLOOD CULTURED - At [**2196-8-10**] 02:45 AM
 FEVER - 101.7
F - [**2196-8-10**] 02:00 AM
   -tolerated trach collar for multiple hours in afternoon, comfortable.
   -trach valve placed - able to speak comfortably.
   -crypto antigen negative, other cultures still pending.
   -persistent low-grade temperatures during the day - 100.7 at 10 am,
   100.9 at 6 pm, 101.1 at midnight.
   -mild tachycardia after midnight with slight decrease in blood
   pressures.  500 cc bolus NS given.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-8-7**] 08:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-9**] 08:35 PM
   Heparin Sodium (Prophylaxis) - [**2196-8-9**] 08:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-10**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.1
C (100.5
   HR: 100 (82 - 108) bpm
   BP: 124/76(87) {93/50(59) - 147/92(97)} mmHg
   RR: 25 (8 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  2,211 mL
                                                                    869 mL
   PO:
             TF:
                                                                  1,201 mL
                                                                    309 mL
   IVF:
                                                                    510 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,188 mL
                                                                  1,220 mL
   Urine:
                                                                  1,913 mL
                                                                  1,220 mL
   NG:
   Stool:
                                                                    275 mL
   Drains:
   Balance:
                                                                     23 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 650 (539 - 650) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 10.9 L/min
   Physical Examination
   Gen: awake, follows commands, anxious about how long he
s been here,
   work etc
   CV: tachycardic, regular rhythm, no m/r/g
   Resp: course breath sounds
   Labs / Radiology
   349 K/uL
   7.9 g/dL
   126 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   7 mg/dL
   102 mEq/L
   137 mEq/L
   25.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
                             [**2196-8-8**]  02:28 AM
                             [**2196-8-9**]  02:12 AM
                             [**2196-8-9**]  04:39 AM
                             [**2196-8-10**]  02:02 AM
   WBC
   5.2
   4.1
   3.5
   6.5
   8.1
   8.1
   6.4
   Hct
   24.8
   24.1
   24.2
   25.7
   21.1
   25.3
   25.5
   Plt
   271
   298
   311
   [**Telephone/Fax (3) 9761**]
   349
   Cr
   0.8
   0.8
   0.8
   0.7
   0.8
   0.5
   0.8
   0.7
   TCO2
   29
   31
   Glucose
   76
   85
   136
   115
   105
   87
   98
   126
   Other labs: PT / PTT / INR:12.6/26.6/1.1, CK / CKMB / Troponin-T:33//,
   ALT / AST:61/41, Alk Phos / T Bili:200/0.3, Amylase / Lipase:84/246,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:12.9 %, Mono:19.2 %,
   Eos:1.6 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: cxr essentially unchanged from yesterday
   Microbiology: crypto antigen neg
   mini BAL GS: 1+PMNs, no bugs
   Cx pending
   stool cx pending
   cdiff neg
   Assessment and Plan
 HYPOXEMIA
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, now slowly improving.  Now 4 weeks on ventilator, now transitioned
   to trach.  Improving slowly but with persistent fevers without clear
   source.
    # HYPOXEMIC RESPIRATORY FAILURE: ARDS secondary to PCP pneumonia and
   probable resolved secondary pneumonia with ARDS physiology.
   Bactrim/prednisone PCP treatment complete, now on prophylaxis dosing.
   CXR improved. Pt with trach.
   -Pressure support now [**9-12**], gradually improving, decreased to [**4-12**], will
   recheck abg and consider decreasing fio2 from .6 to .5
   -Continuing to wean sedation as tolerated.
   - Still on Bactrim and azithromycin for prophylaxis
   -continue ppx, wean sedation.
   - SBT today
 tolerated trach collar for several hours
   yesterday.
    # FEVERS in setting of low CD4: Continued intermittent fevers,
   pan-cultured with no clear source. WBC stable.  A-line culture
   negative, and temperature continuing after pulling line.  DDx in light
   of low CD4- Infectious vs. malignancy?
   -Continue to follow cultures closely
   -ID consulted-said to consider IRS.
   - Sputum cultures all c resp contam, miniBAL c PMNs no bugs, cx
   pending.
   - Acetaminophen 2g max daily.
   - Trend WBC, clinical status.
   -will check neck CT as pt having some neck pain, ?abscess
   -pt also has significant thrush and yeast in axilla as well, will start
   oral fluc course as topical is not working
   # MENTAL STATUS: Increasingly alert, but still with periods of
   agitation, usually concurrent with fever.
   - Follow up CXR, CT and micro, as per above, rule out infectious
   causes.
   -Continue to wean sedatives as tolerated, but cautiously given high
   requirements and likely tolerance. Will attempt to taper
   methadone/clonidine. Methadone decreased to 5 [**Hospital1 7**] yesterday, will taper
   to 5 daily
   # LFTs/Lipase: LFTs and persistently elevated. Likely due to medication
   but specific etiology unclear.  Negative RUQ US and CT previously.
   Possible medication effect.  Have been trending LFT
s, gradually
   trending downward though still elevated.
   - Continue to trend LFT
s every few days.
   - Limit Acetaminophen to 2g per day, as per above.
   -Consider further imaging if warranted by clinical change.
   # URINE ELECTROLYES: Had been concerned for autodiuresis, possible
   SIADH.  Cortisol stim test was normal, now urine output reduced,
   actually low yesterday, responsive to fluid bolus.  Fluid balance even
   yesterday, creatinine WNL.
   - Will start free water flushes with tube feeds
   - Sodium repletion if becomes hyponatremic.
   - Continue to follow I/O
s - monitor renal function.
   - Consider renal consult pending the results of above.
   # LABILE BP: More stable recently, will given fluid bolus for
   hypotension.
   -Fluid bolus for hypotension (no hypotension in past 24 hours).
   -Continue Clonidine for BP control and helping with weaning of benzos.
   # HIV: on HAART, with elevated but stable LFTs.  Receiving
   Bactrim/azithro prophylaxis.
   - Continue HAART
   - Continue prophylaxis for PCP (Bactrim) and MAC (Azithromycin) per
   above.
   - Follow LFTs given potential hepatotoxicity of HAART regimen.
    # ANEMIA: Hct stable since transfusion, around baseline. Anemia likely
   due to HIV, phlebotomy, suboptimal nutrition.  Will try to minimize
   phlebotomy as possible.
   - CBC qAM
   - Guaiac stool
   - PPI [**Hospital1 7**]
   - Transfuse to > 21
    # FEN: Tube feeds with PEG tube, replete electrolytes PRN. Consider
   starting PO food tomorrow, pending s&s approval
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-08-10 11:57:00 Physician Attending Progress Note
Chief Complaint: [** **] Failure, ARDS, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to have fever spikes but slightly lower than previous
   24 Hour Events:
 BLOOD CULTURED - At [**2196-8-10**] 02:45 AM
 FEVER - 101.7
F - [**2196-8-10**] 02:00 AM
   History obtained from Patient, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-10**] 08:37 AM
   Heparin Sodium (Prophylaxis) - [**2196-8-10**] 08:37 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: PEG
   Nutritional Support: Tube feeds
   [**Year (4 digits) **]: trach
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-8-10**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.8
C (101.9
   HR: 98 (82 - 106) bpm
   BP: 102/67(75) {93/50(59) - 133/92(97)} mmHg
   RR: 21 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  2,213 mL
                                                                  1,613 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    586 mL
   IVF:
                                                                    510 mL
                                                                    547 mL
   Blood products:
   Total out:
                                                                  2,188 mL
                                                                  1,850 mL
   Urine:
                                                                  1,913 mL
                                                                  1,850 mL
   NG:
   Stool:
                                                                    275 mL
   Drains:
   Balance:
                                                                     25 mL
                                                                   -237 mL
   [**Year (4 digits) **] support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 650 (650 - 650) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 95%
   RSBI: 41
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   [**Year (4 digits) **] / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   349 K/uL
   126 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   7 mg/dL
   102 mEq/L
   137 mEq/L
   25.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2196-8-4**]  05:16 PM
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
                             [**2196-8-8**]  02:28 AM
                             [**2196-8-9**]  02:12 AM
                             [**2196-8-9**]  04:39 AM
                             [**2196-8-10**]  02:02 AM
   WBC
   5.2
   4.1
   3.5
   6.5
   8.1
   8.1
   6.4
   Hct
   24.8
   24.1
   24.2
   25.7
   21.1
   25.3
   25.5
   Plt
   271
   298
   311
   [**Telephone/Fax (3) 9761**]
   349
   Cr
   0.8
   0.8
   0.8
   0.7
   0.8
   0.5
   0.8
   0.7
   TCO2
   29
   31
   Glucose
   76
   85
   136
   115
   105
   87
   98
   126
   Other labs: PT / PTT / INR:12.6/26.6/1.1, CK / CKMB / Troponin-T:33//,
   ALT / AST:61/41, Alk Phos / T Bili:200/0.3, Amylase / Lipase:84/246,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:12.9 %, Mono:19.2 %,
   Eos:1.6 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:210 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   45 yo man with prolonged [**Telephone/Fax (3) **] failure due to ARDS from PCP.
   [**Name10 (NameIs) **] Failure/ARDS: Continue TM trials.  Weaning methadone.
   Fevers:  Continues to spike, fever curve trending downmini-BAL culture
   pending.  Continuing to hold antibiotics. Will check neck CT given neck
   tenderness.  Possible that fevers are due to immune reconstitution.
   HIV: now on HAART.  Bactrim, azithro ppx
   PCP: [**Name10 (NameIs) 9735**] course of Bactrim/steroids
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-10**] 06:08 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2196-08-11 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2196-8-10**] 01:20 PM
 FEVER - 101.9
F - [**2196-8-10**] 08:00 AM
   -CT neck with contrast done to evaluate persistent neck pain- complete
   opacification of sphenoid sinuses (new since last head CT on [**7-25**]), R
   maxillary mucosal thickening and ethmoid air cells with opacification,
   which has worsened. No abscesses or fluid collections.
   -Speech and Swallow said to hold off on feeding him for now; He will
   likely pass his eval tomorrow though
   -Started fluconazole for axillary fungal lesions not responding to
   topical nystatin
   -Stopped versed, lowered dose of valium
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-10**] 08:37 AM
   Heparin Sodium (Prophylaxis) - [**2196-8-10**] 08:44 PM
   Lansoprazole (Prevacid) - [**2196-8-10**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-11**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37
C (98.6
   HR: 97 (82 - 102) bpm
   BP: 136/81(93) {102/55(69) - 179/91(108)} mmHg
   RR: 24 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  2,817 mL
                                                                    427 mL
   PO:
             TF:
                                                                    876 mL
                                                                    356 mL
   IVF:
                                                                  1,041 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  2,780 mL
                                                                    425 mL
   Urine:
                                                                  2,780 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     37 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: calm
   Cv: rrr
   Resp: course breath sounds, rhonchi
   Abd: soft
   Ext: 2+ dp b/l
   Labs / Radiology
   435 K/uL
   8.1 g/dL
   157 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   25.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
                             [**2196-8-8**]  02:28 AM
                             [**2196-8-9**]  02:12 AM
                             [**2196-8-9**]  04:39 AM
                             [**2196-8-10**]  02:02 AM
                             [**2196-8-11**]  02:30 AM
   WBC
   5.2
   4.1
   3.5
   6.5
   8.1
   8.1
   6.4
   6.0
   Hct
   24.8
   24.1
   24.2
   25.7
   21.1
   25.3
   25.5
   25.8
   Plt
   271
   298
   311
   [**Telephone/Fax (2) 9804**]35
   Cr
   0.8
   0.8
   0.7
   0.8
   0.5
   0.8
   0.7
   0.7
   TCO2
   29
   31
   Glucose
   85
   136
   115
   105
   87
   98
   126
   157
   Other labs: PT / PTT / INR:12.6/26.6/1.1, CK / CKMB / Troponin-T:33//,
   ALT / AST:55/65, Alk Phos / T Bili:260/0.3, Amylase / Lipase:84/246,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:12.9 %, Mono:19.2 %,
   Eos:1.6 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:258 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Imaging: No abscesses seen. Almost complete opacification of the
   sphenoid sinus, new
   since head CT of [**2196-7-25**], consistent with sinus disease. Also partial
   opacification of ethomid air cells and mild mucosal thickening of right
   maxiallary sinus consistent with sinus disease. Previously seen
   opacification
   of mastoid air cells has improved.
   Microbiology: minibal: resp flora
   Assessment and Plan
 HYPOXEMIA
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, now slowly improving.  4 weeks on ventilator, now transitioned to
   trach.  Improving slowly but with persistent fevers without clear
   source.
    # HYPOXEMIC RESPIRATORY FAILURE: ARDS secondary to PCP pneumonia and
   probable resolved secondary pneumonia with ARDS physiology.
   Bactrim/prednisone PCP treatment complete, now on prophylaxis dosing.
   CXR improved. Pt with trach collar x 24 hrs, no vent.
   -Continuing to wean sedation as tolerated.
   - Still on Bactrim and azithromycin for prophylaxis
   - vent off for now.
    # FEVERS in setting of low CD4: Continued intermittent fevers,
   pan-cultured with no clear source. WBC stable.  A-line culture
   negative, and temperature continuing after pulling line.  DDx in light
   of low CD4- Infectious vs. malignancy?
   -Continue to follow cultures closely
   -ID consulted-said to consider IRS.
   - Sputum cultures all c resp contam, miniBAL c PMNs no bugs, cx resp
   flora.
   - Acetaminophen 2g max daily.
   - Trend WBC, clinical status.
   -neck ct showed no abscess, sphenoid sinus opacification, which is new,
   will consider treating [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], [**First Name3 (LF) **] d/w ID.
   -pt also has significant thrush and yeast in axilla as well, continue
   fluconazole po
   # MENTAL STATUS: Increasingly alert, but still with periods of
   agitation, usually concurrent with fever.
   - Follow up CXR, CT and micro, as per above, rule out infectious
   causes.
   -Continue to wean sedatives as tolerated, but cautiously given high
   requirements and likely tolerance. Will attempt to taper
   methadone/clonidine. Methadone decreased yesterday, midaz off and
   diazepam decreased yesterday as well so will not taper further today.
   # LFTs/Lipase: LFTs and persistently elevated. Negative RUQ US and CT
   previously. Possible medication effect.  Have been trending LFT
   gradually trending downward though still elevated.
   - Continue to trend LFT
s every few days, essentially unchanged.
   - Limit Acetaminophen to 2g per day, as per above.
   -Consider further imaging if warranted by clinical change.
   # LABILE BP: More stable recently, will given fluid bolus for
   hypotension.
   -Fluid bolus for hypotension (no hypotension in past 24 hours).
   -Continue Clonidine for BP control and helping with weaning of benzos.
   # HIV: on HAART, with elevated but stable LFTs.  Receiving
   Bactrim/azithro prophylaxis.
   - Continue HAART
   - Continue prophylaxis for PCP (Bactrim) and MAC (Azithromycin) per
   above.
   - Follow LFTs given potential hepatotoxicity of HAART regimen.
    # ANEMIA: Hct stable since transfusion, around baseline. Anemia likely
   due to HIV, phlebotomy, suboptimal nutrition.  Will try to minimize
   phlebotomy as possible.
   - CBC daily
   - Guaiac stool
   - PPI [**Hospital1 7**]
   - Transfuse to > 21
   #hiccups: will discuss c pharmacy hiccup treatments
     # FEN: Tube feeds with PEG tube, replete electrolytes PRN. S&s says
   pt not cleared for swallow. They will follow
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-10**] 11:02 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-08-11 11:16:00 Physician Attending Progress Note
Chief Complaint: [** **] Failure, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to spike temperatures
   24 Hour Events:
 STOOL CULTURE - At [**2196-8-10**] 01:20 PM
 FEVER - 101.9
F - [**2196-8-10**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-8-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-8-10**] 08:44 PM
   Lansoprazole (Prevacid) - [**2196-8-10**] 08:45 PM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: PEG
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   [**Year (4 digits) **]: Tachypnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-8-11**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 110 (82 - 110) bpm
   BP: 119/72(83) {102/67(75) - 179/93(108)} mmHg
   RR: 23 (15 - 29) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  2,817 mL
                                                                  1,417 mL
   PO:
             TF:
                                                                    876 mL
                                                                    556 mL
   IVF:
                                                                  1,041 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  2,780 mL
                                                                    635 mL
   Urine:
                                                                  2,780 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     37 mL
                                                                    782 mL
   [**Year (4 digits) **] support
   O2 Delivery Device: Trach mask
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   [**Year (4 digits) **] / Chest: (Breath Sounds: Rhonchorous: scattered)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   435 K/uL
   157 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   25.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
                             [**2196-8-8**]  02:28 AM
                             [**2196-8-9**]  02:12 AM
                             [**2196-8-9**]  04:39 AM
                             [**2196-8-10**]  02:02 AM
                             [**2196-8-11**]  02:30 AM
   WBC
   5.2
   4.1
   3.5
   6.5
   8.1
   8.1
   6.4
   6.0
   Hct
   24.8
   24.1
   24.2
   25.7
   21.1
   25.3
   25.5
   25.8
   Plt
   271
   298
   311
   [**Telephone/Fax (2) 9804**]35
   Cr
   0.8
   0.8
   0.7
   0.8
   0.5
   0.8
   0.7
   0.7
   TCO2
   29
   31
   Glucose
   85
   136
   115
   105
   87
   98
   126
   157
   Other labs: PT / PTT / INR:12.6/26.6/1.1, CK / CKMB / Troponin-T:33//,
   ALT / AST:55/65, Alk Phos / T Bili:260/0.3, Amylase / Lipase:84/246,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:12.9 %, Mono:19.2 %,
   Eos:1.6 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:258 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   45 yo man with prolonged [**Telephone/Fax (2) **] failure due to ARDS from PCP.
   [**Name10 (NameIs) **] Failure/ARDS: Doing well on trach mask
   Fevers:  Sinus opacification - will hold off on further antibiotics.
   HIV: now on HAART.  Bactrim, azithro ppx
   PCP: [**Name10 (NameIs) 9735**] course of Bactrim/steroids
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-10**] 11:02 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2196-08-12 07:42:00 Physician Resident Progress Note
Chief Complaint: 45M with h/o HTN with recent diagnosis of HIV and new
   diagnosis of PCP, [**Name10 (NameIs) 4784**] developed ARDS requiring intubation,
   with superimposed VAP, now slowly improving.  4 weeks on ventilator,
   now transitioned to trach.  Very much improved, tolerating trach mask,
   but having recurrent unexplained fevers and continued anxiety.
   24 Hour Events:
 FEVER - 101.2
F - [**2196-8-11**] 08:00 AM
   -cmv viral load ordered
   -S+S said pt not ready to eat
   -given PRN Ativan 5 mg for anxiety yesterday afternoon
   -may go to [**Hospital **] rehab tomorrow
   -ID says they are not concerned re sinus ct as infectious source
   -c/o abd pain in evening. abd soft, mildly tender to deep palpation
   diffusely. pt unable to give good story, sometimes said pain intense,
   other times said he was just feeling full and was sick of everyone
   messing c his PEJ. will check lipase/amylase as has been elev in past,
   however, exam reassuring
   -pt was oriented x3 however repeatedly told me and nsg that he had a
   chocolate box in his stomach that had been placed there by surgery
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-8-11**] 08:00 AM
   Fluconazole - [**2196-8-11**] 12:37 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-8-11**] 12:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-12**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98
   HR: 84 (77 - 121) bpm
   BP: 103/63(72) {99/60(69) - 157/105(113)} mmHg
   RR: 28 (19 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  3,172 mL
                                                                    951 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                    376 mL
   IVF:
                                                                    240 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    450 mL
   Urine:
                                                                  1,390 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,782 mL
                                                                    501 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   435 K/uL
   8.1 g/dL
   157 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   25.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2196-8-5**]  04:10 AM
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
                             [**2196-8-8**]  02:28 AM
                             [**2196-8-9**]  02:12 AM
                             [**2196-8-9**]  04:39 AM
                             [**2196-8-10**]  02:02 AM
                             [**2196-8-11**]  02:30 AM
   WBC
   5.2
   4.1
   3.5
   6.5
   8.1
   8.1
   6.4
   6.0
   Hct
   24.8
   24.1
   24.2
   25.7
   21.1
   25.3
   25.5
   25.8
   Plt
   271
   298
   311
   [**Telephone/Fax (2) 9804**]35
   Cr
   0.8
   0.8
   0.7
   0.8
   0.5
   0.8
   0.7
   0.7
   TCO2
   29
   31
   Glucose
   85
   136
   115
   105
   87
   98
   126
   157
   Other labs: PT / PTT / INR:12.6/26.6/1.1, CK / CKMB / Troponin-T:33//,
   ALT / AST:55/65, Alk Phos / T Bili:260/0.3, Amylase / Lipase:84/246,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:12.9 %, Mono:19.2 %,
   Eos:1.6 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:258 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 HYPOXEMIA
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 PNEUMONIA, OTHER
   PJP
   45M with h/o HTN with recent diagnosis of HIV and new diagnosis of PCP,
   [**Name10 (NameIs) 4784**] developed ARDS requiring intubation, with superimposed
   VAP, now slowly improving.  4 weeks on ventilator, now transitioned to
   trach.  Very much improved, tolerating trach mask, but having recurrent
   unexplained fevers and continued anxiety.
    # RECOVERING RESPIRATORY FAILURE: ARDS secondary to PCP pneumonia and
   probable resolved secondary pneumonia with ARDS physiology.
   Bactrim/prednisone PCP treatment complete, now on prophylaxis dosing.
   CXR improved. Pt with trach collar now, no vent.
   -Continuing to wean anxiolytics as tolerated.
   - Still on Bactrim and azithromycin for prophylaxis.
    # FEVERS in setting of low CD4: Continued intermittent fevers,
   pan-cultured with no clear source. WBC stable.  A-line culture
   negative, and temperature continuing after pulling line.  DDx in light
   of low CD4- Infectious vs. malignancy?  CT neck to investigate reported
   pain, no infectious source seen.  Evidence for chronic sinusitis, but
   nothing acute, not likely source.   Could also be IRS.  Fevers improved
   yesterday.
   -Continue to follow cultures closely
   -ID consulted
 do not recommend further interventions currently.
   - Sputum cultures all c resp contam, miniBAL c PMNs no bugs, cx resp
   flora.
   - Acetaminophen 2g max daily.
   - Trend WBC, clinical status.
   -pt also has thrush and yeast in axilla as well, continue fluconazole
   po
   # MENTAL STATUS: Increasingly alert, but still with periods of anxiety,
   usually concurrent with fever.  Also occasionally confused, disoriented
   as above.
   - Follow up final cultures as above.
   -Carefully weaning sedative medications given previous history of
   anxiety and very large doses over the past month.
   # LFTs/Lipase: LFTs and persistently elevated. Negative RUQ US and CT
   previously. Possible medication effect.  Have been trending LFT
   gradually trending downward though still elevated.  Lipase elevated
   further this morning.
   -Lipase elevated this morning
 difficult to interpret
 has had
   persistently elevated LFT
s and lipase over past several seeks, with
   fluctuating levels.  Reported abdominal pain yesterday, but not with
   concerning exam, symptoms improved today.  Will repeat lipase tomorrow,
   follow trend.
   - Continue to trend LFT
s every few days, essentially unchanged.
   - Limit Acetaminophen to 2g per day, as per above.
   -Consider further imaging if warranted by clinical change.
   # LABILE BP: More stable recently, will given fluid bolus for
   hypotension.
   -Fluid bolus for hypotension (no hypotension in past 24 hours).
   -Continue Clonidine for BP control and helping with weaning of benzos.
   # HIV: on HAART, with elevated but stable LFTs.  Receiving
   Bactrim/azithro prophylaxis.
   - Continue HAART
   - Continue prophylaxis for PCP (Bactrim) and MAC (Azithromycin) per
   above.
   - Follow LFTs given potential hepatotoxicity of HAART regimen.
    # ANEMIA: Hct stable since transfusion, around baseline. Anemia likely
   due to HIV, phlebotomy, suboptimal nutrition.  Will try to minimize
   phlebotomy as possible.
   - trend CBC
   - Guaiac stool
   - PPI [**Hospital1 7**]
   - Transfuse to > 21
   #hiccups: pharmacy recommends lidocaine nebs.
   # FEN: Tube feeds with PEG tube, replete electrolytes PRN. S&S says pt
   not cleared for swallow. They will continue to follow.
   #Dispo:  potentially ready for DC to rehab today if bed available and
   patient/partner in agreement.  Will follow up.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-12**] 03:06 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2196-08-12 11:36:00 Physician Attending Progress Note
Chief Complaint: Repsiratory Failure, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Getting Ativan for anxiety
   24 Hour Events:
 FEVER - 101.2
F - [**2196-8-11**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2196-8-11**] 12:37 PM
   Bactrim (SMX/TMP) - [**2196-8-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2196-8-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2196-8-12**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: PEG
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   [**Year (4 digits) **]: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-8-12**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 96 (77 - 121) bpm
   BP: 129/84(96) {99/60(69) - 157/105(113)} mmHg
   RR: 18 (16 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.7 kg (admission): 97.7 kg
   Height: 66 Inch
             Total In:
                                                                  3,172 mL
                                                                  1,472 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                    570 mL
   IVF:
                                                                    240 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    750 mL
   Urine:
                                                                  1,390 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,782 mL
                                                                    722 mL
   [**Year (4 digits) **] support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   464 K/uL
   105 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.1 mEq/L
   8 mg/dL
   102 mEq/L
   137 mEq/L
   26.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2196-8-5**]  04:30 AM
                             [**2196-8-6**]  02:44 AM
                             [**2196-8-6**]  03:06 AM
                             [**2196-8-7**]  01:34 AM
                             [**2196-8-8**]  02:28 AM
                             [**2196-8-9**]  02:12 AM
                             [**2196-8-9**]  04:39 AM
                             [**2196-8-10**]  02:02 AM
                             [**2196-8-11**]  02:30 AM
                             [**2196-8-12**]  04:09 AM
   WBC
   4.1
   3.5
   6.5
   8.1
   8.1
   6.4
   6.0
   6.2
   Hct
   24.1
   24.2
   25.7
   21.1
   25.3
   25.5
   25.8
   26.3
   Plt
   298
   311
   334
   [**Telephone/Fax (3) **]
   435
   464
   Cr
   0.8
   0.7
   0.8
   0.5
   0.8
   0.7
   0.7
   0.8
   TCO2
   29
   31
   Glucose
   136
   115
   105
   87
   98
   126
   157
   105
   Other labs: PT / PTT / INR:12.6/26.6/1.1, CK / CKMB / Troponin-T:33//,
   ALT / AST:55/65, Alk Phos / T Bili:260/0.3, Amylase / Lipase:222/480,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:12.9 %, Mono:19.2 %,
   Eos:1.6 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:258 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   45 yo man with prolonged [**Telephone/Fax (3) **] failure due to ARDS from PCP.
   [**Name10 (NameIs) **] Failure/ARDS: Doing well on trach mask, PMV valve
   Fevers:  Sinus opacification - will hold off on further antibiotics.
   Fever curve trending down
   HIV: now on HAART.  Bactrim, azithro ppx
   Elevated Lipase: Will trend - tolerating TFs, can hold for a short
   period
   PCP: [**Name10 (NameIs) 9735**] course of Bactrim/steroids
   Dispo: working on transfer to rehabilitation facility
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2196-8-12**] 03:06 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-7-28**] 04:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill